2107-11-16 06:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC ARREST - At [**2107-11-15**] 11:05 AM
 INVASIVE VENTILATION - START [**2107-11-15**] 11:06 AM
 ARTERIAL LINE - START [**2107-11-15**] 12:00 PM
 MULTI LUMEN - START [**2107-11-15**] 01:12 PM
 EKG - At [**2107-11-15**] 01:47 PM
 EEG - At [**2107-11-15**] 01:47 PM
 BLOOD CULTURED - At [**2107-11-15**] 03:00 PM
 URINE CULTURE - At [**2107-11-15**] 05:14 PM
 BLOOD CULTURED - At [**2107-11-15**] 10:00 PM
   from left cvl
 SPUTUM CULTURE - At [**2107-11-15**] 10:00 PM
   for flu r/o
   - CT chest and head to look for air embolus, wet read: no acute bleed
   or mass effect, no significant swelling. Needs to be read for air
   embolus though
   - Started Arctic sun protocol for neuroprotection
   - Started CVVH
   - On continuous EEG
   - On Arctic sun, shivering: given 10mg IV cisatracurium, worked for an
   hour then wore off, more shivering, given 10mg IV more
   - Getting bradycardic to 40-50's: either cooling or cisatracurium
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2107-11-15**] 12:41 PM
   Heparin Sodium (Prophylaxis) - [**2107-11-15**] 10:00 PM
   Cisatracurium - [**2107-11-16**] 03:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-16**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 34.2
C (93.6
   HR: 62 (48 - 96) bpm
   BP: 127/58(78) {97/56(71) - 140/90(318)} mmHg
   RR: 20 (6 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    487 mL
                                                                    492 mL
   PO:
             TF:
   IVF:
                                                                    487 mL
                                                                    492 mL
   Blood products:
   Total out:
                                                                    245 mL
                                                                    814 mL
   Urine:
                                                                    245 mL
                                                                    208 mL
   NG:
   Stool:
   Drains:
   Balance:
                                242  --> LOS negative 300, UOP 18-80/hr mL
                                                                   -322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (470 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 40 cmH2O
   Plateau: 28 cmH2O
   Compliance: 21.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.54/32/167/27/5   <--  7.33/54/137/30  <-- 7.45/42/172/30
   Ve: 11.4 L/min
   PaO2 / FiO2: 334
   Physical Examination
   Unresponsive to verbal or tactile stimuli. Pinpoint pupils. Intubated
   and sedated. Lungs with upper respiratory sounds. Heart benign. Abdomen
   large, benign. BLE with edema, indurated bark-like legs.
   Labs / Radiology
   204 K/uL
   7.9 g/dL
   62 mg/dL
   6.2 mg/dL
   27 mEq/L
   3.7 mEq/L
   78 mg/dL
   102 mEq/L
   143 mEq/L
   25.6 %
   4.8 K/uL
        [image002.jpg]
                            [**2107-11-15**]  12:49 PM
                            [**2107-11-15**]  01:28 PM
                            [**2107-11-15**]  05:19 PM
                            [**2107-11-15**]  08:22 PM
                            [**2107-11-15**]  09:18 PM
                            [**2107-11-15**]  10:00 PM
                            [**2107-11-15**]  10:30 PM
                            [**2107-11-16**]  03:12 AM
                            [**2107-11-16**]  04:03 AM
   WBC
   5.0
   4.8  stable
   Hct
   26.0
   25.6  stable
   Plt
   218
   204  stable
   Cr
   7.2
   7.4
   6.2
   TropT
   0.13
   0.18
   0.11
   TCO2
   34
   30
   30
   28
   Glucose
   85
   50
   42
   58
   69
   62
   Other labs: PT / PTT / INR:13.9/29.1/1.2, CK / CKMB /
   Troponin-T:399/6/0.11   Trop <-- 0.18, 0.13, 0.08, 0.08, ALT /
   AST:[**11-19**]    (this am) , Alk Phos / T Bili:105/0.5   (this am) ,
   Differential-Neuts:72.1 %, Lymph:18.3 %, Mono:8.0 %, Eos:1.4 %, Lactic
   Acid:0.8 mmol/L, LDH:167 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.1
   mg/dL
   Fluid analysis / Other labs: LDH 167 nml this am
   UA neg nitrite, small LE, WBC 0-2, mod bact
   Imaging: [**11-15**] CT head wet read
   NO evidence of acute hemorrhage or vascular infarction.
   [**11-15**] CT chest pending
   [**11-15**] EEG final read pending
   Microbiology: BK virus pending
   [**11-15**] BCx pending
   [**11-15**] Resp viral Cx/screen pending
   [**11-15**] expectorated sputum --> OP flora
   [**11-15**] UCx pending
   [**11-15**] nasopharyngeal DFA influenza negative
   [**11-15**] BCx negative to date
   [**11-14**] UCx pending
   [**11-13**] CMV VL negative
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF, now s/p
   PEA arrest today.
   .
   # s/p PEA arrest.  Likely etiology is hypoxia given difficulties with
   keeping mask on and poor O2 sat pleth prior to event.  Probably hypoxic
   in setting of getting meds for procedure.  Also could be acidosis
   related (has acute on chronic respiratory acidosis).  Also consider PE
   (other etiologies more likely and oxygenating well) and need to
   consider air embolus given timing.
   - CT head and chest without obvious air embolism
 f/u final reads
   - Appears to be hemodynamically stable currently off pressors
   - Continues on arctic sun protocol with consult service on board
   - F/u consult service recs
   - Continue for 24 hrs total
   - Has been getting Cisatracurium boluses
 start gtt
   - Trend CE
s for one more value and if continues to trend down can stop
   trending
   .
   # Respiratory failure.  Intubated in setting of arrest with ?hypoxia
   beforehand.  Seemingly hypoventilation related hypoxia as above.
   Oxygenating well on code ABG.
   - Mechanical vent with AC settings for now
   .
   # ?Seizure activity vs. myoclonus.  On propofol; also given IV ativan
   x1 without significant change.
   - Currently on Fentanyl and Propofol
   - Continue EEG monitoring and touch base with Neuro today, so far no
   activity to suggest seizures
   - Neuro following.
   - Cooling as above.
   - Neuro recs MRI to further eval hypoxic injury to brain, can consider
   once pt stabilized and done with cooling
   - Neuro also recs: don't treat posturing with benzos, if concern for
   prolonged seizure, Tx with 2-4mg IV ativan and let Neuro know.
   .
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far.
   - Currently getting CVVH
   - f/u renal recs.
   - BK virus pending
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   .
   # Respiratory acidosis.  Will now be able to correct with vent but
   unclear why has appeared to have this chronically.  One concern was
   lack of reliability of ABGs given past UE fistulas, but some ABG pH
   seem out of proportion to what expected if solely from this.  Chronic
   respiratory acidosis of ?etiology, ?obesity hypoventilation.
   - Adjust vent prn for goal pCO2 high 50s-low 60s.
   - A line in place.
   .
   # HTN.
   - Hold antiHTNs for now.
   .
   # DM type II. Has had persistently low blood sugars through admission
   yesterday. Possibly due to cooling effect and effects on
   metabolism/gluconeogenesis?
   - D/c Glargine and cover with only sliding scale.
   - Start D10 at 30/hr and get q1hr finger sticks
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   .
   # ?UTI. Borderline UA.
   - Will await culture, if positive start [**Doctor Last Name **] other than cipro given
   ?seizure.
 Would start Bactrim if positive.
   .
   FEN: No IVF, replete electrolytes, NPO for now
   Prophylaxis: Subutaneous heparin, PPI
   Access: peripherals, L IJ TLC, R IJ HD line
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**]
   [**Name2 (NI) **]osition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-11-15**] 11:45 AM
   Arterial Line - [**2107-11-15**] 12:00 PM
   Multi Lumen - [**2107-11-15**] 01:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-11-17 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Desat to 73, was bagged and suctioned and improved
   Arctic Sun continued
   CVVH-D
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-11-16**] 08:11 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Cisatracurium - [**2107-11-16**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-16**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-17**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.3
C (93.7
   Tcurrent: 34.3
C (93.7
   HR: 82 (54 - 84) bpm
   BP: 98/54(68) {74/43(52) - 134/64(88)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.4 kg (admission): 110 kg
             Total In:
                                                                  5,505 mL
                                                                  2,482 mL
   PO:
             TF:
   IVF:
                                                                  5,455 mL
                                                                  2,482 mL
   Blood products:
   Total out:
                                                                  6,348 mL
                                                                  2,252 mL
   Urine:
                                                                    521 mL
                                                                     79 mL
   NG:
                                                                  1,400 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -843 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/54/105/27/2
   Ve: 6.1 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   240 K/uL
   8.4 g/dL
   175 mg/dL
   4.5 mg/dL
   27 mEq/L
   4.5 mEq/L
   46 mg/dL
   102 mEq/L
   139 mEq/L
   27.4 %
   5.6 K/uL
        [image002.jpg]
                            [**2107-11-16**]  11:25 AM
                            [**2107-11-16**]  03:16 PM
                            [**2107-11-16**]  04:00 PM
                            [**2107-11-16**]  06:45 PM
                            [**2107-11-16**]  06:49 PM
                            [**2107-11-16**]  09:24 PM
                            [**2107-11-16**]  09:37 PM
                            [**2107-11-16**]  11:25 PM
                            [**2107-11-17**]  04:10 AM
                            [**2107-11-17**]  04:23 AM
   WBC
   5.6
   Hct
   27.4
   Plt
   240
   Cr
   5.3
   5.1
   4.9
   4.5
   TCO2
   28
   26
   30
   31
   31
   31
   Glucose
   99
   135
   146
   159
   179
   190
   175
   Other labs: PT / PTT / INR:13.9/29.1/1.2, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:[**11-19**], Alk Phos / T Bili:105/0.5,
   Differential-Neuts:72.1 %, Lymph:18.3 %, Mono:8.0 %, Eos:1.4 %, Lactic
   Acid:0.8 mmol/L, LDH:167 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   Assessment and Plan
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest and comatose
   .
   # s/p PEA arrest.  Likely etiology is hypoxia given difficulties with
   keeping mask on and poor O2 sat pleth prior to event.  Probably hypoxic
   in setting of getting meds for procedure.  Also could be acidosis
   related (has acute on chronic respiratory acidosis).  Also considered
   PE and air embolus, although neither revealed in evaluation
   - CT chest final read without evidence of air embolism, although
   atelectasis vs PNA found
   - CT head pending final read
   - Norepinephrine as a pressor.  Patient requiring this again starting
   at midnight
   - Continues on arctic sun protocol and 24 hour will be over today.
   - F/u consult service recs
   - Has not been getting Cisatracurium boluses any longer- no shivering;
   keep order written in case shivering occur again
   .
   # Respiratory failure.  Intubated in setting of arrest with ?hypoxia
   beforehand.  Seemingly hypoventilation related hypoxia as above.
   Oxygenating well on code ABG.  Some question of PNA on CT chest.  Also,
   had an episode of desat yesterday to 73.  Was suctioned and bagged and
   improved.
   -Bronchoscopy today for mucous plug removal
   - Mechanical vent with AC settings for now
   -Send sputum for culture because first was contaminated
   -Possibly start antibiotics if ABG's worsen
   .
   # ?Seizure activity vs. myoclonus.  On propofol; also given IV ativan
   x1 without significant change.
   - Currently on Fentanyl and Propofol
   - Continue EEG monitoring and touch base with Neuro today, so far no
   activity to suggest seizures
   - Neuro following.
   - Cooling as above.
   - Neuro recs MRI to further eval hypoxic injury to brain, can consider
   once pt stabilized and done with cooling
   - Neuro also recs: don't treat posturing with benzos, if concern for
   prolonged seizure, Tx with 2-4mg IV ativan and let Neuro know.
   .
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far.  CMV negative
   - Currently getting CVVH
   - Renal recs
   -----
   - BK virus pending
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   .
   # Respiratory acidosis.  Will now be able to correct with vent but
   unclear why has appeared to have this chronically.  One concern was
   lack of reliability of ABGs given past UE fistulas, but some ABG pH
   seem out of proportion to what expected if solely from this.  Chronic
   respiratory acidosis of ?etiology, ?obesity hypoventilation.
   - Adjust vent prn for goal pCO2 high 50s-low 60s.
   - A line in place.
   .
   # HTN.
   - Hold antiHTNs for now.
   .
   # DM type II. Has had persistently low blood sugars through admission
   yesterday. Possibly due to cooling effect and effects on
   metabolism/gluconeogenesis?
   - D/c Glargine and cover with only sliding scale.
   - Start D10 at 30/hr and get q1hr finger sticks
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   .
   #  UTI. Borderline UA. Culture positive for
#1 Gram (-) rods
   -Start  Bactrim
   .
   FEN: No IVF, replete electrolytes, NPO for now
   Prophylaxis: Subutaneous heparin, PPI
   Access: peripherals, L IJ TLC, R IJ HD line
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**]
   [**Name2 (NI) **]osition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-11-15**] 11:45 AM
   Arterial Line - [**2107-11-15**] 12:00 PM
   Multi Lumen - [**2107-11-15**] 01:12 PM
   Dialysis Catheter - [**2107-11-15**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-11-17 10:54:00 Physician Attending Progress Note
Chief Complaint: S/P cardiac arrest, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Desat yesterday to 70s, resolved with suctioning
   24 Hour Events:
 BLOOD CULTURED - At [**2107-11-16**] 11:00 PM
   CVL only
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-11-16**] 08:11 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-11-17**] 08:27 AM
   Famotidine (Pepcid) - [**2107-11-17**] 08:28 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-11-17**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.3
C (93.7
   Tcurrent: 34.3
C (93.7
   HR: 79 (55 - 84) bpm
   BP: 125/53(74) {74/43(52) - 131/64(84)} mmHg
   RR: 12 (12 - 14) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.4 kg (admission): 110 kg
             Total In:
                                                                  5,505 mL
                                                                  3,899 mL
   PO:
             TF:
   IVF:
                                                                  5,455 mL
                                                                  3,899 mL
   Blood products:
   Total out:
                                                                  6,348 mL
                                                                  3,594 mL
   Urine:
                                                                    521 mL
                                                                    130 mL
   NG:
                                                                  1,400 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -843 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/54/105/27/2
   Ve: 5.8 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: L pupil reactive, R non-reactive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, following some
   command with sedation lightened - wiggling toes.
   Labs / Radiology
   8.4 g/dL
   240 K/uL
   175 mg/dL
   4.5 mg/dL
   27 mEq/L
   4.5 mEq/L
   46 mg/dL
   102 mEq/L
   139 mEq/L
   27.4 %
   5.6 K/uL
        [image002.jpg]
                            [**2107-11-16**]  11:25 AM
                            [**2107-11-16**]  03:16 PM
                            [**2107-11-16**]  04:00 PM
                            [**2107-11-16**]  06:45 PM
                            [**2107-11-16**]  06:49 PM
                            [**2107-11-16**]  09:24 PM
                            [**2107-11-16**]  09:37 PM
                            [**2107-11-16**]  11:25 PM
                            [**2107-11-17**]  04:10 AM
                            [**2107-11-17**]  04:23 AM
   WBC
   5.6
   Hct
   27.4
   Plt
   240
   Cr
   5.3
   5.1
   4.9
   4.5
   TCO2
   28
   26
   30
   31
   31
   31
   Glucose
   99
   135
   146
   159
   179
   190
   175
   Other labs: PT / PTT / INR:13.9/29.1/1.2, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:[**11-19**], Alk Phos / T Bili:105/0.5,
   Differential-Neuts:72.1 %, Lymph:18.3 %, Mono:8.0 %, Eos:1.4 %, Lactic
   Acid:0.8 mmol/L, LDH:167 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61 yo man s/p PEA arrest, s/p cooling.
   1. PEA arrest- Chest CT neg for air embolus.  Will D/C arctic sun -->
   now rewarmed.  Will ask neurology to re-eval - is following some
   commands.  Will touch base with neuro as to most appropraite imaging
   modality at this time.
   2. Respiratory Failure: Has fair amount of secretions but FIO2 steady,
   no clear evidence of new infiltrate.  Will hold off on further
   antibiotics - on CTX for UTI
   3. Renal Failure: Remains on CVVH
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-11-15**] 11:45 AM
   Arterial Line - [**2107-11-15**] 12:00 PM
   Multi Lumen - [**2107-11-15**] 01:12 PM
   Dialysis Catheter - [**2107-11-15**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-11-18 10:43:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2107-11-17**] 02:00 PM
   Hypoxemia, bronch, following some commands
   Patient unable to provide history: Sedated
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-11-17**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-11-18**] 09:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-18**] 08:00 AM
   Other medications:
   SQH, pred 5, propofol, H2B, ceftriaxone, MMF, tears
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-18**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 74 (66 - 84) bpm
   BP: 124/67(87) {109/54(73) - 175/90(115)} mmHg
   RR: 23 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.4 kg (admission): 110 kg
             Total In:
                                                                  8,378 mL
                                                                  3,544 mL
   PO:
             TF:
                                                                     18 mL
                                                                    233 mL
   IVF:
                                                                  8,300 mL
                                                                  3,310 mL
   Blood products:
   Total out:
                                                                  9,719 mL
                                                                  7,064 mL
   Urine:
                                                                    421 mL
                                                                    228 mL
   NG:
                                                                    500 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,341 mL
                                                                 -3,520 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 39 cmH2O
   Plateau: 29 cmH2O
   Compliance: 19 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/48/152/25/0
   Ve: 7.6 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, EEG leads
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   238 K/uL
   147 mg/dL
   3.2 mg/dL
   25 mEq/L
   4.2 mEq/L
   31 mg/dL
   103 mEq/L
   140 mEq/L
   27.9 %
   7.1 K/uL
        [image002.jpg]
                            [**2107-11-17**]  10:41 AM
                            [**2107-11-17**]  12:08 PM
                            [**2107-11-17**]  01:21 PM
                            [**2107-11-17**]  04:00 PM
                            [**2107-11-17**]  04:42 PM
                            [**2107-11-17**]  10:00 PM
                            [**2107-11-17**]  10:01 PM
                            [**2107-11-18**]  03:09 AM
                            [**2107-11-18**]  03:14 AM
                            [**2107-11-18**]  10:03 AM
   WBC
   7.1
   Hct
   27.9
   Plt
   238
   Cr
   3.2
   TCO2
   30
   30
   30
   28
   30
   29
   27
   Glucose
   182
   156
   138
   162
   151
   147
   Other labs: PT / PTT / INR:13.0/29.7/1.1, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:[**11-19**], Alk Phos / T Bili:105/0.5,
   Differential-Neuts:72.1 %, Lymph:18.3 %, Mono:8.0 %, Eos:1.4 %, Lactic
   Acid:0.9 mmol/L, LDH:167 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Microbiology: UCx: Pseudomonas
   Assessment and Plan
   61-year-old man with hx of renal transplant and ARF and CRF now
          s/p asystolic/PEA arrest
          Respiratory failure
          ARF on CVVHD
   We will await CT-h formal results and neurology recommendations, as
   well as EEG interpretation.  Examine off propofol today.
   For respiratory failure, continue CVVHD to keep slightly negative.  His
   vent pressures are higher then expected
 may be related to
   drive/dysynchroncy, tube malposition, etc.  Peak-plateau difference
   relatively high.  Trial of bronchodilators with measurements of
   resistance.
   For ARF, continue CVVHD with goal even to slightly negative.
   For anemia, follow for now.
   ID:  Not completely clear if there is infection.  Currently on Zosyn.
   For Pseudomonal culture in urine, discuss with transplant renal.  Zosyn
   adequate for now.  Although sinusitis is possible, as is pneumonia, we
   will hold off on treatment for now since culture negative and does not
   seem systemically infected at present.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-11-17**] 10:15 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   Multi Lumen - [**2107-11-15**] 01:12 PM
   Dialysis Catheter - [**2107-11-15**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : 35 minutes
   Total time spent:

2107-11-19 08:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Nursing witnessed: 7:15am when propofol off, nurse noted R facial
   twitching and stiffening of body. Off sedation, pt noted to wiggle
   toes, open eyes, to command.
   - 8am Neuro resident noticed R facial twitching and L arm clonic
   movements, off propofol. Not typical movements for sz, and on EEG did
   not look like sz.
   - EEG without sz's, just epileptiform sharp features.
   - Neuro: [**Doctor Last Name 2576**] [**2083**] Jama article: if no spont eye movement today, has
   20% chance recovery with mod to severe disability. If does have spont
   eye movement, today has 75% chance recovery with mod disability.
   - Recs: Continue propofol for sedation bc has antiepileptic activities.
   If wean sedation, needs Keppra prophy. Will continue EEG. If sz
   activity push the button and record activity.
   - 4pm labs:
   - 7.29/53/152 on AC 400x22 40% PEEP 8 --> change to 400x24, 40%, PEEP 5
   with repeat ABG: 7.29/51/134/26 --> increased rr to 26
   - Neb trial didn't make much change in airway resistance
   - CXR [**11-18**]: chronic mild cardiac decompensations with LLL atelectasis.
   "Varying degrees of cardiac decompensation" over past several days (see
   CXR report)
   - f/[**Location 10843**] head --> no acute intracranial process
   - art line may need to be replaced soon
   - BCx with GPR's --> spoke with ID, watch identification of it, if
   corynebacterium not as worrisome but if clostridium needs to address
   - UCx Pseudomonas came back pan sensitive
   - 8pm I did off propofol neuro exam: Eyes open and upward deviated with
   R exotropia. Lips and periorbital muscles twitching L>R. Forward
   flexing at hip clonically. Bilateral arms outstretched but not rigid.
   No purposeful movements, not following commands at all. Unresponsive to
   voice or tactile stimulation. Pupils 3mm bilaterally with L slight
   constriction to light, none on R. Lots of drooling and trying to spit
   out oral airway, indicating intact gag reflex. Has corneal reflex.
   Couldn't elicit bilateral brachial, brachioradialis, patellar, or
   Achilles reflexes. Couldn't elicit Babinski's. Did withdraw to pain on
   R foot nailbed crushing, all other extrems none. During this, RT
   reported about 1 min of apnea.
   - Later in the evening talked to family
   - Unclear why Cefepime was started, will need clarification in the am.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-11-17**] 08:00 PM
   Cefipime - [**2107-11-18**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-11-19**] 02:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-18**] 08:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-19**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (98.9
   HR: 91 (74 - 95) bpm
   BP: 101/52(66) {93/46(62) - 190/88(115)} mmHg
   RR: 26 (8 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.7 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  8,592 mL
                                                                  2,356 mL
   PO:
             TF:
                                                                    784 mL
                                                                    319 mL
   IVF:
                                                                  7,809 mL
                                                                  2,037 mL
   Blood products:
   Total out:
                                                                 13,948 mL
                                                                  2,603 mL
   Urine:
                                                                    499 mL
                                                                    141 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,356 mL
                                                                   -247 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.37/45/140/25/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Essentially unchanged from previous physical exams. Unresponsive to
   verbal and tactile stimuli but some withdrawal to pain. Abdomen seems a
   little more tight but not tender to palpation and not grossly
   distended.
   Labs / Radiology
   260 K/uL
   8.4 g/dL
   135 mg/dL
   2.6 mg/dL
   25 mEq/L
   4.3 mEq/L
   23 mg/dL
   105 mEq/L
   139 mEq/L
   27.4 %
   7.6 K/uL
        [image002.jpg]
                            [**2107-11-18**]  03:09 AM
                            [**2107-11-18**]  03:14 AM
                            [**2107-11-18**]  10:00 AM
                            [**2107-11-18**]  10:03 AM
                            [**2107-11-18**]  04:00 PM
                            [**2107-11-18**]  04:28 PM
                            [**2107-11-18**]  06:05 PM
                            [**2107-11-18**]  09:59 PM
                            [**2107-11-19**]  02:37 AM
                            [**2107-11-19**]  02:51 AM
   WBC
   7.1
   7.6
   Hct
   27.9
   27.4
   Plt
   238
   260
   Cr
   3.2
   2.9
   2.7
   2.6
   TCO2
   29
   27
   27
   26
   26
   27
   Glucose
   147
   185
   184
   156
   135
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:[**11-19**], Alk Phos / T Bili:105/0.5,
   Differential-Neuts:72.1 %, Lymph:18.3 %, Mono:8.0 %, Eos:1.4 %, Lactic
   Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:9.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.8
   mg/dL
   Imaging: CXR this am
   [**11-18**] CXR
   IMPRESSION: AP chest compared to [**11-15**] through 12:
   Moderate to severe cardiomegaly is chronic. Pulmonary vascular
   congestion and hilar enlargement developed acutely on [**11-15**] along
   with transient pleural effusions, documented by CT scanning. On
   [**11-17**], pulmonary vascular congestion had returned along with
   new consolidation at the base of the left lung. Small right pleural
   effusion has enlarged subsequently but the other findings are stable
   consistent with varying degrees of cardiac decompensation, not
   appreciably changed over 24 hours. ET tube is in standard placement and
   nasogastric tube passes below the diaphragm and out of view.  Left
   jugular line ends at the junction of the brachiocephalic veins, and a
   dual-channel right supraclavicular central venous line ends in the mid
   and low right atrium. No pneumothorax. Pneumonia cannot be excluded but
   the simplest explanation is chronic mild cardiac decompensation and
   left lower lobe atelectasis.
   Microbiology: [**11-17**] Resp viral Cx pending, screen insufficient
   [**11-17**] mini BAL negative
   [**11-16**] BCx negative
   [**11-15**] BCx with GPR's
   [**11-15**] Resp screen and Cx negative
   [**11-14**] UCx with Pseudomonas pan-sensitive
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest and comatose
   # s/p PEA arrest.  Likely etiology is hypoxia given difficulties with
   keeping mask on, poor O2 sat pleth prior to event, and probably hypoxic
   in setting of getting meds for procedure.  Also could be acidosis
   related (has acute on chronic respiratory acidosis).  Also considered
   PE and air embolus, although neither revealed in evaluation
 CT chest
   and head without air embolism. Had worsening respiratory status several
   days ago after being moved to the R but improved this am.
   - Arctic sun is now off after 24hrs of being on
   - Will need to have a meeting with neuro to come to consensus about
   pt
s prognosis so that we can present this information to family and
   have them decide what their goals of care are.
   - Will not actively start to wean sedation or ventilation until greater
   overall goals of care are determined
   - If family decides for CMO will withdraw care
   - If family decides otherwise, will have to start to think about trach
   tube, PEG tube, and placement.
   - Could consider MRI to help guide prognostics, would f/u this with
   Neuro though
   # Respiratory failure.  Intubated in setting of arrest with ?hypoxia
   beforehand.  Seemingly hypoventilation related hypoxia as above.
   Oxygenated well on code ABG.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s gathered.
   - Get CXR this am
   - Mechanical vent with AC settings for now. Has elevated airway
   pressures and airway resistance did not resolve with neb trail
   - As above for overall goals of care
   # ?Seizure activity vs. myoclonus. On propofol and occasionally looks
   much worse off sedation but per others reports, occasionally looks OK,
   following commands and tracking. I have not seen this to be the case at
   all.
   - As above re: goals of care
   - Currently on Fentanyl and Propofol Neuro recs yesterday to keep on
   Propofol and notify them if we are going to wean, and may need to be
   covered with Keppra if so.
   - Continue EEG monitoring and touch base with Neuro today
 did have
   some epileptiform activity on EEG 2d ago, but not outright seizures
   - Neuro also recs: don't treat posturing with benzos, if concern for
   prolonged seizure, Tx with 2-4mg IV ativan and let Neuro know.
   # New BCx with Gram Positive Rods: Unclear which bacteria this could
   be, not a common infection to have blood [**Location (un) **]. Will await speciation
   and sensitivity to decide if we have to treat or call this a
   contaminant.
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies
   - Was being treated with Ceftriaxone, but then yesterday started on
   Zosyn, now switched to Cefipime. Continue as is.
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far.  CMV negative.
   - Currently getting CVVH
   - BK virus is negative
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   # Fluid filled sinus on CT: Started on Zosyn for this, but likely this
   is result of intubation and chronic, not really an acute infection. We
   will not treat for this, but rather for UCx with Pseudomonas
   # DM type II. Has had persistently low blood sugars through admission
   yesterday. Possibly due to cooling effect and effects on
   metabolism/gluconeogenesis? Glargine was d/c
d and pt covered only with
   SSI and given some D10, with q1hr fingersticks.
   - BS
s in 100
s, will continue to cover with SSI only
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   FEN: No IVF, replete electrolytes, started TF
s last night
   Prophylaxis: Subcutaneous heparin, PPI
   Access: peripherals, L IJ TLC, R IJ HD line
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**]
   [**Name2 (NI) **]osition: pending clinical improvement
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-11-19**] 04:41 AM 40.[**Telephone/Fax (5) 10841**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   Multi Lumen - [**2107-11-15**] 01:12 PM
   Dialysis Catheter - [**2107-11-15**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Overnight notable for repeat exam off of propofol with hip and arm
   flexion, perioral twitching, also episode of apnea.  High PIPs
   possibly in setting of agitation
 now improved.  CT head repeated, and
   was unchanged.
   VS notable for Tm 100.  Remains on vent, AC 400 x 26 / 5/ 40%.
   Exam notable for withdrawal to pain b/l, eyes deviated L and up.
   Pupils ~2mm reactive L> ?R.
   Labs notable for Cr of 2.6.  Blood cx with GPC in 1 bottle.
   Meds include propofol, prednisone 5, mycophenylate, cefepime.
   Likely anoxic encephalopathy; minimal, if any progress neurologically.
   Will need to discuss c neurology whether further testing (eg MRI) would
   be helpful for further diagnosis or prognosis, and plan to discuss with
   the family.  In the meantime he will continue on full vent support,
   cefepime for UTI, CVVH.
   Pt is critically ill.  CC time 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2107-11-19**] 01:26 PM ------

2107-11-20 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p PEA arrest
   24 Hour Events:
   - Blood culture with gram (-) rods
   -Inability to wean sedation d/t seizure-like activity and agitation
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-11-17**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-11-19**] 02:00 AM
   Cefipime - [**2107-11-19**] 03:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-19**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-19**] 08:00 PM
   Propofol - [**2107-11-20**] 04:42 AM
   Fentanyl - [**2107-11-20**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2107-11-20**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 73 (67 - 101) bpm
   BP: 164/63(93) {100/50(68) - 196/83(119)} mmHg
   RR: 26 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  8,356 mL
                                                                  2,832 mL
   PO:
             TF:
                                                                    966 mL
                                                                    305 mL
   IVF:
                                                                  7,359 mL
                                                                  2,528 mL
   Blood products:
   Total out:
                                                                 10,861 mL
                                                                  3,358 mL
   Urine:
                                                                    496 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,505 mL
                                                                   -526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 200
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.33/49/129/25/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Increased
   Labs / Radiology
   260 K/uL
   7.8 g/dL
   166 mg/dL
   2.2 mg/dL
   25 mEq/L
   4.1 mEq/L
   21 mg/dL
   105 mEq/L
   140 mEq/L
   26.0 %
   7.5 K/uL
        [image002.jpg]
                            [**2107-11-18**]  09:59 PM
                            [**2107-11-19**]  02:37 AM
                            [**2107-11-19**]  02:51 AM
                            [**2107-11-19**]  09:34 AM
                            [**2107-11-19**]  04:56 PM
                            [**2107-11-19**]  05:02 PM
                            [**2107-11-19**]  09:46 PM
                            [**2107-11-19**]  10:32 PM
                            [**2107-11-20**]  04:01 AM
                            [**2107-11-20**]  04:22 AM
   WBC
   7.6
   7.5
   Hct
   27.4
   26.0
   Plt
   260
   260
   Cr
   2.6
   2.3
   2.3
   2.2
   TCO2
   26
   27
   26
   26
   27
   27
   Glucose
   156
   135
   179
   139
   158
   166
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:22/32, Alk Phos / T Bili:128/0.4,
   Differential-Neuts:72.1 %, Lymph:18.3 %, Mono:8.0 %, Eos:1.4 %, Lactic
   Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest and comatose
   # s/p PEA arrest.  Likely etiology is hypoxia given difficulties with
   keeping mask on, poor O2 sat pleth prior to event, and probably hypoxic
   in setting of getting meds for procedure.  Also could be acidosis
   related (has acute on chronic respiratory acidosis).  Also considered
   PE and air embolus, although neither revealed in evaluation of CT chest
   and head without air embolism. Had worsening respiratory status several
   days ago after being moved to the R but improved this am.
   - Will need to have a meeting with neuro to come to consensus about
   pt
s prognosis so that we can present this information to family and
   have them decide what their goals of care are.  Family meeting with
   Neuro at 1pm on Monday.
   - Will not actively start to wean sedation or ventilation until greater
   overall goals of care are determined; patient very agitated with
   attempts to wean
   - If family decides for CMO will withdraw care
   - If family decides otherwise, will have to start to think about trach
   tube, PEG tube, and placement.
   - Could consider MRI to help guide prognostics, would f/u this with
   Neuro though
   .
   # Respiratory failure.  Intubated in setting of arrest with ?hypoxia
   beforehand.  Seemingly hypoventilation related hypoxia as above.
   Oxygenated well on code ABG.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s gathered.
   - Get CXR this am
   - Mechanical vent with AC settings for now. Has elevated airway
   pressures and airway resistance did not resolve with neb trail
   - As above for overall goals of care
   .
   # ?Seizure activity vs. myoclonus. On propofol and occasionally looks
   much worse off sedation (seizure-like activity and agitation)
   - As above re: goals of care
   - Currently on Fentanyl and Propofol Neuro recs yesterday to keep on
   Propofol and notify them if we are going to wean, and may need to be
   covered with Keppra if so.
   - Continue EEG monitoring and touch base with Neuro today
 did have
   some epileptiform activity on EEG 2d ago, but not outright seizures
   - Neuro also recs: don't treat posturing with benzos, if concern for
   prolonged seizure, Tx with 2-4mg IV ativan and let Neuro know.
   # New BCx with Gram Positive Rods: Unclear which bacteria this could
   be, not a common infection to have blood [**Location (un) **]. Will await speciation
   and sensitivity to decide if we have to treat or call this a
   contaminant.
   .
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies
   - Was being treated with Ceftriaxone, but then yesterday started on
   Zosyn, now switched to Cefipime. Continue as is.
   .
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far.  CMV negative.
   - Currently getting CVVH
   - BK virus is negative
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   .
   # Fluid filled sinus on CT: Started on Zosyn for this, but likely this
   is result of intubation and chronic, not really an acute infection. We
   will not treat for this, but rather for UCx with Pseudomonas
   .
   # DM type II. Has had persistently low blood sugars through admission
   yesterday. Possibly due to cooling effect and effects on
   metabolism/gluconeogenesis? Glargine was d/c
d and pt covered only with
   SSI and given some D10, with q1hr fingersticks.
   - BS
s in 100
s, will continue to cover with SSI only
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   .
   FEN: No IVF, replete electrolytes, started TF
s last night
   Prophylaxis: Subcutaneous heparin, PPI
   Access: peripherals, L IJ TLC, R IJ HD line
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**]
   [**Name2 (NI) **]osition: pending clinical improvement

2107-11-21 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status s/p PEA arrest
   24 Hour Events:
 ULTRASOUND - At [**2107-11-20**] 10:00 AM of RUE
   - Inability to wean sedation d/t agitation vs posturing vs seizure-like
   activity
   - One episode of vomiting- BP meds given IV
   - Neuro to comment on EEG, meds, imaging, etc.  Prelim read on EEG was
   encephalopathy only.
   - Needed OG tube replaced because chewed through old one.
   - Wife will return at 11am tomorrow and would really like fam meeting
   at this time d.t work schedule.  Should make effort to honor this.
   - High BP- given labetolol IV b/c not tolerating PO
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-11-19**] 02:00 AM
   Cefipime - [**2107-11-20**] 02:17 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-20**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-20**] 08:00 PM
   Labetalol - [**2107-11-21**] 03:22 AM
   Propofol - [**2107-11-21**] 06:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-21**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 85 (65 - 85) bpm
   BP: 152/69(95) {93/41(58) - 195/88(119)} mmHg
   RR: 23 (22 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.1 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  7,622 mL
                                                                  2,405 mL
   PO:
             TF:
                                                                    453 mL
   IVF:
                                                                  7,108 mL
                                                                  2,405 mL
   Blood products:
   Total out:
                                                                 12,819 mL
                                                                  4,109 mL
   Urine:
                                                                    525 mL
                                                                    105 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,197 mL
                                                                 -1,704 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 88 (88 - 88) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.34/45/158/23/-1
   Ve: 10.2 L/min
   PaO2 / FiO2: 395
   Physical Examination
   Essentially unchanged from previous physical exams. Unresponsive to
   verbal and tactile stimuli but some withdrawal to pain. Abdomen seems a
   little more tight but not tender to palpation and not grossly
   distended.
   Labs / Radiology
   310 K/uL
   8.8 g/dL
   134 mg/dL
   2.2 mg/dL
   23 mEq/L
   3.9 mEq/L
   20 mg/dL
   105 mEq/L
   140 mEq/L
   27.9 %
   9.2 K/uL
        [image002.jpg]
                            [**2107-11-19**]  10:32 PM
                            [**2107-11-20**]  04:01 AM
                            [**2107-11-20**]  04:22 AM
                            [**2107-11-20**]  02:00 PM
                            [**2107-11-20**]  02:11 PM
                            [**2107-11-20**]  05:43 PM
                            [**2107-11-20**]  09:00 PM
                            [**2107-11-20**]  09:16 PM
                            [**2107-11-21**]  03:26 AM
                            [**2107-11-21**]  03:43 AM
   WBC
   7.5
   9.2
   Hct
   26.0
   27.9
   Plt
   260
   310
   Cr
   2.2
   2.2
   2.1
   2.2
   TCO2
   27
   27
   27
   28
   26
   25
   Glucose
   166
   142
   133
   134
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:22/32, Alk Phos / T Bili:128/0.4,
   Differential-Neuts:72.1 %, Lymph:18.3 %, Mono:8.0 %, Eos:1.4 %, Lactic
   Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:10.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Imaging: UE DVT: Although subclavian vein not evaluated, remainder of
   right upper  extremity venous system appears normal with no evidence of
   DVT, and DVT would
   be likely in the subclavian vein given respiratory variation and normal
   appearance of remainder of the study.
   [**11-20**] CXR: stable retrocardiac opacity.
   [**11-21**] CXR: ETT too low?
   Microbiology: [**11-15**] GPRs not speciated
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest and comatose
   # s/p PEA arrest.  Likely etiology is hypoxia given difficulties with
   keeping mask on, poor O2 sat pleth prior to event, and probably hypoxic
   in setting of getting meds for procedure.  Also could be acidosis
   related (has acute on chronic respiratory acidosis).  Also considered
   PE and air embolus, although neither revealed in evaluation of CT chest
   and head without air embolism. Had worsening respiratory status several
   days ago after being moved to the R but improved this am.
   - Will need to have a meeting with neuro to come to consensus about
   pt
s prognosis so that we can present this information to family and
   have them decide what their goals of care are.  Family meeting with
   Neuro at 1pm on Monday.
   - Will not actively start to wean sedation or ventilation until greater
   overall goals of care are determined; patient very agitated with
   attempts to wean
   - If family decides for CMO will withdraw care
   - If family decides otherwise, will have to start to think about trach
   tube, PEG tube, and placement.
   - Could consider MRI to help guide prognostics, would f/u this with
   Neuro though
   .
   # Respiratory failure.  Intubated in setting of arrest with ?hypoxia
   beforehand.  Seemingly hypoventilation related hypoxia as above.
   Oxygenated well on code ABG.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s gathered.
   - Get CXR this am
   - Mechanical vent with AC settings for now. Has elevated airway
   pressures and airway resistance did not resolve with neb trail
   - As above for overall goals of care
   .
   # ?Seizure activity vs. myoclonus. On propofol and occasionally looks
   much worse off sedation (seizure-like activity and agitation)
   - As above re: goals of care
   - Continue EEG monitoring and touch base with Neuro today. did have
   some epileptiform activity on EEG earlier, but not outright seizures
   - Neuro also recs: don't treat posturing with benzos, if concern for
   prolonged seizure, Tx with 2-4mg IV ativan and let Neuro know.
   -Need to have them leave a note today about: whether he is seizing, med
   recs, and imaging recs.
   # New BCx with Gram Positive Rods: Unclear which bacteria this could
   be, not a common infection to have blood [**Location (un) **]. Will await speciation
   and sensitivity to decide if we have to treat or call this a
   contaminant.
   .
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies
   - Was being treated with Ceftriaxone, but then yesterday started on
   Zosyn, now switched to Cefipime. Continue as is.
   .
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far.  CMV negative.
   - Currently getting CVVH
   - BK virus is negative
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   .
   #RUE swelling: possible DVT
   -U/S to r/o DVT
   .
   #Constipation and distention:
   - suppository and possible enema if not having bowel movement
   .
   # DM type II. Has had persistently low blood sugars through admission
   yesterday. Possibly due to cooling effect and effects on
   metabolism/gluconeogenesis? Glargine was d/c
d and pt covered only with
   SSI and given some D10, with q1hr fingersticks.
   - BS
s in 100
s, will continue to cover with SSI only
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   .
   FEN: No IVF, replete electrolytes, started TF
s last night
   Prophylaxis: Subcutaneous heparin, PPI
   Access: peripherals, L IJ TLC, R IJ HD line
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**]
   [**Name2 (NI) **]osition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   Multi Lumen - [**2107-11-15**] 01:12 PM
   Dialysis Catheter - [**2107-11-15**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-11-21 14:30:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: s/p cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2107-11-20**] 10:00 AM
   of RUE
   Follows commands (hand squeeze, toe move) off of sedation.
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-11-19**] 02:00 AM
   Cefipime - [**2107-11-20**] 02:17 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 40 mcg/Kg/[**Year (4 digits) **]
   Other ICU medications:
   Labetalol - [**2107-11-21**] 03:22 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-21**] 09:00 AM
   Propofol - [**2107-11-21**] 09:15 AM
   Famotidine (Pepcid) - [**2107-11-21**] 10:00 AM
   Other medications:
   reviewed from [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-21**] 02:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 89 (66 - 92) bpm
   BP: 115/54(71) {100/46(60) - 183/88(119)} mmHg
   RR: 26 (18 - 28) insp/[**Year (4 digits) **]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.1 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  7,622 mL
                                                                  3,862 mL
   PO:
             TF:
                                                                    453 mL
   IVF:
                                                                  7,108 mL
                                                                  3,802 mL
   Blood products:
   Total out:
                                                                 12,819 mL
                                                                  6,202 mL
   Urine:
                                                                    525 mL
                                                                    147 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -5,197 mL
                                                                 -2,340 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 88 (88 - 88) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.32/44/159/23/-3
   Ve: 10.9 L/[**Year (4 digits) **]
   PaO2 / FiO2: 398
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal, Clearly follows spoken requests to
   squeeze hand, move toes. Probably orients toward voice. Doesn't track.
   Labs / Radiology
   8.8 g/dL
   310 K/uL
   136 mg/dL
   2.2 mg/dL
   23 mEq/L
   3.9 mEq/L
   19 mg/dL
   105 mEq/L
   141 mEq/L
   27.9 %
   9.2 K/uL
         [image002.jpg]
                            [**2107-11-20**]  04:22 AM
                            [**2107-11-20**]  02:00 PM
                            [**2107-11-20**]  02:11 PM
                            [**2107-11-20**]  05:43 PM
                            [**2107-11-20**]  09:00 PM
                            [**2107-11-20**]  09:16 PM
                            [**2107-11-21**]  03:26 AM
                            [**2107-11-21**]  03:43 AM
                            [**2107-11-21**]  09:30 AM
                            [**2107-11-21**]  09:44 AM
   WBC
   9.2
   Hct
   27.9
   Plt
   310
   Cr
   2.2
   2.1
   2.2
   2.2
   TCO2
   27
   27
   28
   26
   25
   24
   Glucose
   142
   133
   134
   136
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:22/32, Alk Phos / T Bili:128/0.4,
   Differential-Neuts:72.1 %, Lymph:18.3 %, Mono:8.0 %, Eos:1.4 %, Lactic
   Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:10.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   61-year-old man with a history of renal transplant, admitted with ARF,
   now with
          s/p cardiac arrest (asystole/PEA, during HD line placement
   in IR, CPR x 13 [**Year (4 digits) **], s/p hypothermia protocol)
          respiratory failure
          ARF on [**Name8 (MD) 2118**]
 RRT
          Encephalopathy
          [**Name2 (NI) 10864**]l UTI (pan-sensitive)
          Blood culture with GPR
   His neurologic exam has substantively improved, and he now reproducibly
   follows commands though does not seem fully alert.  We will discuss
   with neurology, pursue MRI if helpful, and discuss with family.  The
   improvement in exam suggests substantial uncertainty and that
   meaningful recovery is not excluded.
   Since we will likely pursue MRI, will leave intubated for now.  He has
   had multiple challenges relating to sedation/hypoxemia, so will be
   relatively conservative in pursuing extubation trials.
   Agree with renal that converting from continuous to intermittent
   dialysis seems appropriate.
   Watch blood cultures.  Suspect contaminant (e.g. corynebacterium), but
   reculture and consider rx if spikes.
   ICU Care
   Nutrition: begin TF
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   Multi Lumen - [**2107-11-15**] 01:12 PM
   Dialysis Catheter - [**2107-11-15**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:  35 [**Year (4 digits) **]
   Addendum: Family meeting
   Along with patient
s nurse, I met with Mr. [**Known lastname 10044**]
s wife and
   children.  Current status, including his improvement in exam, reviewed,
   as well as the fact that substantial uncertainty exists about prognosis
 ranging from significant chronic brain damage to meaningful
   recovery.  All questions answered.  They are particularly interested in
   clearly understanding the events that led up to his cardiac arrest.
   Because of work issues, though, several of them had to leave to go to
   work and could not stay until IR and renal attendings were available.
   We will therefore reschedule for 4pm tomorrow to review events leading
   up to arrest.  In addition, we have consulted SW to assist with coping,
   disability insurance forms, visas for out-of-country relatives, etc.
   45 [**Name2 (NI) **]

2107-11-22 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status s/p PEA arrest
   24 Hour Events:
 PAN CULTURE - At [**2107-11-21**] 04:30 PM bcx2-R IJ and L IJ, urine,
   sputum
 MAGNETIC RESONANCE IMAGING - At [**2107-11-21**] 08:30 PM
 FEVER - 101.1
F - [**2107-11-21**] 04:00 PM
   - To MRI head without gadolinium --> went to MRI but apparently not
   great quality as he was moving around --> should try to get wet read
   tomorrow in before fam mtg at 4pm
   - Called lab to speciate GPR's in blood
   - UCx with Pseudomonas is pan sensitive, continues on Cefepime
   - Had family meeting with Dr. [**Last Name (STitle) 832**] and Dr. [**Last Name (STitle) 699**] --> another
   planned for 4pm tomorrow, have notified IR (Dr. [**First Name (STitle) 10870**] and Neuro (Dr.
   [**Last Name (STitle) 3849**].
   - Off CVVH --> to get HD tomorrow
   - Called radiology re: DVT in subclavian seen on u/s is UNLIKELY, not
   likely
   - 430pm called to assess hypoTN in the 80-90's. Some discrepancy
   between a-line and cuff, but overall is hypotense. Also febrile to
   101.1, so got sputum, blood x2, and UCx and given 250cc bolus x2. F/u
   BP's in the night --> back to normal, even back to hypertense
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-20**] 02:17 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-21**] 10:00 AM
   Propofol - [**2107-11-21**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2107-11-21**] 10:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-22**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.1
C (100.5
   HR: 92 (72 - 113) bpm
   BP: 114/48(66) {80/46(57) - 177/87(118)} mmHg
   RR: 24 (18 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,676 mL
                                                                    170 mL
   PO:
             TF:
   IVF:
                                                                  4,616 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  6,567 mL
                                                                    150 mL
   Urine:
                                                                    212 mL
                                                                     50 mL
   NG:
                                                                    300 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,891 mL
                                                                 [**Location 6217**]17 L
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: 7.31/41/131/22/-5
   Ve: 5.8 L/min
   PaO2 / FiO2: 262
   Physical Examination
   Off of yesterday the patient was able to follow some basic commands
   like squeezing hands, moving both feet.  He would not open and close
   his eyes but did appear to be tracking.   This morning he is writhing
   in bed, moving all extremities spontaneously.  On lung exam he has
   coarse central breathing sounds.  Heart slightly tachy but regular w/
   IV/VI systolic murmur.  Abdomen soft, NTND.  RUE swelling is stable, LE
   with wrinkled skin but improved edema.
   Labs / Radiology
   273 K/uL
   7.8 g/dL
   117 mg/dL
   4.1 mg/dL
   22 mEq/L
   4.0 mEq/L
   33 mg/dL
   108 mEq/L
   142 mEq/L
   25.5 %
   10.6 K/uL
        [image002.jpg]
                            [**2107-11-21**]  03:26 AM
                            [**2107-11-21**]  03:43 AM
                            [**2107-11-21**]  09:30 AM
                            [**2107-11-21**]  09:44 AM
                            [**2107-11-21**]  04:00 PM
                            [**2107-11-21**]  04:21 PM
                            [**2107-11-22**]  12:18 AM
                            [**2107-11-22**]  01:47 AM
                            [**2107-11-22**]  01:51 AM
                            [**2107-11-22**]  02:33 AM
   WBC
   9.2
   10.6
   Hct
   27.9
   25.5
   Plt
   310
   273
   Cr
   2.2
   2.2
   4.1
   TCO2
   25
   24
   22
   23
   24
   22
   Glucose
   134
   136
   131
   127
   117
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:22/32, Alk Phos / T Bili:128/0.4,
   Differential-Neuts:72.1 %, Lymph:18.3 %, Mono:8.0 %, Eos:1.4 %, Lactic
   Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:10.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.9
   mg/dL
   Imaging: [**11-21**] CXR no change
   [**11-22**] CXR ? improved
   Microbiology: Sputum stain: GPC's and GNR's, cx pending
   Blood cx: pending
   Urine cx: pending
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest and comatose
   # Altered mental status s/p PEA arrest:  Patient has dramatically
   worsened mental status after a PEA arrest [**11-15**].  However, his
   neurologic status seems to be significantly improved today, making
   meaningful recovery far more likely.  He had a negative n/c head CT but
   has not had an MRI.  His EEG reads have not shown clear seizure
   activity.
   - We need to have a family meeting to discuss prognosis with
   neurology.  That could not be done today at 1pm because no one was
   available from the neurology team.  We are re-scheduling for 4pm
   tomorrow.
   - Will not actively start to wean sedation or ventilation until greater
   overall goals of care are determined; he has been very agitated with
   attempts to wean
   - will get an MRI head w/o contrast today to assess for ischemic
   damage.
   .
   # Hypotension: etiology likely hypovolemic (17 liters negative length
   of stay, which may be too much) vs infectious (new fever to 101.1).  On
   Cefepime for pseudomonas UTI.  No infectious source on CXR, and he does
   have multiple lines.  It is especially worrisome that he is drooling
   Urinary source seems less likely.
   .
   # Respiratory failure.  Intubated in setting of arrest with possible
   hypoxia beforehand.  .  Some question of PNA on CT chest and has had
   CXR's with LLL atelectasis vs infiltrate, unclear whether he truly has
   PNA or not.  Had bronch that was unrevealing, Cx
s gathered.
   - Continue assist control ventilation for now. Has elevated airway
   pressures and airway resistance did not resolve with neb trail
   - Will not wean aggressively until we know goals of care, which should
   hopefully happen tomorrow.
   .
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far.  He has had adequate volume removed with CVVH and can
   now be transitioned to intermittent dialysis.
   - First dialysis session planned for tomorrow.
   - BK virus and CMV negative
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   .
   # ?Seizure activity vs. myoclonus. EEG monitoring device still in
   place.  There are several days of reads pending.
   - f/u EEG results
   - Plan is to not treat posturing with benzos, but if concerned for
   prolonged seizure, Tx with 2-4mg IV ativan and let Neuro know.
   .
   # New BCx with Gram Positive Rods: Unclear which bacteria this could
   be, not a common infection to have blood [**Location (un) **]. Will await speciation
   and sensitivity to decide if we have to treat or call this a
   contaminant.
   .
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies.  Sensitive to Zosyn and cefepime.
   - Continue cefepime.  Now day 4 of 7.
   .
   #RUE swelling: Patient has R>L swelling.  U/S could not completely
   visualize subclavian vein, but clot seems unlikely.  Will continue to
   monitor.
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   .
   FEN: No IVF, replete electrolytes, will cautiously restart tube feeds
   given vomiting yesterday.  Has not had elevated residuals.
   Prophylaxis: Subcutaneous heparin, PPI
   Access: peripherals, L IJ TLC, R IJ HD line
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].  [**Name2 (NI) **]y meeting today at
   4pm.
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   Multi Lumen - [**2107-11-15**] 01:12 PM
   Dialysis Catheter - [**2107-11-15**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-11-23 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2107-11-23**] 05:42 AM
 BLOOD CULTURED - At [**2107-11-23**] 05:42 AM
   CVL and Venipuncture
 FEVER - 101.6
F - [**2107-11-23**] 04:00 AM
   - GPR's from [**11-15**] could not be speciated.
   - renal wants to keep their HD line
   - lipase normal
   - ID approved linezolid
   - family encouraged by improving neuro exam, but reluctant to have more
   line placements.  IJ lines left in place.
   - switched to bolus fentanyl per neuro (lowers seizure threshold), but
   patient then very agitated and uncomfortable coughing on ETT, so
   switched back to fentanyl gtt.
   - MRI limited by motion artifact, but no signs of acute ischemia, only
   extensive sinus disease
   - 4pm family meeting went
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-22**] 02:07 PM
   Linezolid - [**2107-11-23**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-22**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-22**] 08:00 PM
   Fentanyl - [**2107-11-22**] 09:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-23**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 85 (85 - 112) bpm
   BP: 132/60(82) {72/43(58) - 178/81(119)} mmHg
   RR: 24 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,747 mL
                                                                    713 mL
   PO:
             TF:
                                                                     95 mL
                                                                     69 mL
   IVF:
                                                                  1,562 mL
                                                                    644 mL
   Blood products:
   Total out:
                                                                    421 mL
                                                                    148 mL
   Urine:
                                                                    321 mL
                                                                    148 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,326 mL
                                                                    566 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.34/36/196/20/-5
   Ve: 9.4 L/min
   PaO2 / FiO2: 392
   Physical Examination
   Patient sedated with propofol and fenatanyl.  Not responsive, pupils
   pinpoint and not responsive.  When patient not sedated, his pupils are
   3mm and responsive to light.  MAE, although not doing so this morning.
   No edema in LE, distal pulses present.  Lungs are clear to auscultation
   and heart rated is normal rate and rhythm with no murmurs.  Abdomen is
   soft and not distended
   Labs / Radiology
   278 K/uL
   7.5 g/dL
   136 mg/dL
   5.6 mg/dL
   20 mEq/L
   4.1 mEq/L
   52 mg/dL
   109 mEq/L
   140 mEq/L
   24.0 %
   9.6 K/uL
        [image002.jpg]
                            [**2107-11-21**]  04:00 PM
                            [**2107-11-21**]  04:21 PM
                            [**2107-11-22**]  12:18 AM
                            [**2107-11-22**]  01:47 AM
                            [**2107-11-22**]  01:51 AM
                            [**2107-11-22**]  02:33 AM
                            [**2107-11-22**]  10:38 AM
                            [**2107-11-22**]  12:53 PM
                            [**2107-11-23**]  12:24 AM
                            [**2107-11-23**]  12:32 AM
   WBC
   10.6
   9.6
   Hct
   25.5
   24.0
   Plt
   273
   278
   Cr
   4.1
   5.6
   TCO2
   22
   23
   24
   22
   21
   23
   20
   Glucose
   131
   127
   117
   136
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/15, Differential-Neuts:62.1 %, Lymph:23.1 %,
   Mono:10.2 %, Eos:4.3 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:10.7
   mg/dL, Mg++:2.4 mg/dL, PO4:6.6 mg/dL
   Imaging:
   [**11-21**] non-contrast MRI
   IMPRESSION:
   1. Severely limited examination demonstrates changes of chronic
   microvascular
   white matter ischemic disease with old left frontal encephalomalacia
   without
   evidence for acute infarct.
   2. Extensive paranasal sinus and mastoid air cell disease.
   [**11-22**] AP chest
   IMPRESSION: AP chest compared to [**11-21**], 6:15 p.m.:
   Elevation of the right lung base probably due to atelectasis. No
   pneumothorax, pleural effusion or mediastinal widening. Heart size is
   normal.
   ET tube, left internal jugular and right internal jugular lines in
   standard
   placements. Nasogastric tube passes into the stomach and out of view.
   Microbiology:
   [**2107-11-21**] 4:48 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2107-11-21**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.  IN PAIRS.
   [**2107-11-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2107-11-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2107-11-23**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2107-11-22**]  Immunology (CMV) CMV Viral Load-PENDING INPATIENT
   [**2107-11-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2107-11-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   URINE CULTURE (Final [**2107-11-18**]):
         PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML..
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                PSEUDOMONAS AERUGINOSA
                                |
   CEFEPIME--------------     2 S
   CEFTAZIDIME-----------     2 S
   CIPROFLOXACIN---------     1 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN----------   <=4 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------   <=1 S
   Assessment and Plan
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest
   # Altered mental status s/p PEA arrest:  Patient
s mental status exam
   is increasingly reassuring that he is likely to have some sort of
   meaningful recovery.  His MRI, though severely limited by motion
   artifact, did not show any signs of acute ischemia.  His EEG reads have
   not shown clear seizure activity.  Family meeting yesterday to discuss
   events surrounding PEA arrest.
   - Very agitated with weaning of sedation.  We will wean periodically to
   assess mental status and ability to wean ventilator, but otherwise
   should keep him comfortable for the rest of today.
   - Neurololgy recommended fentanyl boluses, but patient did not
   tolerated well.  Keep on fenatanyl drip for now.
   - Neurology continues to follow patient with daily exams off propofol.
   Will continue to f/u any recs they have.
   .
   # Hypotension: etiology likely hypovolemic (17 liters negative length
   of stay, which may be too much) vs infectious (new fever to 101.1).  On
   Cefepime for pseudomonas UTI.  No infectious source on CXR, and he does
   have multiple lines which have been continuously contaminated with
   salivations.  It is especially worrisome that he is drooling   Urinary
   source seems less likely. Lipase was negative, so not likely
   pancreatitis.  Did have a positive blood culture for gram positive rods
   on [**11-15**] that was not able to be speciated and is likely contamination.
   - Continue cefepime and broaden with linezolid (vancomycin allergy) for
   GPC from possible line infection.
   - Renal attending notes ok with changing HD line to temp femoral line.
   - Will remove IJ line as well and get peripheral access
   - Differential from yesterday showed eosinophilia, will recheck this
   morning
   - Also, may need to have ART replaced for better monitoring
   .
   # Fever: patient spiking fevers.  Infectious work-up have overall been
   unrevealing.  He had pseudomonas in his urine and GPR in his blood,
   which could have been a contaminant.  His IJ lines look infected with
   frank pus, so are likely the source.  His lipase was WNL, so
   pancreatitis d/t Propofol not likely.  Also consider drug fever if not
   improved with line removal.
   - talk to family about removing and replacing lines
   - if lines will be replaced, can do VIP and PICC so nurses have 2
   ports.
   - consider stopping unnecessary medication.
   .
   # Respiratory failure.  Intubated in setting of arrest with possible
   hypoxia beforehand.  Some question of PNA on CT chest and has had CXR's
   with LLL atelectasis vs infiltrate, unclear whether he truly has PNA or
   not.  Had bronch that was unrevealing, Cx
s gathered.
   - Continue assist control ventilation for now weaning as tolerated.
   .
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far.  He has had adequate volume removed with CVVH and can
   now be transitioned to intermittent dialysis.  No report yet this
   morning regarding whether or not he will be dialyzed.  BK virus and CMV
   negative
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   .
   # ?Seizure activity vs. myoclonus. EEG monitoring device still in
   place.  There are several days of reads pending.  Neuro has said that
   at this point it is likely encephalopathy.
   - f/u EEG results
   - Plan is to not treat posturing with benzos, but if concerned for
   prolonged seizure, Tx with 2-4mg IV ativan and let Neuro know.
   .
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies.  Sensitive to Zosyn and cefepime.
   - Continue cefepime.  Was day 6of 7, but will likely continue further
   b/c of new hypotension and fevers.
   .
   #RUE swelling: Patient has stable R>L swelling.  U/S could not
   completely visualize subclavian vein, but clot seems unlikely.  Will
   continue to monitor.
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   .
   FEN: No IVF, replete electrolytes, tube feeds
   Prophylaxis: Subcutaneous heparin, PPI
   Access: peripherals, L IJ TLC, R IJ HD line -> may need to be replaced
   considering patient drooling.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].  [**Name2 (NI) **]y meeting today at
   4pm.
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-11-22**] 02:30 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   Multi Lumen - [**2107-11-15**] 01:12 PM
   Dialysis Catheter - [**2107-11-15**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-11-23 11:43:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2107-11-23**] 05:42 AM
   CVL and Venipuncture
 URINE CULTURE - At [**2107-11-23**] 05:42 AM
 FEVER - 101.6
F - [**2107-11-23**] 04:00 AM
   Family meeting (see my note).
   Febrile again to 101.6, but now some issues with HYPERtension.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-22**] 02:07 PM
   Linezolid - [**2107-11-23**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2107-11-22**] 09:13 PM
   Heparin Sodium (Prophylaxis) - [**2107-11-23**] 08:05 AM
   Famotidine (Pepcid) - [**2107-11-23**] 08:06 AM
   Other medications:
   SQH, pred, propofol, CHG, H2B, SQI, Cellcept, cefepime, MDIs,
   labetalol, linezolid, sodium bicarb, fentanyl @ 50
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-23**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.3
C (97.4
   HR: 92 (84 - 112) bpm
   BP: 162/67(94) {72/55(68) - 178/94(119)} mmHg
   RR: 25 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,747 mL
                                                                  1,082 mL
   PO:
             TF:
                                                                     95 mL
                                                                    106 mL
   IVF:
                                                                  1,562 mL
                                                                    947 mL
   Blood products:
   Total out:
                                                                    421 mL
                                                                    225 mL
   Urine:
                                                                    321 mL
                                                                    225 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,326 mL
                                                                    857 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.30/38/188/20/-6
   Ve: 9.5 L/min
   PaO2 / FiO2: 376
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, followed commands and tracked, smiled on request, moved all
   four for neurology and nurse [**First Name (Titles) 1645**]
[**Last Name (Titles) 10884**] / Radiology
   7.5 g/dL
   278 K/uL
   130 mg/dL
   5.6 mg/dL
   20 mEq/L
   3.5 mEq/L
   52 mg/dL
   109 mEq/L
   140 mEq/L
   24.0 %
   9.6 K/uL
        [image002.jpg]
                            [**2107-11-21**]  04:21 PM
                            [**2107-11-22**]  12:18 AM
                            [**2107-11-22**]  01:47 AM
                            [**2107-11-22**]  01:51 AM
                            [**2107-11-22**]  02:33 AM
                            [**2107-11-22**]  10:38 AM
                            [**2107-11-22**]  12:53 PM
                            [**2107-11-23**]  12:24 AM
                            [**2107-11-23**]  12:32 AM
                            [**2107-11-23**]  08:14 AM
   WBC
   10.6
   9.6
   Hct
   25.5
   24.0
   Plt
   273
   278
   Cr
   4.1
   5.6
   TCO2
   22
   23
   24
   22
   21
   23
   20
   19
   Glucose
   127
   117
   136
   130
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/15, Differential-Neuts:62.1 %, Lymph:23.1 %,
   Mono:10.2 %, Eos:4.3 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:10.7
   mg/dL, Mg++:2.4 mg/dL, PO4:6.6 mg/dL
   Microbiology: Sputum Cx pending. BCx NGSF
   Assessment and Plan
   61-year-old man s/p cardiac arrest during HD line placement in IR,
   after admission for ARF in setting of renal transplant.  He has shown
   meaningful neurological recovery, with a reassuring (if limited) MRI.
   Main present issues are fever, respiratory failure, and ARF requiring
   renal replacement therapy.
   Most likely source of fever is lines.  See my note from yesterday
   regarding decisionmaking.  I think they need to be removed and resited
   today.  Given prior events, will call Mrs. [**Known lastname 10044**] and review potential
   options.  I favor travel to I.R. and femoral HD with VIP port, plus
   PICC if possible.  Alternative would be fem HD and fem TLC placement in
   ICU, but may be complex given his many prior vascular issues.  He is in
   a safer position now, since he is intubated.
   Otherwise, continue present antibiotics and follow cultures.
   Once lines in place, will try topical anesth for ET tube irritation,
   weaning propofol, and SBT assessment.
   Will probably need dialysis today or tomorrow.
   Other issues as per ICU team note today.
   ICU Care
   Nutrition: consider TF after procedures
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   Multi Lumen - [**2107-11-15**] 01:12 PM
   Dialysis Catheter - [**2107-11-15**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill
   Addendum
   Called patient
s wife and reviewed current status, including options
   regarding lines, and the really compelling evidence that we need to
   resite.  She wished to talk with her children.  Called back later and
   wished to proceed.  We will contact I.R. and proceed with plan for fem
   HD line (pref with VIP port), PICC if possible, and if unable to do
   PICC then additional fem CVL.
   30 min

2107-11-24 08:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2107-11-23**] 12:25 PM
   cdiff
 PICC LINE - START [**2107-11-23**] 06:22 PM
   placed and confirmed in IR by Dr. [**Doctor Last Name 10887**] during
   insertion:thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile
 DIALYSIS CATHETER - STOP [**2107-11-23**] 06:23 PM
 DIALYSIS CATHETER - START [**2107-11-23**] 06:26 PM
   placed in IR by Dr. [**Last Name (STitle) 10886**]
 MULTI LUMEN - STOP [**2107-11-23**] 10:46 PM
 FEVER - 101.1
F - [**2107-11-23**] 04:00 PM
   - Family discussion and decision to change line.
   - IR for VIP and PICC
   - renal: CRRT when returns from IR and [**Doctor Last Name **]+ hydroxide for Phos binding
   - NaHCO3 for acidemia
   - low crit, does he need EPO?
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-23**] 02:16 PM
   Linezolid - [**2107-11-24**] 12:30 AM
   Infusions:
   Propofol - 100 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-23**] 08:06 AM
   Propofol - [**2107-11-23**] 04:45 PM
   Midazolam (Versed) - [**2107-11-24**] 03:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-24**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-24**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 35.9
C (96.7
   HR: 78 (66 - 92) bpm
   BP: 161/77(104) {82/65(73) - 166/94(110)} mmHg
   RR: 26 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,183 mL
                                                                  3,154 mL
   PO:
             TF:
                                                                    165 mL
                                                                    155 mL
   IVF:
                                                                  2,898 mL
                                                                  2,999 mL
   Blood products:
   Total out:
                                                                  1,234 mL
                                                                  3,894 mL
   Urine:
                                                                    435 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,949 mL
                                                                   -740 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 29 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.39/33/194/19/-3    THIS MORNING 6AM
   Ve: 13.6 L/min
   PaO2 / FiO2: 485
   Labs / Radiology
   257 K/uL
   7.3 g/dL
   129 mg/dL
   4.4 mg/dL
   19 mEq/L
   3.7 mEq/L
   47 mg/dL
   106 mEq/L
   137 mEq/L
   23.3 %
   8.0 K/uL
        [image002.jpg]
                            [**2107-11-23**]  08:14 AM
                            [**2107-11-23**]  09:45 AM
                            [**2107-11-23**]  06:45 PM
                            [**2107-11-23**]  07:50 PM
                            [**2107-11-23**]  11:14 PM
                            [**2107-11-24**]  12:08 AM
                            [**2107-11-24**]  01:43 AM
                            [**2107-11-24**]  01:46 AM
                            [**2107-11-24**]  05:58 AM
                            [**2107-11-24**]  06:02 AM
   WBC
   8.8
   8.0
   Hct
   24.7
   23.3  trending down
   Plt
   251
   257 stable
   Cr
   6.3
   4.9
   4.4
   TCO2
   19
   22
   21
   20
   21
   21
   Glucose
   130
   119
   176
   129
   Other labs: PT / PTT / INR:12.2/28.7/1.0   OLD , CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/15, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L   THIS AM , LDH:167 IU/L,
   Ca++:10.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL   GOING DOWN, HAS BEEN
   HIGHER
   Fluid analysis / Other labs: [**11-23**] PTH 299 (15-65)
   [**11-22**] Cortisol 10.5
   PEP pending
   Imaging: CXR this am
   [**11-23**] CXR
   New mild asymmetrical pulmonary edema with no consolidation. Left lower
   lobe
   atelectasis has resolved.
   [**11-21**] MRI head
   1. Severely limited examination demonstrates changes of chronic
   microvascular
   white matter ischemic disease with old left frontal encephalomalacia
   without
   evidence for acute infarct.
   2. Extensive paranasal sinus and mastoid air cell disease.
   Microbiology: [**11-23**] cath tip negative to date x2, Cdiff negative, BCx
   negative to date x2, UCx negative to date, CMV pending
   Positive Cx's still are GPR's unspeciated [**11-15**] and UCx with
   Pseudomonas [**11-14**]
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest
   # Altered mental status s/p PEA arrest:  Patient
s mental status exam
   is increasingly reassuring that he is likely to have some sort of
   meaningful recovery.  His MRI, though severely limited by motion
   artifact, did not show any signs of acute ischemia.  His EEG reads have
   not shown clear seizure activity.  His physical exam off sedation is
   inconsistent though, with some seeing meaningful, purposeful actions,
   following commands, and others just seeing agitation and no purposeful
   movements.
   - Continues on Fentanyl gtt. Neuro recommended boluses but did not
   tolerate well so will continue with gtt now but will try to wean down.
   Also continues on Propofol gtt and and Versed boluses
 will d/c Versed
   boluses. Overall the plan will be to go down on the Fentanyl as
   tolerated and try to use the Propofol more.
   - Plan was also to try Lidocaine oral spray to see if he can tolerate
   the ETT tube, but per respiratory that didn't help much
   - Will continue to periodically wean him from sedation and assess
   mental status for continued improvement
   - F/u Neurology recs, they feel he is making improvements, with 75%
   chance recovery with moderate disability
   # Hypertension: Pt was having issues with hypotension due to either
   hypovolemia vs infectious source, but now issue is hypertension and he
   has been started on Labetalol 400mg PO/NG [**Hospital1 **]. He continues to be
   hypertense this morning with BP's getting up to the 200's.
   - Increase Labetalol as necessary
   - Will speak with pharmacy about the potential for interaction between
   Propofol and Linezolid causing increased BP
   # Fever: patient spiking fevers.  Infectious work-up have overall been
   unrevealing.  He had pseudomonas in his urine and GPR in his blood,
   which could have been a contaminant.  His IJ lines look infected with
   frank pus, so were likely the source, and have been replaced.  His
   lipase was WNL, so pancreatitis d/t Propofol not likely.  Also consider
   drug fever if not improved with line removal.
   - consider stopping unnecessary medication.
   - Continues on Cefepime and Linezolid
   # Respiratory failure.  Intubated in setting of arrest with possible
   hypoxia beforehand.  Some question of PNA on CT chest and has had CXR's
   with LLL atelectasis vs infiltrate, unclear whether he truly has PNA or
   not.  Had bronch that was unrevealing, Cx
s gathered.
   - Continue assist control ventilation for now, weaning as tolerated.
   - Will do RSBI / SBT today
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far.  BK virus and CMV negative. He was getting CVVH, then
   the plan was to stop and get IHD, but was restarted back on CVVH
   yesterday after getting new lines placed. Don't feel that we need to be
   as aggressive with fluid removal as he is about 14L negative through
   LOS.
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - Will continue CVVH through today but can continue to speak with renal
   about when we could start HD
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Not clinically significant at this point.
   - Restart Calcitriol
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought to be unlikely. When pt had PICC placed yesterday
   found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies.  Sensitive to Zosyn and cefepime.
   - Continue Cefepime.  Has now completed 7d course but will continue due
   to persistent fevers.
   # Hypotension: This has been less of an issue in the most recent past
   as pt is now hypertense. It is worth leaving on the problem list though
   because he was recently having significant hypotension, etiology likely
   hypovolemic (17 liters negative length of stay, which may be too much)
   vs infectious (new fever to 101.1).  On Cefepime for pseudomonas UTI.
   No infectious source on CXR, and he does have multiple lines which have
   been continuously contaminated with salivations.  It is especially
   worrisome that he is drooling   Urinary source seems less likely.
   Lipase was negative, so not likely pancreatitis.  Did have a positive
   blood culture for gram positive rods on [**11-15**] that was not able to be
   speciated and is likely contamination.
   - Continue cefepime and broaden with linezolid (vancomycin allergy) for
   GPC from possible line infection.
   - Renal attending notes ok with changing HD line to temp femoral line,
   which has been done.
   - Will remove IJ line as well and get PICC
   - Also, may need to have ART replaced for better monitoring
   # ?Seizure activity vs. myoclonus. EEG monitoring device still in
   place.  There are several days of reads pending.  Neuro has said that
   at this point it is likely encephalopathy.
   - f/u EEG results
   - Plan is to not treat posturing with benzos, but if concerned for
   prolonged seizure, Tx with 2-4mg IV ativan and let Neuro know.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, PPI
   Access: L art line, R PICC placed [**11-23**], and R fem HD line with VIP
   port placed [**11-23**]
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].  [**Name2 (NI) **]y meeting today at
   4pm.
   Disposition: pending clinical improvement

2107-11-24 11:31:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: s/p cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2107-11-23**] 12:25 PM
   cdiff
 PICC LINE - START [**2107-11-23**] 06:22 PM
   placed and confirmed in IR by Dr. [**Doctor Last Name 10887**] during
   insertion:thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile
 DIALYSIS CATHETER - STOP [**2107-11-23**] 06:23 PM
 DIALYSIS CATHETER - START [**2107-11-23**] 06:26 PM
   placed in IR by Dr. [**Last Name (STitle) 10886**]
 MULTI LUMEN - STOP [**2107-11-23**] 10:46 PM
 FEVER - 101.1
F - [**2107-11-23**] 04:00 PM
   Patient unable to provide history: Sedated
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-23**] 02:16 PM
   Linezolid - [**2107-11-24**] 12:30 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Propofol - [**2107-11-23**] 04:45 PM
   Midazolam (Versed) - [**2107-11-24**] 03:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-24**] 04:00 AM
   Famotidine (Pepcid) - [**2107-11-24**] 07:59 AM
   Other medications:
   reviewed from [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-24**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.6
C (97.9
   HR: 68 (66 - 90) bpm
   BP: 138/69(91) {82/65(73) - 166/92(110)} mmHg
   RR: 26 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,183 mL
                                                                  4,203 mL
   PO:
             TF:
                                                                    165 mL
                                                                    225 mL
   IVF:
                                                                  2,898 mL
                                                                  3,899 mL
   Blood products:
   Total out:
                                                                  1,234 mL
                                                                  5,202 mL
   Urine:
                                                                    435 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,949 mL
                                                                   -999 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 42 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/33/194/19/-3
   Ve: 10.4 L/min
   PaO2 / FiO2: 485
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   7.3 g/dL
   257 K/uL
   129 mg/dL
   4.4 mg/dL
   19 mEq/L
   3.7 mEq/L
   47 mg/dL
   106 mEq/L
   137 mEq/L
   23.3 %
   8.0 K/uL
        [image002.jpg]
                            [**2107-11-23**]  08:14 AM
                            [**2107-11-23**]  09:45 AM
                            [**2107-11-23**]  06:45 PM
                            [**2107-11-23**]  07:50 PM
                            [**2107-11-23**]  11:14 PM
                            [**2107-11-24**]  12:08 AM
                            [**2107-11-24**]  01:43 AM
                            [**2107-11-24**]  01:46 AM
                            [**2107-11-24**]  05:58 AM
                            [**2107-11-24**]  06:02 AM
   WBC
   8.8
   8.0
   Hct
   24.7
   23.3
   Plt
   251
   257
   Cr
   6.3
   4.9
   4.4
   TCO2
   19
   22
   21
   20
   21
   21
   Glucose
   130
   119
   176
   129
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/15, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:10.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   61-year-old man s/p cardiac arrest during HD line placement in IR,
   after admission for ARF in setting of renal transplant.  He has shown
   meaningful neurological recovery, with a reassuring (if limited) MRI.
   Main present issues are fever, respiratory failure, altered mental
   status/encephalopathy, and ARF requiring renal replacement therapy.
   Most likely source of fever is lines.  We removed them yesterday and
   are covering for likely pathogens while awaiting cultures.  Fever has
   generally trended down.  We will continue present ABX for now.
                               [image004.jpg]
   Dialysis per renal.
   Was agitated today on lightening of sedation
 will d/c midaz, decrease
   fentanyl back toward 50, and use Propofol if needed, then re-assess
   later today.
   Other issues as per ICU team note today.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-11-24**] 09:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-23**] 06:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  40 min
   Patient is critically ill

2107-11-25 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status s/p PEA arrest
   24 Hour Events:
   - Question about ETT placement given bad am CXR --> re-shot. Talked to
   rads, said it's abt 3cm from carina.
   - Restarted Calcitriol
   - D/c Versed and trying to wean down Fentanyl --> down to 100 and was
   having some head bobbing motions, so up to 125 --> 2230pm on 100 Fent
   and 80 Propofol with plans to go down on Fentanyl as tolerated.
   - RSBI/SBT today: did not happen, will get one early tomorrow morning
   - Wake him up and re-examine him: opened eyes spontaneously but does
   not respond to his name or to command. Does not appear to interact with
   external stimuli, only appears to gag and move his head from left to
   right and flex at the hip, and raise his L arm. Pupils approx. 3mm and
   not much reaction to light. Has good gag and corneal reflexes. Didn't
   withdraw limb to nailbed crushing, but could see facial grimacing.
   - Interaction between Linezolid and Propofol causing HTN? Spoke with
   pharmacist Yoni who didn't feel this to be likely
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-23**] 02:16 PM
   Linezolid - [**2107-11-25**] 12:06 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Propofol - 75 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-24**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-25**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-25**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 83 (64 - 90) bpm
   BP: 107/61(75) {74/48(56) - 189/92(117)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  8,678 mL
                                                                  2,358 mL
   PO:
             TF:
                                                                    361 mL
                                                                    134 mL
   IVF:
                                                                  8,118 mL
                                                                  2,225 mL
   Blood products:
   Total out:
                                                                 13,153 mL
                                                                  2,509 mL
   Urine:
                                                                    325 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,475 mL
                                                                   -151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 410 (410 - 518) mL
   PS : 12 cmH2O
   RR (Set): 22
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 17 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.2 cmH2O/mL
   SpO2: 99%
   ABG: 7.34/42/184/18/-2
   Ve: 6.9 L/min
   PaO2 / FiO2: 460
   Physical Examination
   Patient sedated with propofol and fenatanyl.  Not responsive, pupils
   pinpoint and not responsive.  When patient not sedated, his pupils are
   3mm and responsive to light.  MAE, although not doing so this morning.
   No edema in LE, distal pulses present.  Lungs are clear to auscultation
   and heart rated is normal rate and rhythm with no murmurs.  Abdomen is
   soft and not distended
   Labs / Radiology
   292 K/uL
   8.6 g/dL
   190 mg/dL
   3.2 mg/dL
   18 mEq/L
   3.8 mEq/L
   34 mg/dL
   103 mEq/L
   133 mEq/L
   27.7 %
   7.9 K/uL
        [image002.jpg]
                            [**2107-11-24**]  06:02 AM
                            [**2107-11-24**]  12:54 PM
                            [**2107-11-24**]  01:02 PM
                            [**2107-11-24**]  04:14 PM
                            [**2107-11-24**]  04:23 PM
                            [**2107-11-24**]  10:05 PM
                            [**2107-11-24**]  10:18 PM
                            [**2107-11-25**]  02:52 AM
                            [**2107-11-25**]  03:13 AM
                            [**2107-11-25**]  05:38 AM
   WBC
   7.9
   Hct
   27.7
   Plt
   292
   Cr
   4.1
   3.7
   3.4
   3.2
   TCO2
   21
   20
   20
   21
   23
   24
   Glucose
   155
   169
   144
   190
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/15, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Imaging: [**11-24**] CXR stable cardiomediastinal contour, decreased edema
   and no large pleural effusion.
   [**11-25**] unchanged. Opacities at apices?
   Microbiology: [**11-23**] Cdiff negative
   [**11-23**] catheter tips pending
   [**11-23**] blood cx pending
   [**11-23**] urine cx negative
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest
   # Altered mental status s/p PEA arrest:  Patient
s mental status exam
   is increasingly reassuring that he is likely to have some sort of
   meaningful recovery.  His MRI, though severely limited by motion
   artifact, did not show any signs of acute ischemia.  His EEG reads have
   not shown clear seizure activity.  His physical exam off sedation is
   inconsistent though, with some seeing meaningful, purposeful actions,
   following commands, and others just seeing agitation and no purposeful
   movements.
   - Continues on Fentanyl gtt. Neuro recommended boluses but did not
   tolerate well so will continue with gtt now but will try to wean down.
   Also continues on Propofol gtt and and Versed boluses
 will d/c Versed
   boluses. Overall the plan will be to go down on the Fentanyl as
   tolerated and try to use the Propofol more.
   - Plan was also to try Lidocaine oral spray to see if he can tolerate
   the ETT tube, but per respiratory that didn't help much
   - Will continue to periodically wean him from sedation and assess
   mental status for continued improvement
   - F/u Neurology recs, they feel he is making improvements, with 75%
   chance recovery with moderate disability
   # Hypertension: Pt was having issues with hypotension due to either
   hypovolemia vs infectious source, but now issue is hypertension and he
   has been started on Labetalol 400mg PO/NG [**Hospital1 **]. He continues to be
   hypertense this morning with BP's getting up to the 200's.
   - Increase Labetalol as necessary
   - Will speak with pharmacy about the potential for interaction between
   Propofol and Linezolid causing increased BP
   # Fever: patient spiking fevers.  Infectious work-up have overall been
   unrevealing.  He had pseudomonas in his urine and GPR in his blood,
   which could have been a contaminant.  His IJ lines look infected with
   frank pus, so were likely the source, and have been replaced.  His
   lipase was WNL, so pancreatitis d/t Propofol not likely.  Also consider
   drug fever if not improved with line removal.
   - consider stopping unnecessary medication.
   - Continues on Cefepime and Linezolid
   # Respiratory failure.  Intubated in setting of arrest with possible
   hypoxia beforehand.  Some question of PNA on CT chest and has had CXR's
   with LLL atelectasis vs infiltrate, unclear whether he truly has PNA or
   not.  Had bronch that was unrevealing, Cx
s gathered.
   - Continue assist control ventilation for now, weaning as tolerated.
   - Will do RSBI / SBT today
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far.  BK virus and CMV negative. He was getting CVVH, then
   the plan was to stop and get IHD, but was restarted back on CVVH
   yesterday after getting new lines placed. Don't feel that we need to be
   as aggressive with fluid removal as he is about 14L negative through
   LOS.
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - Will continue CVVH through today but can continue to speak with renal
   about when we could start HD
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Not clinically significant at this point.
   - Restart Calcitriol
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought to be unlikely. When pt had PICC placed yesterday
   found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies.  Sensitive to Zosyn and cefepime.
   - Continue Cefepime.  Has now completed 7d course but will continue due
   to persistent fevers.
   # Hypotension: This has been less of an issue in the most recent past
   as pt is now hypertense. It is worth leaving on the problem list though
   because he was recently having significant hypotension, etiology likely
   hypovolemic (17 liters negative length of stay, which may be too much)
   vs infectious (new fever to 101.1).  On Cefepime for pseudomonas UTI.
   No infectious source on CXR, and he does have multiple lines which have
   been continuously contaminated with salivations.  It is especially
   worrisome that he is drooling   Urinary source seems less likely.
   Lipase was negative, so not likely pancreatitis.  Did have a positive
   blood culture for gram positive rods on [**11-15**] that was not able to be
   speciated and is likely contamination.
   - Continue cefepime and broaden with linezolid (vancomycin allergy) for
   GPC from possible line infection.
   - Renal attending notes ok with changing HD line to temp femoral line,
   which has been done.
   - Will remove IJ line as well and get PICC
   - Also, may need to have ART replaced for better monitoring
   # ?Seizure activity vs. myoclonus. EEG monitoring device still in
   place.  There are several days of reads pending.  Neuro has said that
   at this point it is likely encephalopathy.
   - f/u EEG results
   - Plan is to not treat posturing with benzos, but if concerned for
   prolonged seizure, Tx with 2-4mg IV ativan and let Neuro know.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, PPI
   Access: L art line, R PICC placed [**11-23**], and R fem HD line with VIP
   port placed [**11-23**]
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].  [**Name2 (NI) **]y meeting today at
   4pm.
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-11-25**] 02:56 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-23**] 06:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-11-25 12:15:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: s/p cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   agitated when sedation weaned
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-23**] 02:16 PM
   Linezolid - [**2107-11-25**] 12:06 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-11-25**] 04:05 AM
   Famotidine (Pepcid) - [**2107-11-25**] 08:39 AM
   Other medications:
   SQH, pred, propofol, CHG, H2B, SQI, MMF, cefepime, MDIs, labetalol,
   linezolid, oral bicard, fentanyl, AlOH, calcitriol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-25**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 75 (64 - 91) bpm
   BP: 106/54(70) {72/45(54) - 180/87(114)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  8,678 mL
                                                                  4,745 mL
   PO:
             TF:
                                                                    361 mL
                                                                    238 mL
   IVF:
                                                                  8,118 mL
                                                                  4,447 mL
   Blood products:
   Total out:
                                                                 13,153 mL
                                                                  3,904 mL
   Urine:
                                                                    325 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,475 mL
                                                                    841 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 380 (380 - 518) mL
   PS : 12 cmH2O
   RR (Set): 22
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 17 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/47/170/24/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 425
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   8.6 g/dL
   292 K/uL
   181 mg/dL
   3.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   32 mg/dL
   98 mEq/L
   134 mEq/L
   27.7 %
   7.9 K/uL
        [image002.jpg]
                            [**2107-11-24**]  01:02 PM
                            [**2107-11-24**]  04:14 PM
                            [**2107-11-24**]  04:23 PM
                            [**2107-11-24**]  10:05 PM
                            [**2107-11-24**]  10:18 PM
                            [**2107-11-25**]  02:52 AM
                            [**2107-11-25**]  03:13 AM
                            [**2107-11-25**]  05:38 AM
                            [**2107-11-25**]  09:53 AM
                            [**2107-11-25**]  10:09 AM
   WBC
   7.9
   Hct
   27.7
   Plt
   292
   Cr
   3.7
   3.4
   3.2
   3.3
   TCO2
   20
   20
   21
   23
   24
   27
   Glucose
   169
   144
   190
   181
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/15, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:10.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   61-year-old man s/p cardiac arrest during HD line placement in IR,
   after admission for ARF in setting of renal transplant.  He has shown
   meaningful neurological recovery, with a reassuring (if limited) MRI.
   Main present issues are fever, respiratory failure, altered mental
   status/encephalopathy, and ARF requiring renal replacement therapy.
   Hemodialysis line infection
   Growing Micrococcus on line tip
   Lines have been resited while on adequate therapy.
   Since Micrococcus is a relatively less common pathogen, consult ID
   Continue present ABX for now, as fever curve is downtrending
   [image004.jpg]
   Encephalopathy
   EEG today
   We
ve made moves on sedation to reduce BZD and decrease fentanyl.  Will
   examine off propofol later today.
   Discuss with neuro
   Hypertension/Hypotension
   If needed, use labetalol gtt instead of longer acting
   Hold fluid challenge for now
   Run even on CVVH
   ESRD
   Trial of TPA/repositioning of catheter
   Dialysis per renal.
   Discuss managing toward higher bicarb, and whether we can d/c enteral
   bicarb
   Other issues as per ICU team note today.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-11-25**] 02:56 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-23**] 06:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-11-26 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p PEA arrest
   24 Hour Events:
   - HD catheter replaced at bedside by IR over line; dysfunctioning again
   this morning.
   - Exam off propofol: able to respond with eyes to name and respond to
   commands to squeeze hands and move toes intermittently.  Other times
   just gagging continuously and agitated.  Has copious oral secretions.
   - stopped labetalol for low BPs.
   - 3:30am patient w/ RR 8-10. Becomes more agitated with lower fentanyl.
   Gas 7.25/66/169 so put on AC w/ RR 18 for time being.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-25**] 03:12 PM
   Linezolid - [**2107-11-26**] 12:22 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 60 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-25**] 08:39 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-26**] 04:40 AM
   Other medications:
   Flowsheet Data as of  [**2107-11-26**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 79 (73 - 95) bpm
   BP: 106/97(102) {82/47(61) - 167/97(102)} mmHg
   RR: 18 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  7,431 mL
                                                                  2,602 mL
   PO:
             TF:
                                                                    440 mL
                                                                    131 mL
   IVF:
                                                                  6,930 mL
                                                                  2,472 mL
   Blood products:
   Total out:
                                                                  5,161 mL
                                                                  2,678 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,270 mL
                                                                    -76 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 384 (380 - 573) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.32/45/183/27/-3
   Ve: 9.1 L/min
   PaO2 / FiO2: 457
   Physical Examination
    Gen: sedated and intubated
   Eyes: PERRL
   Chest: CTAB
   Heart: NRRR no murmurs
   Abdomen: distended, palpable mass in LLQ
   Ext: no edema, DP present
   Labs / Radiology
   286 K/uL
   8.4 g/dL
   166 mg/dL
   3.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   31 mg/dL
   94 mEq/L
   134 mEq/L
   28.2 %
   8.1 K/uL
        [image002.jpg]
                            [**2107-11-24**]  10:18 PM
                            [**2107-11-25**]  02:52 AM
                            [**2107-11-25**]  03:13 AM
                            [**2107-11-25**]  05:38 AM
                            [**2107-11-25**]  09:53 AM
                            [**2107-11-25**]  10:09 AM
                            [**2107-11-25**]  07:30 PM
                            [**2107-11-26**]  03:27 AM
                            [**2107-11-26**]  03:40 AM
                            [**2107-11-26**]  05:22 AM
   WBC
   7.9
   7.8
   8.1
   Hct
   27.7
   26.0
   28.2
   Plt
   292
   286
   286
   Cr
   3.2
   3.3
   4.1
   3.6
   TCO2
   21
   23
   24
   27
   30
   24
   Glucose
   144
   190
   181
   139
   166
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/15, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:11.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.9 mg/dL
   Microbiology: [**2107-11-23**] 7:41 pm CATHETER TIP-IV      Source: HD line.
      WOUND CULTURE (Final [**2107-11-25**]):
         PROBABLE MICROCOCCUS SPECIES.    >15 colonies.
   CDIFF negative
   Blood cultures negative
   Assessment and Plan
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest
   .
   # Respiratory failure.  He was originally intubated in setting of
   arrest with possible hypoxia beforehand.  Some question of PNA on CT
   chest and has had CXR's with LLL atelectasis vs infiltrate, unclear
   whether he truly has PNA or not.  Had bronch that was unrevealing, Cx
   negative to date.
   - Continue with ventilation.  Will likely not be able to think of
   extubation until patient
s mental status improves.
   - Cannot have CVVH today because of  HD catheter malfunction.  Renal
   notified and feel this is fine for today and they will reassess
   tomorrow.
   - Continue to do daily RSBI / SBT
   .
   # Altered mental status s/p PEA arrest:  It has recently been difficult
   to assess his mental status because he is so agitated when we lighten
   sedation.  His MRI, though severely limited by motion artifact, did not
   show any signs of acute ischemia.  His EEG reads show possible seizure
   activity.
   - We will try to sedate him as much as possible with just propofol and
   small amounts of fentanyl; he is not tolerating the lowering of
   fentanyl well
   - Continue to try Lidocaine oral spray to see if he can tolerate the
   ETT tube
   - F/u Neurology recs.
   - start  Keppra when off propofol
   - consider haldol instead of fentanyl in the future
    .
   # Labile blood pressures: Pt having intermittent hypotension due to
   either hypovolemia vs infectious source, and hypertension for which he
   was getting Labetalol 400mg PO/NG [**Hospital1 **].  Next time he is hypertensive we
   will try a labetalol drip to have tighter control with a short-acting
   medication that can be stopped when we are trying to remove fluid.  In
   the meantime, if he is hypotensive we should give small fluid boluses
   while running CVVH even.
   - Labetolol gtt if hypertensive
   - If hypotensive, give small fluid boluses.  If CVVH is not working and
   patient still has metabolic acidosis, consider boluses with sodium
   bicarb.
   .
   # Fever: Patient
s fever curve is improving now with lines removed
   (some low grade fevers overnight)  Dialysis line is growing
   micrococcus.
   - ID believes cefepime will suffice for treatment.  As this was an
   infected line/bacteremia, we should cover with 14 days of adequate
   antibiotics.
   - Continue Cefepime and Linezolid pending ID input.
   .
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Restarted back on
   CVVH after getting new lines placed, yesterday many liters negative.
   Don't feel that we need to be as aggressive with fluid removal as he is
   about 14L negative through LOS.   Will have to await a new line before
   proceeding with dialysis
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   .
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Not clinically significant at this point.
   - Restart Calcitriol
   .
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile
   .
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies.  Sensitive to Zosyn and cefepime.
   - Continue Cefepime.  Has now completed 7d course but will continue due
   to persistent fevers.
   .
   # ?Seizure activity vs. myoclonus. Another 20 minute EEG was done this
   morning  Neuro has said that at this point it is likely encephalopathy,
   but may be some seizure activity.  Recommended starting Keppra when
   Propofol off
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   .
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, PPI
   Access: L art line, R PICC placed [**11-23**], and R fem HD line with VIP
   port placed [**11-23**]
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-23**] 06:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   CC: resp failure, agitation, renal failure
   61 y/o man s/p asystolic/PEA arrest while in I.R. to get HD line.  S/P
   hypothermia.  Other issues include ARF in renal transplant (etiology
   not clear
 predated arrest) and fever.  Has had really remarkable
   improvements in neurologic exam and has good chance for significant
   recovery, but has been more delirious for the past couple of days.
   active issues:
          post-arrest (post-cooling)
          ARF in renal transplant
          resp failure
          mental status- now on propofol30/fent50. (A few days ago pt
   was able to follow commands, track, laugh at a joke)
          oral secretions
          micrococcus line infection
   Exam
   92/50 88 99%
   AC 0.4/500/18/5 7.32/45/183 restarted AC vent after sedation weaned
   with reduced fent, agitation, with 7.25/66/169.
   right groin VIP, right UE PICC.
   Calm, unresponsive. RN has reported agitation even on high dose prop,
   fent.
   CTA. Abd soft. No sig edema.
   Na 132
   BUN 31
   Data, meds reviewed.
   Plan:
   Mental status/delirium/sedation: try adding Haldol 2-5mg IV to observe
   if possible to decrease propofol.
   Resp failure: remains vent dependent due to mental status.
   ID: linezolid/cefipime for micrococcus line infection
   fix HD line
IR to see
   recheck PM lytes
   40 minutes critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2107-11-26**] 19:56 ------

2107-11-27 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Continues to have problems with the HD line and IR unable to fix
   - 3 BM
s yesterday
   - Continues on ssedation, still agitated
 last wake up without
   purposeful movements
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime
 [**2107-11-26**] 02:00 PM
   Linezolid
 [**2107-11-27**] 12:28 AM
   Infusions :
   Fentanyl (Concentrate)
 75 mcg/hour
   Propofol
 80 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis)
 [**2107-11-26**] 08:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-27**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 95 (86
 108) bpm
   BP: 101/53(67) {72/44(54)
 148/95(172)} mmHg
   RR: 18 (15
 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  5,762 mL
                                                                    953 mL
   PO:
             TF:
                                                                    482 mL
                                                                    125 mL
   IVF:
                                                                  5,280 mL
                                                                    828 mL
   Blood products:
   Total out:
                                                                  3,619 mL
                                                                     55 mL
   Urine:
                                                                     50 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                  2,143 approx negative 13 through LOS  mL
                                                                    898 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500
 500) mL
   Vt (Spontaneous): 622 (622
 622) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/46/204/21/3    THIS AM
   Ve: 7.7 L/min
   PaO2 / FiO2: 510
   Labs / Radiology
   283 K/uL
   7.6 g/dL
   232 mg/dL
   5.0 mg/dL
   21 mEq/L  TRENDING DOWN
   3.4 mEq/L
   47 mg/dL
   95 mEq/L
   131 mEq/L   ***
   23.2 %
   7.9 K/uL
        [image002.jpg]
                            [**2107-11-25**]  07:30 PM
                            [**2107-11-26**]  03:27 AM
                            [**2107-11-26**]  03:40 AM
                            [**2107-11-26**]  05:22 AM
                            [**2107-11-26**]  09:53 AM
                            [**2107-11-26**]  10:12 AM
                            [**2107-11-26**]  02:56 PM
                            [**2107-11-26**]  11:47 PM
                            [**2107-11-27**]  02:32 AM
                            [**2107-11-27**]  02:51 AM
   WBC
   7.8
   8.1
   7.9   STABLE
   Hct
   26.0
   28.2
   23.2  DROP THIS AM
   Plt
   286
   286
   283
   Cr
   4.1
   3.6
   3.6
   4.2
   4.8
   5.0
   TCO2
   30
   24
   31
   30
   Glucose
   139
   166
   162
   [**Telephone/Fax (3) 10907**]
   Other labs: PT / PTT / INR:12.8/31.0/1.1   TODAY , CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31   OLD , Alk Phos / T
   Bili:137/0.6, Amylase / Lipase:/15, Differential-Neuts:68.5 %,
   Lymph:19.5 %, Mono:7.3 %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167
   IU/L, Ca++:11.1 mg/dL   ELEVATED , Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   ELEVATED
   Imaging: CXR this am unchanged
   [**11-25**] CXR
   ETT tube is seen in standard position, right PICC tip is in the lower
   SVC.
   Cardiomediastinal contours are unchanged. There are no large pleural
   effusions. The lungs are grossly clear with resolution of edema.
   [**11-26**] Abdomen
   There is no evidence of free air. NG tube tip is in the stomach. Right
   femoral catheter remains in place. There is no evidence of bowel
   obstruction.
   There is nonspecific bowel gas pattern.
   Microbiology: [**11-23**] catheter tip with micrococcus x1, negative x1
   111/8 Cdiff negative, BCx x2 neg to date
   UCx negative, CMV negative
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now vent dependent due to mental status.
   Active issues at this point:
   # Respiratory failure.  He was originally intubated in setting of
   arrest with possible hypoxia beforehand.  Some question of PNA on CT
   chest and has had CXR's with LLL atelectasis vs infiltrate, unclear
   whether he truly has PNA or not.  Had bronch that was unrevealing, Cx
   negative to date.
   - Continues mechanically ventilated due to mental status and it is
   unclear if his mental status will improve given that his off sedation
   exams have been less purposeful recently, after initial signs of
   progress and following commands.
   - He is also having copious secretions which is concerning for
   aspiration if he were to be weaned from the vent
   - Will have to start thinking about trach/PEG if family wants to
   continue support.
   - Will need to have repeat family meeting about goals of care, but will
   have to touch base with Neurology about his chances of recovery first,
   given most recent exams
   - Daily off sedation exams, RSBI
s, SBT
   # Altered mental status s/p PEA arrest:  His MRI, though severely
   limited by motion artifact, did not show any signs of acute ischemia.
   Weaning of sedation has consistently shown agitation.
   - Had been trying to wean the Fentanyl and sedate more with Propofol,
   but has not tolerated this very well and still on substantial amts of
   Fentanyl
   - Continue to try Lidocaine oral spray to see if he can tolerate the
   ETT tube
   - Start  Keppra when off propofol
   - consider haldol instead of fentanyl in the future
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and have been
   unsuccessful.
   - No need for urgent HD/CVVH per renal
   - Will need to go to IR on Monday for replacement of his line, then
   restart CVVH afterwards.
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
    # Labile blood pressures: Pt having intermittent hypotension due to
   either hypovolemia vs infectious source, and hypertension for which he
   was getting Labetalol 400mg PO/NG [**Hospital1 **].  Next time he is hypertensive we
   will try a labetalol drip to have tighter control with a short-acting
   medication that can be stopped when we are trying to remove fluid.  In
   the meantime, if he is hypotensive we should give small fluid boluses
   while running CVVH even.
   - Labetolol gtt if hypertensive
   - If hypotensive, give small fluid boluses.  If CVVH is not working and
   patient still has metabolic acidosis, consider boluses with sodium
   bicarb.
   # Fever: Pt still with some low grade fevers, has been on long course
   of Cefepime and most recently Linezolid added for past 6 days. These
   were initially treating UTI with Pseudomonas. Now, he has grown out
   Micrococcus from
 catheter tips from CVL
s that were pulled the other
   day. ID has said that Cefipime will suffice for this Micrococcus.
   - Continue Cefepime and Linezolid for 14d course. Today is day 10 of
   Cefepime and day 6 of Linezolid
   - Would clarify the exact time course for these two ABx
 14d from when
   Micrococcus was isolated?
   # HypoNa: Possibly volume deplete as he is about 14L negative through
   LOS. Will give small 250cc bolus today and f/u electrolytes later
   today.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic.
   - F/u with renal about electrolytes
   Other stable issues:
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies.  Sensitive to Zosyn and cefepime.
   - Continue Cefepime.  Has now completed 10d course but will continue
   due to persistent fevers.
   # ?Seizure activity vs. myoclonus. Another 20 minute EEG was done this
   morning  Neuro has said that at this point it is likely encephalopathy,
   but may be some seizure activity.  Recommended starting Keppra when
   Propofol off
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, PPI
   Access: L art line, R PICC placed [**11-23**], and R fem HD line with VIP
   port placed [**11-23**]
 will need to have R fem HD line replaced
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement

2107-11-27 13:32:00 Physician Attending Progress Note
Chief Complaint: resp failure, agitation, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 y/o man s/p asystolic/PEA arrest while in I.R. to get HD line.  S/P
   hypothermia.  Other issues include ARF in renal transplant (etiology
   not clear
 predated arrest) and fever.  Has had improvements in
   neurologic exam and has good chance for significant recovery, but has
   been more delirious for the past few days.
   24 Hour Events:
   IR unable to get HD line functional.
   3 BM yesterday.
   No change in mental status-- stopped propofol once yesterday and once
   overnight. He did not follow commands but moved all extremities. Easily
   agitated.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-26**] 02:00 PM
   Linezolid - [**2107-11-27**] 12:02 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-11-26**] 08:49 PM
   Famotidine (Pepcid) - [**2107-11-27**] 08:00 AM
   Other medications:
   ISS, cellcept
   cefipime, linezolid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-27**] 01:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 98 (87 - 108) bpm
   BP: 82/74(78) {81/47(58) - 138/98(172)} mmHg
   RR: 18 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  5,764 mL
                                                                  1,848 mL
   PO:
             TF:
                                                                    484 mL
                                                                    264 mL
   IVF:
                                                                  5,280 mL
                                                                  1,584 mL
   Blood products:
   Total out:
                                                                  3,619 mL
                                                                    105 mL
   Urine:
                                                                     50 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,145 mL
                                                                  1,743 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/46/204/21/3
   Ve: 9.2 L/min
   PaO2 / FiO2: 510
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube. Copious
   salivary secretions.
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), loud
   systolic murmur unchanged
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Rhonchorous: faint),
   good air movement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Non -purposeful- withdraws to noxious stim all ext,
   Tone: Not assessed, totally unresponsive to voice. Does not track.
   Labs / Radiology
   7.6 g/dL
   283 K/uL
   232 mg/dL
   5.0 mg/dL
   21 mEq/L
   3.4 mEq/L
   47 mg/dL
   95 mEq/L
   131 mEq/L
   23.2 %
   7.9 K/uL
        [image002.jpg]
                            [**2107-11-25**]  07:30 PM
                            [**2107-11-26**]  03:27 AM
                            [**2107-11-26**]  03:40 AM
                            [**2107-11-26**]  05:22 AM
                            [**2107-11-26**]  09:53 AM
                            [**2107-11-26**]  10:12 AM
                            [**2107-11-26**]  02:56 PM
                            [**2107-11-26**]  11:47 PM
                            [**2107-11-27**]  02:32 AM
                            [**2107-11-27**]  02:51 AM
   WBC
   7.8
   8.1
   7.9
   Hct
   26.0
   28.2
   23.2
   Plt
   286
   286
   283
   Cr
   4.1
   3.6
   3.6
   4.2
   4.8
   5.0
   TCO2
   30
   24
   31
   30
   Glucose
   139
   166
   162
   [**Telephone/Fax (3) 10907**]
   Other labs: PT / PTT / INR:12.8/31.0/1.1, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/15, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:11.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: Na 134--> 131--> 131
   Imaging: CXR unchanged
   Microbiology: micrococcus + catheter tip, no bacteremia.
   [**11-23**] blood cx NGTD x 2
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61 y/o man s/p asystolic/PEA arrest while in I.R. to get HD line.  S/P
   cooling.  Other issues include ARF in renal transplant (etiology not
   clear
 predated arrest).  Seemed to have improved mental status a few
   days ago (according to neurology consult service and Dr [**Last Name (STitle) 832**]
   exams), but has been unresponsive except to noxious stimuli for the
   past couple of days.
   active issues:
          post-arrest (post-cooling)
          ARF in renal transplant
          resp failure
          mental status- now on propofol30/fent50. (A few days ago pt
   was able to follow commands, track, laugh at a joke)
          oral secretions
          micrococcus line infection
   Plan:
   1.       Mental status/delirium/sedation: try adding Haldol 2-5mg IV to
   observe if possible to decrease propofol.
   At this point mental status is limiting barrier to extubation.
   Will need discussion with neuro and then family to readdress mental
   status and goals of care. It is day 12 intubation, will need trach/PEG
   if he is unable to liberate from vent, which seems unlikely given his
   lack of improvement in mental status.
   2.       ID: linezolid/cefipime for micrococcus line infection
    3. Hyponatremia- may be hypovolemic. Trial small bolus NS. recheck PM
       lytes for f/u Na, Ca
    4. HD line
IR plans to fix line tomorrow
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-11-27**] 06:02 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-23**] 06:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2107-11-28 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Brain injury s/p PEA arrest
   24 Hour Events:
   - Need to touch base with IR this am to get line changed, restart HD
   - Hypertriglyceridemia --> switched to versed from propofol
   - having diarrhea so c. diff sent
   - Having PVC's --> K repleted
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-26**] 02:00 PM
   Linezolid - [**2107-11-28**] 12:55 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-28**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-28**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 86 (80 - 106) bpm
   BP: 101/56(70) {81/47(58) - 189/107(118)} mmHg
   RR: 18 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,071 mL
                                                                    774 mL
   PO:
             TF:
                                                                    485 mL
                                                                    118 mL
   IVF:
                                                                  2,586 mL
                                                                    656 mL
   Blood products:
   Total out:
                                                                    232 mL
                                                                    895 mL
   Urine:
                                                                    232 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,839 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/39/194/20/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 485
   Physical Examination
   Spontaneously moving head from side to side and moving all four
   extremities but does not track with eyes or follow any commands.
   PERRL, lower mouth and neck covered in copious saliva.  Lungs sound
   clear.  Heart regular.  Abdomen distended but benign.  Extremities
   without palpable edema.
   Labs / Radiology
   339 K/uL
   7.2 g/dL
   188 mg/dL
   6.5 mg/dL
   20 mEq/L
   3.5 mEq/L
   62 mg/dL
   96 mEq/L
   131 mEq/L
   22.0 %
   9.0 K/uL
        [image002.jpg]
                            [**2107-11-26**]  03:40 AM
                            [**2107-11-26**]  05:22 AM
                            [**2107-11-26**]  09:53 AM
                            [**2107-11-26**]  10:12 AM
                            [**2107-11-26**]  02:56 PM
                            [**2107-11-26**]  11:47 PM
                            [**2107-11-27**]  02:32 AM
                            [**2107-11-27**]  02:51 AM
                            [**2107-11-28**]  01:58 AM
                            [**2107-11-28**]  02:20 AM
   WBC
   7.9
   9.0
   Hct
   23.2
   22.0
   Plt
   283
   339
   Cr
   3.6
   4.2
   4.8
   5.0
   6.5
   TCO2
   30
   24
   31
   30
   23
   Glucose
   162
   217
   182
   232
   188
   Other labs: PT / PTT / INR:12.6/33.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/60, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:12.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:6.8 mg/dL
   Imaging: [**11-27**] CXR: Lungs grossly clear.
   [**11-28**] CXR: ? L sided effusion, otherwise clear.
   Microbiology: [**11-28**] Cdiff pending
   [**11-23**] catheter tip: micrococcus
   Assessment and Plan
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now vent dependent due to mental status.
   Active issues at this point:
   # Respiratory failure.  Back on pressure support this morning.
   He was originally intubated in setting of arrest with possible hypoxia
   beforehand.  Some question of PNA on CT chest and has had CXR's with
   LLL atelectasis vs infiltrate, unclear whether he truly has PNA or
   not.  Had bronch that was unrevealing, Cx
s negative to date.
   - Continues mechanically ventilated due to mental status and it is
   unclear if his mental status will improve given that his off sedation
   exams have been less purposeful recently, after initial signs of
   progress and following commands.
   - He is also having copious secretions which is concerning for
   aspiration if he were to be weaned from the vent
   - Will have to start thinking about trach/PEG if family wants to
   continue support.
   - Will need to have repeat family meeting about goals of care, but will
   have to touch base with Neurology about his chances of recovery first,
   given most recent exams
   - Daily off sedation exams, RSBI
s, SBT
   # Altered mental status s/p PEA arrest:  Patient obviously has intact
   brainstem reflexes but it is difficult to assess his cortex.  His MRI,
   though severely limited by motion artifact, did not show any signs of
   acute ischemia.  Weaning of sedation has consistently shown agitation.
    Changed from Propofol to versed because of triglycerides of 700.
   - Had been trying to wean the Fentanyl and sedate more with Propofol,
   but has not tolerated this very well and still on substantial amts of
   Fentanyl
   - Continue to try Lidocaine oral spray to see if he can tolerate the
   ETT tube
   - Start  Keppra when off propofol
   - consider haldol instead of fentanyl in the future
   # Acute on chronic renal failure.  s/p CRT in [**2101**].  Etiology of ARF
   unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and have been
   unsuccessful.
   - No need for urgent HD/CVVH per renal
   - Will need to go to IR on Monday for replacement of his line, then
   restart CVVH afterwards.
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
    # Labile blood pressures: Pt having intermittent hypotension due to
   either hypovolemia vs infectious source, and hypertension for which he
   was getting Labetalol 400mg PO/NG [**Hospital1 **].  Next time he is hypertensive we
   will try a labetalol drip to have tighter control with a short-acting
   medication that can be stopped when we are trying to remove fluid.  In
   the meantime, if he is hypotensive we should give small fluid boluses
   while running CVVH even.
   - Labetolol gtt if hypertensive
   - If hypotensive, give small fluid boluses.  If CVVH is not working and
   patient still has metabolic acidosis, consider boluses with sodium
   bicarb.
   # Fever: continued low-grade temps.  Will continue cefepime and
   linezolid.
   Pt still with some low grade fevers, has been on long course of
   Cefepime and most recently Linezolid added for past 6 days. These were
   initially treating UTI with Pseudomonas. Now, he has grown out
   Micrococcus from
 catheter tips from CVL
s that were pulled the other
   day. ID has said that Cefipime will suffice for this Micrococcus.
   - Continue Cefepime and Linezolid for 14d course. Today is day 11 of
   Cefepime and day 7 of Linezolid
   - Would clarify the exact time course for these two ABx
 14d from when
   Micrococcus was isolated?
   # HypoNa: Possibly volume deplete as he is about 14L negative through
   LOS. Will give small 250cc bolus today and f/u electrolytes later
   today.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic.
   - F/u with renal about electrolytes
   Other stable issues:
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies.  Sensitive to Zosyn and cefepime.
   - Continue Cefepime.  Has now completed 10d course but will continue
   due to persistent fevers.
   # ?Seizure activity vs. myoclonus. Another 20 minute EEG was done this
   morning  Neuro has said that at this point it is likely encephalopathy,
   but may be some seizure activity.  Recommended starting Keppra when
   Propofol off
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease
   - continue to monitor.
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, PPI
   Access: L art line, R PICC placed [**11-23**], and R fem HD line with VIP
   port placed [**11-23**]
 will need to have R fem HD line replaced
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement

2107-11-28 11:51:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man with renal transplant, admitted with worsening CRF.  Had PEA
   arrest in IR with attempted placement of HD line.  Had right subclavian
   HD line placed over wire, clogged and not working.  Has had high
   triglycerides with propofol and also diarrhea and fevers.
   24 Hour Events:
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-26**] 02:00 PM
   Linezolid - [**2107-11-28**] 12:55 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-11-28**] 04:00 AM
   Famotidine (Pepcid) - [**2107-11-28**] 08:00 AM
   Other medications:
   prednisone 5mg qd
   chlorhex
   pepcid
   SSI
   cellcept
   cefepime
   albuterol/atrovent
   vitamin D
   renajel
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-28**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.3
   HR: 87 (77 - 106) bpm
   BP: 119/57(75) {82/48(62) - 189/107(118)} mmHg
   RR: 18 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,071 mL
                                                                  1,069 mL
   PO:
             TF:
                                                                    485 mL
                                                                    230 mL
   IVF:
                                                                  2,586 mL
                                                                    839 mL
   Blood products:
   Total out:
                                                                    232 mL
                                                                    959 mL
   Urine:
                                                                    232 mL
                                                                    159 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,839 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/39/194/20/-2
   Ve: 9.3 L/min
   PaO2 / FiO2: 485
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   339 K/uL
   188 mg/dL
   6.5 mg/dL
   20 mEq/L
   3.5 mEq/L
   62 mg/dL
   96 mEq/L
   131 mEq/L
   22.0 %
   9.0 K/uL
        [image002.jpg]
                            [**2107-11-26**]  03:40 AM
                            [**2107-11-26**]  05:22 AM
                            [**2107-11-26**]  09:53 AM
                            [**2107-11-26**]  10:12 AM
                            [**2107-11-26**]  02:56 PM
                            [**2107-11-26**]  11:47 PM
                            [**2107-11-27**]  02:32 AM
                            [**2107-11-27**]  02:51 AM
                            [**2107-11-28**]  01:58 AM
                            [**2107-11-28**]  02:20 AM
   WBC
   7.9
   9.0
   Hct
   23.2
   22.0
   Plt
   283
   339
   Cr
   3.6
   4.2
   4.8
   5.0
   6.5
   TCO2
   30
   24
   31
   30
   23
   Glucose
   162
   217
   182
   232
   188
   Other labs: PT / PTT / INR:12.6/33.7/1.0, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/60, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:12.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
 DIARRHEA
 ALTERED MENTAL STATUS:  Had some improvement in MS to the point where
   he was following commands and now has worsened.  Mostly likely is
   delirium in setting of meds and renal failure.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD):  Chronic
   graft rejection.  To get femoral line replaced to for CVVH.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Will need trach and PEG.
   Will try a trial of PSV.
 CARDIAC ARREST
   Fevers:  On Cefepime and linezolid.  With micrococcus from the line.
   Anemia:  Will start erythropoietin.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-11-28**] 05:54 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-23**] 06:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will discuss with family about Trach and PEG.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2107-11-29 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2107-11-28**] 02:08 PM
   leads placed
   - IR did not do line this morning, will do at 10am today
   - Renal: Change Aluminum OH to 45mg TID, d/c calcitriol. Once dialysis
   line available, restart CRRT.
   - Started epogen
   - Neuro: restart EEG, if seizure will give keppra.
   - changed to pressure support.
   - Unable to speak with family re: trach/PEG
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-28**] 02:04 PM
   Linezolid - [**2107-11-28**] 11:53 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-29**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-29**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 91 (76 - 95) bpm
   BP: 111/51(69) {98/48(63) - 187/74(101)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.3 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,524 mL
                                                                    132 mL
   PO:
             TF:
                                                                    633 mL
   IVF:
                                                                  1,781 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,442 mL
                                                                    105 mL
   Urine:
                                                                    392 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                     1,082  --> 9L negative through LOS mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 505 (0 - 505) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.27/52/166/22/-3
   Ve: 6.7 L/min
   PaO2 / FiO2: 415
   Physical Examination
   Opened eyes to voice but doesn
t track across room, doesn
t follow
   commands, not responsive to external stimuli. Lungs sound clear and has
   prominent systolic murmur. Abd benign. No BLE edema
   Labs / Radiology
   349 K/uL
   7.0 g/dL
   170 mg/dL
   7.9 mg/dL
   22 mEq/L
   3.5 mEq/L
   78 mg/dL
   94 mEq/L
   135 mEq/L
   22.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2107-11-26**]  09:53 AM
                            [**2107-11-26**]  10:12 AM
                            [**2107-11-26**]  02:56 PM
                            [**2107-11-26**]  11:47 PM
                            [**2107-11-27**]  02:32 AM
                            [**2107-11-27**]  02:51 AM
                            [**2107-11-28**]  01:58 AM
                            [**2107-11-28**]  02:20 AM
                            [**2107-11-29**]  03:12 AM
                            [**2107-11-29**]  03:29 AM
   WBC
   7.9
   9.0
   10.5
   Hct
   23.2
   22.0
   22.1
   Plt
   [**Telephone/Fax (3) 10923**]
   Cr
   3.6
   4.2
   4.8
   5.0
   6.5
   7.9
   TCO2
   31
   30
   23
   25
   Glucose
   162
   217
   182
   232
   188
   170
   Other labs: PT / PTT / INR:12.5/31.2/1.1   TODAY NORMAL COAGS, CK /
   CKMB / Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T
   Bili:137/0.6, Amylase / Lipase:/60, Differential-Neuts:68.5 %,
   Lymph:19.5 %, Mono:7.3 %, Eos:4.5 %   NEW , Lactic Acid:0.6 mmol/L,
   LDH:167 IU/L, Ca++:12.7 mg/dL   ELEVATED, Mg++:2.4 mg/dL, PO4:8.7
   mg/dL  ELEVATED
   Fluid analysis / Other labs: Iron 58
   tibc low
   ferritin >[**2098**]
   Transferrin low
   ACD
   B12 and folate normal
   IgG low
   IgA normal
   IgM low
   ICa 1.63 (1.12-1.32)
   Imaging: CXR this am
   [**11-28**] CXR
   ET tube tip is approximately 6.5 cm above the carina. The right PICC
   line tip
   is at the level of low SVC. The NG tube tip passes below the diaphragm,
   most
   likely terminating in the stomach. Cardiomediastinal silhouette is
   stable.
   Lungs are essentially clear. There is interval improvement of the right
   upper
   lobe opacity seen on the prior study obtained yesterday at 05:10 a.m.
   There is no evidence of failure. There is no increase in pleural
   effusion and
   there is also no pneumothorax demonstrated on the current study.
   Microbiology: BK not detected
   [**11-28**] and [**11-23**] Cdiff negative
   [**11-23**] Cath tip negative x1, Micrococcus x1
   [**11-23**] BCx negative x2, UCx negative
   Assessment and Plan
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now vent dependent due to mental status.
    Active issues at this point:
    # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s negative to
   date.  Has been on AC for most of MICU course, but yesterday tried on
   pressure support and tolerating well.
   - At this point, most importantly need to speak with family and discuss
   trach/PEG and moving towards rehab as he doesn
t appear to be making
   great strides in terms of his mental status or his respiratory status.
   - His agitation could be in part due to the ETT and it
s reasonable to
   to think getting it out could be beneficial
 Trach talk with family
   - He is also having copious secretions which is concerning for
   aspiration if he were to be weaned from the vent
    # Altered mental status s/p PEA arrest:  Patient obviously has intact
   brainstem reflexes but it is difficult to assess his cortex.  His MRI,
   though severely limited by motion artifact, did not show any signs of
   acute ischemia.  Weaning of sedation has consistently shown agitation.
   He was making some strides towards improvement last week, with
   following commands and responding to the environment, but most recently
   he has just been thrashing around and very agitated when sedation is
   weaned, not following commands, not tracking across the room, not
   making progress.  Changed from Propofol to versed because of
   triglycerides of 700.
   - Neuro has been following and they have put him back on continuous EEG
   due to a staring spell that they witnessed yesterday
   - Start  Keppra if having EEG changes
   - Will give a trial of Haldol today to see if any improvement.
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and have been
   unsuccessful. Needs to have femoral HD line replaced today.
   - Will need to go to IR today for replacement of his line, then restart
   CVVH afterwards.
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - stop calcitriol and increase aluminum hydroxide per renal recs
   - Renal is following
   # Fever: continued low-grade temps.  Will continue cefepime and
   linezolid.  Pt still with some low grade fevers, has been on long
   course of Cefepime and most recently Linezolid added for past 6 days.
   These were initially treating UTI with Pseudomonas. Now, he has grown
   out Micrococcus from
 catheter tips from CVL
s that were pulled the
   other day. ID has said that Cefipime will suffice for this Micrococcus.
   - Continue Cefepime and Linezolid for 14d course. Today is day 12 of
   Cefepime and day 8 of Linezolid
   Other less active/stable issues:
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.
   - Will start Epogen but unclear if this will only be with HD/CVVH
   - continue to monitor.
    # Labile blood pressures: Pt having intermittent hypotension due to
   either hypovolemia vs infectious source, and hypertension for which he
   was getting Labetalol 400mg PO/NG [**Hospital1 **].  Next time he is hypertensive we
   will try a labetalol drip to have tighter control with a short-acting
   medication that can be stopped when we are trying to remove fluid.  In
   the meantime, if he is hypotensive we should give small fluid boluses
   while running CVVH even.
   - Labetolol gtt if hypertensive
   - If hypotensive, give small fluid boluses.  If CVVH is not working and
   patient still has metabolic acidosis, consider boluses with sodium
   bicarb.
   # HypoNa: Normal today but recently low. Thought to be lipemic samples
   vs  possibly volume deplete as he is about 14L negative through LOS.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   - F/u with renal about electrolytes
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies.  Sensitive to Zosyn and cefepime.
   - Continue Cefepime.  Has now completed 10d course but will continue
   due to persistent fevers as above
   # ?Seizure activity vs. myoclonus.  His first round of continuous EEG
   monitoring did not show outright seizure activity but
epileptiform
   activity
 according to Neuro. He was not ever started on AED
s and they
   said that it is likely encephalopathy, but may be some seizure
   activity.  Recommended starting Keppra when Propofol off.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
 Will
   need to discuss PEG placement with family
   Prophylaxis: Subcutaneous heparin, PPI
   Access: L art line, R PICC placed [**11-23**], and R fem HD line with VIP
   port placed [**11-23**]
 will need to have R fem HD line replaced
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement. If trach and PEG placed,
   could consider moving to vent rehab.

2107-11-29 12:07:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man with failed renal transplant, ESRD on HD.  s/p cardiac
   arrest, respiratory failure.  Unable to get new HD line yesterday.
   Hopefully will get today.
   24 Hour Events:
 EEG - At [**2107-11-28**] 02:08 PM
   leads placed
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-28**] 02:04 PM
   Linezolid - [**2107-11-28**] 11:53 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-29**] 08:00 AM
   Other medications:
   prednisone 5mg
   insulin
   cell cept
   albuterol
   fentanyl
   versed
   epo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-29**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 98 (76 - 99) bpm
   BP: 137/73(91) {88/45(58) - 187/74(101)} mmHg
   RR: 18 (13 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.3 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,524 mL
                                                                    456 mL
   PO:
             TF:
                                                                    633 mL
   IVF:
                                                                  1,781 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                  1,442 mL
                                                                    829 mL
   Urine:
                                                                    392 mL
                                                                    179 mL
   NG:
   650 mL
   Stool:
   Drains:
   Balance:
                                                                  1,082 mL
                                                                   -373 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 519 (0 - 550) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 95
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.27/55/168/22/-2
   Ve: 9.2 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   349 K/uL
   170 mg/dL
   7.9 mg/dL
   22 mEq/L
   3.5 mEq/L
   78 mg/dL
   94 mEq/L
   135 mEq/L
   22.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2107-11-26**]  10:12 AM
                            [**2107-11-26**]  02:56 PM
                            [**2107-11-26**]  11:47 PM
                            [**2107-11-27**]  02:32 AM
                            [**2107-11-27**]  02:51 AM
                            [**2107-11-28**]  01:58 AM
                            [**2107-11-28**]  02:20 AM
                            [**2107-11-29**]  03:12 AM
                            [**2107-11-29**]  03:29 AM
                            [**2107-11-29**]  08:11 AM
   WBC
   7.9
   9.0
   10.5
   Hct
   23.2
   22.0
   22.1
   Plt
   [**Telephone/Fax (3) 10923**]
   Cr
   4.2
   4.8
   5.0
   6.5
   7.9
   TCO2
   31
   30
   23
   25
   26
   Glucose
   [**Telephone/Fax (3) 10926**]88
   170
   Other labs: PT / PTT / INR:12.5/31.2/1.1, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/60, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:12.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:8.7 mg/dL
   Assessment and Plan
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   Respiratory failure:  Getting agitated with ETT.  Needs trach has he
   needs too much sedation to allow him to breath.
   Poor MS:  Likely ICU delerium.
   Will start 5mg haldol tid PO to control agitation.
   Renal failure:  HD after replacement of dialysis line.
   Will discuss with family today to see if we can get tracheostomy
   tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-23**] 06:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2107-11-30 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2107-11-29**] 07:13 PM
   placed in IR by Dr. [**Last Name (STitle) 10886**]
 DIALYSIS CATHETER - START [**2107-11-29**] 08:00 PM
   placed in IR [**11-29**]
   - IJ tunneled HD catheter placement with IR; not working.  IR and renal
   notified.  They will discuss tunneled subclavian in the am. Position
   changes and tPA flush tried first.
   - Needs family meeting for trach placement
   - Keppra started- given 1000mg loading dose.  250 qd with a 250 dose
   after HD
   - Started Haldol but no appreciable changes seen
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-28**] 02:04 PM
   Linezolid - [**2107-11-30**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-11-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-11-30**] 04:34 AM
   Labetalol - [**2107-11-30**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-30**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 83 (73 - 99) bpm
   BP: 116/67(83) {100/54(69) - 203/114(315)} mmHg
   RR: 18 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                    880 mL
                                                                    687 mL
   PO:
             TF:
   IVF:
                                                                    695 mL
                                                                    657 mL
   Blood products:
   Total out:
                                                                  1,467 mL
                                                                    420 mL
   Urine:
                                                                    367 mL
                                                                    270 mL
   NG:
                                                                  1,100 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                     -587  --> negative 10L through LOS mL
                                                                    267 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 216 (216 - 519) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 212
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.40/36/187/19/-1    THIS AM
   Ve: 7.9 L/min
   PaO2 / FiO2: 468
   Physical Examination
   Just off sedation, opens eyes to voice, but doesn
t follow commands.
   Doesn
t track. Lungs clear but with better air movement on R. Heart
   with systolic murmur. Abd somewhat distended but no grimacing to
   palpation. Not grossly edematous.
   Labs / Radiology
   316 K/uL
   6.6 g/dL
   140 mg/dL
   8.3 mg/dL
   19 mEq/L
   3.1 mEq/L
   83 mg/dL
   99 mEq/L
   136 mEq/L
   20.9 %
   9.1 K/uL
         [image002.jpg]
                            [**2107-11-27**]  02:32 AM
                            [**2107-11-27**]  02:51 AM
                            [**2107-11-28**]  01:58 AM
                            [**2107-11-28**]  02:20 AM
                            [**2107-11-29**]  03:12 AM
                            [**2107-11-29**]  03:29 AM
                            [**2107-11-29**]  08:11 AM
                            [**2107-11-29**]  07:29 PM
                            [**2107-11-30**]  02:34 AM
                            [**2107-11-30**]  02:47 AM
   WBC
   7.9
   9.0
   10.5
   9.1
   Hct
   23.2
   22.0
   22.1
   20.9
   Plt
   [**Telephone/Fax (3) 10930**]16
   Cr
   5.0
   6.5
   7.9
   8.3
   TCO2
   30
   23
   25
   26
   22
   23
   Glucose
   232
   188
   170
   111
   142
   140
   Other labs: PT / PTT / INR:12.5/31.2/1.1   YESTERDAY , CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/60, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:11.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:6.9 mg/dL
   Imaging: no new imaging
   Microbiology: no new micro
   Assessment and Plan
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now vent dependent due to mental status.
    Active issues at this point:
    # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s negative to
   date.  Main hindrance to weaning from vent is his agitation, whenever
   his sedation is weaning he thrashes around, isn
t responsive, looks
   very uncomfortable, drools a lot. This agitation could be in large part
   due to his ETT and we should move towards trach.
   - Need to talk to family about trach PEG today.
   - He is also having copious secretions which is concerning for
   aspiration if he were to be weaned from the vent
    # Altered mental status s/p PEA arrest:  Patient obviously has intact
   brainstem reflexes but it is difficult to assess his cortex.  His MRI,
   though severely limited by motion artifact, did not show any signs of
   acute ischemia.  Weaning of sedation has consistently shown agitation.
   He was making some strides towards improvement last week, with
   following commands and responding to the environment, but most recently
   he has just been thrashing around and very agitated when sedation is
   weaned, not following commands, not tracking across the room, not
   making progress.  Changed from Propofol to versed because of
   triglycerides of 700. Most recently, Neuro has noted a staring spell
   that was concerning for continued seizures, so he was on continuous EEG
   for a while, with epileptiform spikes but not outright seizure
   activity. They recommended a Keppra load, with Keppra 250 qday and an
   extra 250 after HD.
   - He is currently written for Keppra 250mg IV q12, will need to clarify
   dose with Neuro -
   - Will continue today with schedule Haldol to see if any improvement in
   his mental status.
   - Continue Fent/Versed for sedation for now
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and have been
   unsuccessful. Needs to have femoral HD line replaced today.
   - Will need to go to IR today for replacement of his line, then restart
   CVVH afterwards.
   - continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - stop calcitriol and increase aluminum hydroxide per renal recs
   - Renal is following
   # Fever: continued low-grade temps.  Will continue cefepime and
   linezolid.  Pt still with some low grade fevers, has been on long
   course of Cefepime and most recently Linezolid added for past 6 days.
   These were initially treating UTI with Pseudomonas. Now, he has grown
   out Micrococcus from
 catheter tips from CVL
s that were pulled the
   other day. ID has said that Cefipime will suffice for this Micrococcus.
   - Continue Cefepime and Linezolid for 14d course. Today is day 12 of
   Cefepime and day 8 of Linezolid
   Other less active/stable issues:
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.
    - Will start Epogen but unclear if this will only be with HD/CVVH
   - continue to monitor.
    # Labile blood pressures: Pt having intermittent hypotension due to
   either hypovolemia vs infectious source, and hypertension for which he
   was getting Labetalol 400mg PO/NG [**Hospital1 **].  Next time he is hypertensive we
   will try a labetalol drip to have tighter control with a short-acting
   medication that can be stopped when we are trying to remove fluid.  In
   the meantime, if he is hypotensive we should give small fluid boluses
   while running CVVH even.
   - Labetolol gtt if hypertensive
   - If hypotensive, give small fluid boluses.  If CVVH is not working and
   patient still has metabolic acidosis, consider boluses with sodium
   bicarb.
   # HypoNa: Normal today but recently low. Thought to be lipemic samples
   vs  possibly volume deplete as he is about 14L negative through LOS.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   - F/u with renal about electrolytes
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile
   #  UTI. Borderline UA. Culture positive for Pseudomonas of 2
   morphologies.  Sensitive to Zosyn and cefepime.
   - Continue Cefepime.  Has now completed 10d course but will continue
   due to persistent fevers as above
   # ?Seizure activity vs. myoclonus.  His first round of continuous EEG
   monitoring did not show outright seizure activity but
epileptiform
   activity
 according to Neuro. He was not ever started on AED
s and they
   said that it is likely encephalopathy, but may be some seizure
   activity.  Recommended starting Keppra when Propofol off.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
 Will
   need to discuss PEG placement with family
   Prophylaxis: Subcutaneous heparin, PPI
   Access: L art line, R PICC placed [**11-23**], and R fem HD line with VIP
   port placed [**11-23**]
 will need to have R fem HD line replaced
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement. If trach and PEG placed,
   could consider moving to vent rehab.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-29**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-11-30 12:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man with ESRD on HD, s/p cardiac arrest, respiratory failure.
   Started on Keppra for ? of seizures.
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2107-11-29**] 07:13 PM
   placed in IR by Dr. [**Last Name (STitle) 10886**]
 DIALYSIS CATHETER - START [**2107-11-29**] 08:00 PM
   placed in IR [**11-29**]
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-28**] 02:04 PM
   Linezolid - [**2107-11-30**] 12:26 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-11-30**] 04:34 AM
   Labetalol - [**2107-11-30**] 06:15 AM
   Other medications:
   prednison 5mg
   famotadine
   cellcept
   SSI
   albuterol/atrovent
   epo
   keppra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-30**] 12:57 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98.1
   HR: 72 (72 - 94) bpm
   BP: 145/71(95) {93/61(76) - 203/114(315)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.4 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                    880 mL
                                                                  1,184 mL
   PO:
             TF:
   IVF:
                                                                    695 mL
                                                                  1,094 mL
   Blood products:
   Total out:
                                                                  1,467 mL
                                                                    580 mL
   Urine:
                                                                    367 mL
                                                                    430 mL
   NG:
                                                                  1,100 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -587 mL
                                                                    604 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 216 (216 - 216) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 212
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.33/41/191/19/-4
   Ve: 10.1 L/min
   PaO2 / FiO2: 478
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed, opens
   eyes to voice, does not follow commands
   Labs / Radiology
   6.6 g/dL
   316 K/uL
   126 mg/dL
   8.3 mg/dL
   19 mEq/L
   3.8 mEq/L
   82 mg/dL
   98 mEq/L
   136 mEq/L
   20.9 %
   9.1 K/uL
        [image002.jpg]
                            [**2107-11-28**]  01:58 AM
                            [**2107-11-28**]  02:20 AM
                            [**2107-11-29**]  03:12 AM
                            [**2107-11-29**]  03:29 AM
                            [**2107-11-29**]  08:11 AM
                            [**2107-11-29**]  07:29 PM
                            [**2107-11-30**]  02:34 AM
                            [**2107-11-30**]  02:47 AM
                            [**2107-11-30**]  10:35 AM
                            [**2107-11-30**]  10:55 AM
   WBC
   9.0
   10.5
   9.1
   Hct
   22.0
   22.1
   20.9
   Plt
   [**Telephone/Fax (3) 10932**]
   Cr
   6.5
   7.9
   8.3
   8.3
   TCO2
   23
   25
   26
   22
   23
   23
   Glucose
   188
   170
   111
   142
   140
   129
   126
   Other labs: PT / PTT / INR:12.5/31.2/1.1, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/60, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:12.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   respiratory failure:  MS is likely the limiting factor.
   MS is still poor on heavy sedation.  needs to get T+G so we can
   decrease sedation.
   agitation:  Haldol 5mg tid to help control agitation and reduce drips.
   seizures:  ? of seizures on prior EEG, started on keppra.
   ESRD on HD:  to get HD catheter today, and will restart CVVH.
   Has completed 14d of cefepime and 9 days linezolid so will stop
   antibiotics.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-29**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2107-12-01 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2107-11-30**] 04:04 PM
   placed in IR [**11-29**]
 DIALYSIS CATHETER - START [**2107-11-30**] 04:57 PM
 EKG - At [**2107-12-1**] 06:05 AM
   - Have spoken to IP --> they can do on Friday, need to talk with family
   about moving forward. They will get back to us.
   - stopped Cefepime and Linezolid
   - renal recs: calcium will improve with CVVH, to be restarted
   - IR for HD line placement --> DONE! Now has L subclavian HD line and
   CVVH has been restarted.
   - Start Haldol 5 tid
   - Asked attndg to call wife
   - In evening called to assess HTN to 180's. Around 4pm, pt went to IR,
   got Propofol to sedate him, and bp's were 130-150. Came back up, off
   Propofol back to Fent 100/Versed 8. BP's to 180's, resistant to
   Labetalol prn's. Face looks agitated/angry and biting down on ETT.
   Given Seroquel 50mg once.
   - Then, RT switched AC to CPAP bc he was fighting vent. Pt began having
   episode that neuro witnessed other day: staring straight up, not
   blinking. Face tense appearing. Witnessed fasiculations in bilateral
   temporal areas, concerning for electrical discharge in facial nerve??
   Not rigid in rest of body. BP's 170's. --> Will give time for Seroquel
   to work, then consider going up on the Versed, esp if seizure activity.
   - HTN, so scheduled Labetalol. Increased Versed gtt.
   - Once settled down, went back onto AC
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-28**] 02:04 PM
   Linezolid - [**2107-11-30**] 12:26 PM
   Infusions:
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 0.8 grams/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Fentanyl - [**2107-11-30**] 06:00 PM
   Midazolam (Versed) - [**2107-11-30**] 08:00 PM
   Labetalol - [**2107-11-30**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2107-12-1**] 04:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-1**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 88 (66 - 91) bpm
   BP: sbp 93-189 mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,517 mL
                                                                  1,519 mL
   PO:
             TF:
                                                                     90 mL
                                                                    214 mL
   IVF:
                                                                  3,177 mL
                                                                  1,305 mL
   Blood products:
   Total out:
                                                                  3,437 mL
                                                                  1,409 mL
   Urine:
                                                                    660 mL
                                                                    135 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                80  --> approx negative 10L through LOS mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.41/47/179/26/-2
   Ve: 10.2 L/min
   PaO2 / FiO2: 447
   Physical Examination
   General Appearance: Moving head around, eyes closed, drooling copiously
   Cardiovascular: Prominent systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Lungs fairly clear
   Abdominal: Distended but not tight
   Extremities: No BLE edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   324 K/uL
   6.8 g/dL
   148 mg/dL
   5.4 mg/dL
   26 mEq/L
   3.3 mEq/L
   59 mg/dL
   97 mEq/L
   138 mEq/L
   21.7 %
   8.9 K/uL
        [image002.jpg]
                            [**2107-11-29**]  03:29 AM
                            [**2107-11-29**]  08:11 AM
                            [**2107-11-29**]  07:29 PM
                            [**2107-11-30**]  02:34 AM
                            [**2107-11-30**]  02:47 AM
                            [**2107-11-30**]  10:35 AM
                            [**2107-11-30**]  10:55 AM
                            [**2107-11-30**]  09:19 PM
                            [**2107-12-1**]  02:20 AM
                            [**2107-12-1**]  03:46 AM
   WBC
   9.1
   8.9
   Hct
   20.9
   21.7   HAS OVERALL TRENDED DOWN
   Plt
   316
   324
   Cr
   8.3
   8.3
   5.4
   TCO2
   25
   26
   22
   23
   23
   25
   Glucose
   111
   142
   140
   129
   126
   121
   150
   148
   Other labs: PT / PTT / INR:12.5/31.2/1.1, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/60, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:10.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR this am essentially unchanged except new L sided HD line
   placed.
   Microbiology: No new Cx's
   Assessment and Plan
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now vent dependent due to mental status.
    Active issues at this point:
    # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s negative to
   date.  Main hindrance to weaning from vent is his agitation, whenever
   his sedation is weaning he thrashes around, isn
t responsive, looks
   very uncomfortable, drools a lot. This agitation could be in large part
   due to his ETT and we should move towards trach.
   - First priority for today will be to coordinate IP and family for
   trach/PEG tomorrow when IP is available
   - He is also having copious secretions which is concerning for
   aspiration if he were to be weaned from the vent
    # Altered mental status s/p PEA arrest:  Patient obviously has intact
   brainstem reflexes but it is difficult to assess his cortex.  His MRI,
   though severely limited by motion artifact, did not show any signs of
   acute ischemia.  Weaning of sedation has consistently shown agitation.
   He was making some strides towards improvement last week, with
   following commands and responding to the environment, but most recently
   he has just been thrashing around and very agitated when sedation is
   weaned, not following commands, not tracking across the room, not
   making progress.  Changed from Propofol to versed because of
   triglycerides of 700. Most recently, Neuro has noted a staring spell
   that was concerning for continued seizures, so he was on continuous EEG
   for a while, with epileptiform spikes but not outright seizure
   activity. They recommended a Keppra load, with Keppra 250 qday and an
   extra 250 after HD.
   - He is currently written for Keppra 250mg IV q12, will need to clarify
   dose with Neuro
   - Will slowly uptitrate his Versed gtt. Continue on Fentanyl as is.
   - Will continue today with schedule Haldol to see if any improvement in
   his mental status 5mg PO tid
   - Seroquel was also tried last night, but unsure if either the Haldol
   or the Seroquel, or increasing the Versed, has made much difference
   - F/u EKG for Haldol/Seroquel
   - Get baseline EKG for Haldol
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully since yesterday.
   - Continue CVVH per renal recommendations.
   - Continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - Have stopped calcitriol and increased aluminum hydroxide per renal
   recs
   - Renal is following
   # Fever: Continued low-grade temps, although none most recently. Has
   had a long course of Cefepime for a positive UCx about 2 wks ago with
   Pseudomonas and most recently Linezolid was added for purulent
   appearing CVL
s bilaterally that have been removed. One of the CVL
   grew out Micrococcus and according to ID, the Cefepime should have
   covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.
   - Continue off ABx for now, watch fever curve.
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.
   - Will start Epogen with HD
   - Had considered transfusing yesterday, will give him 1U PRBC's today
    # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, and has
   started on scheduled Labetalol.
   - Keep watching pressures, and go up on Labetalol as necessary.
   - If hypoTN returns, stop Labetalol and consider small boluses in
   context of getting CVVH.
   Other less active/stable issues:
   # HypoNa: Had been having issues with hyponatremia, but not recently.
   Continue to watch lytes qday.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
 Will
   need to discuss PEG placement with family
   Prophylaxis: Subcutaneous heparin, PPI
   Access: L art line, R PICC placed [**11-23**], and new L subclavian HD line
   placed [**11-30**]
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement. If trach and PEG placed,
   could consider moving to vent rehab.

2107-12-01 10:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man with ESRD on HD, s/p cardiac arrest, respiratory failure.
   Agitated overnight required
   increased sedation.
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2107-11-30**] 04:04 PM
   placed in IR [**11-29**]
 DIALYSIS CATHETER - START [**2107-11-30**] 04:57 PM
 EKG - At [**2107-12-1**] 06:05 AM
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-11-28**] 02:04 PM
   Linezolid - [**2107-11-30**] 12:26 PM
   Infusions:
   Calcium Gluconate (CRRT) - 0.8 grams/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Fentanyl - [**2107-11-30**] 06:00 PM
   Midazolam (Versed) - [**2107-11-30**] 08:00 PM
   Labetalol - [**2107-11-30**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2107-12-1**] 04:04 AM
   Other medications:
   prednisone 5mg
   chlorhex
   famotadine
   cellcept
   albuterol/atrovent
   renajel
   epo
   keppra
   haldol
   labetolol po
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-1**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 95 (66 - 97) bpm
   BP: 175/87(104) {174/75(98) - 189/90(111)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,517 mL
                                                                  2,324 mL
   PO:
             TF:
                                                                     90 mL
                                                                    309 mL
   IVF:
                                                                  3,177 mL
                                                                  2,019 mL
   Blood products:
   Total out:
                                                                  3,437 mL
                                                                  2,263 mL
   Urine:
                                                                    660 mL
                                                                    172 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                     80 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.41/47/179/26/-2
   Ve: 11.1 L/min
   PaO2 / FiO2: 447
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   324 K/uL
   148 mg/dL
   5.4 mg/dL
   26 mEq/L
   3.3 mEq/L
   59 mg/dL
   97 mEq/L
   138 mEq/L
   21.7 %
   8.9 K/uL
        [image002.jpg]
                            [**2107-11-29**]  03:29 AM
                            [**2107-11-29**]  08:11 AM
                            [**2107-11-29**]  07:29 PM
                            [**2107-11-30**]  02:34 AM
                            [**2107-11-30**]  02:47 AM
                            [**2107-11-30**]  10:35 AM
                            [**2107-11-30**]  10:55 AM
                            [**2107-11-30**]  09:19 PM
                            [**2107-12-1**]  02:20 AM
                            [**2107-12-1**]  03:46 AM
   WBC
   9.1
   8.9
   Hct
   20.9
   21.7
   Plt
   316
   324
   Cr
   8.3
   8.3
   5.4
   TCO2
   25
   26
   22
   23
   23
   25
   Glucose
   111
   142
   140
   129
   126
   121
   150
   148
   Other labs: PT / PTT / INR:12.5/31.2/1.1, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/60, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:10.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   Respiratory failure:  Agitation is major limitation on weaning.  Will
   need to T+G
   Continue increasing haldol to better control.  try and wean drips.
   seizures:  may be having seizure activity.  uptitrating keppra.
   anemia:  transfuse 1 unit.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-11-15**] 12:00 PM
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-12-02 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p PEA arrest
   24 Hour Events:
 ARTERIAL LINE - STOP [**2107-12-1**] 11:44 AM
 ARTERIAL LINE - START [**2107-12-1**] 11:47 AM
   transfused 1 U PRBC
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2107-11-30**] 12:26 PM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 0.6 grams/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-2**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98.1
   HR: 90 (79 - 104) bpm
   BP: 131/75(94) {97/51(65) - 203/100(123)} mmHg
   RR: 17 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  6,195 mL
                                                                  2,172 mL
   PO:
             TF:
                                                                    885 mL
                                                                    125 mL
   IVF:
                                                                  4,930 mL
                                                                  2,047 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,761 mL
                                                                  2,113 mL
   Urine:
                                                                    289 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    434 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 447 (447 - 447) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.32/57/165/26/1
   Ve: 11.2 L/min
   PaO2 / FiO2: 412
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   313 K/uL
   8.0 g/dL
   144 mg/dL
   3.7 mg/dL
   26 mEq/L
   4.3 mEq/L
   40 mg/dL
   100 mEq/L
   138 mEq/L
   25.4 %
   10.6 K/uL
        [image002.jpg]
                            [**2107-12-1**]  02:20 AM
                            [**2107-12-1**]  03:46 AM
                            [**2107-12-1**]  08:45 AM
                            [**2107-12-1**]  12:17 PM
                            [**2107-12-1**]  03:00 PM
                            [**2107-12-1**]  03:56 PM
                            [**2107-12-1**]  08:17 PM
                            [**2107-12-1**]  10:00 PM
                            [**2107-12-2**]  01:14 AM
                            [**2107-12-2**]  01:20 AM
   WBC
   8.9
   9.8
   10.6
   Hct
   21.7
   22.1
   25.4
   Plt
   324
   331
   313
   Cr
   5.4
   4.7
   4.3
   3.7
   TCO2
   32
   33
   32
   31
   Glucose
   150
   148
   356
   149
   124
   127
   159
   146
   144
   Other labs: PT / PTT / INR:13.2/29.8/1.1, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/60, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:10.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Imaging: CXR [**2107-12-1**]
   The ET tube tip is 6 cm above the carina. The left subclavian line tip
   is at
   the proximal right atrium. The right PICC line tip is in the low SVC.
   Cardiomediastinal silhouette is unchanged. No evidence of pneumothorax
   after
   insertion of the left subclavian double-lumen catheter has been
   demonstrated.
   Bibasilar atelectasis are unchanged.
   Microbiology: No new cultures
   Assessment and Plan
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
    Active issues at this point:
   .
    # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s negative to
   date.  Main hindrance to weaning from vent is his agitation, whenever
   his sedation is weaning he thrashes around, isn
t responsive, looks
   very uncomfortable, drools a lot. This agitation could be in large part
   due to his ETT and trach placement should help with this.
   - IP for trach and PEG--> need to call to assure is on schedule
   - He is also having copious secretions which is concerning for
   aspiration if he were to be weaned from the vent
   - He is very agitated and difficult to be weaned from the vent
   .
    # Altered mental status s/p PEA arrest:  Patient obviously has intact
   brainstem reflexes but it is difficult to assess his cortex.  His MRI,
   though severely limited by motion artifact, did not show any signs of
   acute ischemia.  Weaning of sedation has consistently shown agitation.
   He was making some strides towards improvement last week, with
   following commands and responding to the environment, but most recently
   he has just been thrashing around and very agitated when sedation is
   weaned, not following commands, not tracking across the room, not
   making progress.  Changed from Propofol to versed because of
   triglycerides of 700. Most recently, Neuro has noted a staring spell
   that was concerning for continued seizures, so he was on continuous EEG
   for a while, with epileptiform spikes but not outright seizure
   activity. They recommended a Keppra load, with Keppra 250 qday and an
   extra 250 after HD.
   - He is currently written for Keppra 250mg IV q12, will need to clarify
   dose with Neuro
   - Will slowly uptitrate his Versed gtt. Continue on Fentanyl as is.
   - Increase haldol to 10mg tid
   - F/u EKG done today because of Haldol/Seroquel use
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully since yesterday.
   - Continue CVVH per renal recommendations.
   - Continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - Have stopped calcitriol and increased aluminum hydroxide per renal
   recs
   - Renal is following
   .
   # Fever: Continued low-grade temps, although none most recently. Has
   had a long course of Cefepime for a positive UCx about 2 wks ago with
   Pseudomonas and most recently Linezolid was added for purulent
   appearing CVL
s bilaterally that have been removed. One of the CVL
   grew out Micrococcus and according to ID, the Cefepime should have
   covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.
   - Continue off ABx for now, watch fever curve.
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.
   - Will start Epogen with HD
   - Transfuse 1U PRBC's today
   .
    # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, and has
   started on scheduled Labetalol.
   - Keep watching pressures, and go up on Labetalol as necessary.
   - If hypoTN returns, stop Labetalol and consider small boluses in
   context of getting CVVH.
   .
   Other less active/stable issues:
   .
   # HypoNa: Had been having issues with hyponatremia, but not recently.
   Continue to watch lytes qday.
   .
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   .
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   .
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
 Will
   need to discuss PEG placement with family
   Prophylaxis: Subcutaneous heparin, PPI
   Access: ART line placed [**12-1**], R PICC placed [**11-23**], and new L
   subclavian HD line placed [**11-30**]
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement. If trach and PEG placed,
   could consider moving to vent rehab.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-02 09:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man with respiratory failure s/p cardiac arrest.  Still agitated
   requiring heavy sedation
   24 Hour Events:
 ARTERIAL LINE - STOP [**2107-12-1**] 11:44 AM
 ARTERIAL LINE - START [**2107-12-1**] 11:47 AM
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2107-11-30**] 12:26 PM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 0.6 grams/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-12-2**] 08:25 AM
   Other medications:
   cell cept
   renajel
   keppra
   haldol
   labetolol
   fentanyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-2**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.9
   HR: 96 (79 - 104) bpm
   BP: 145/76(93) {145/76(93) - 227/116(133)} mmHg
   RR: 19 (17 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  6,195 mL
                                                                  2,987 mL
   PO:
             TF:
                                                                    885 mL
                                                                    125 mL
   IVF:
                                                                  4,930 mL
                                                                  2,752 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,761 mL
                                                                  2,495 mL
   Urine:
                                                                    289 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    434 mL
                                                                    496 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 447 (447 - 447) mL
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.38/41/114/26/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   313 K/uL
   114 mg/dL
   3.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   40 mg/dL
   100 mEq/L
   138 mEq/L
   25.4 %
   10.6 K/uL
        [image002.jpg]
                            [**2107-12-1**]  03:46 AM
                            [**2107-12-1**]  08:45 AM
                            [**2107-12-1**]  12:17 PM
                            [**2107-12-1**]  03:00 PM
                            [**2107-12-1**]  03:56 PM
                            [**2107-12-1**]  08:17 PM
                            [**2107-12-1**]  10:00 PM
                            [**2107-12-2**]  01:14 AM
                            [**2107-12-2**]  01:20 AM
                            [**2107-12-2**]  08:18 AM
   WBC
   9.8
   10.6
   Hct
   22.1
   25.4
   Plt
   331
   313
   Cr
   4.7
   4.3
   3.7
   TCO2
   32
   33
   32
   31
   25
   Glucose
   148
   356
   149
   124
   127
   159
   146
   144
   114
   Other labs: PT / PTT / INR:13.2/29.8/1.1, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/60, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.6 mmol/L, LDH:167 IU/L, Ca++:10.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   Respiratory failure:  Main barrier is poor MS.  Is having more
   secretions today so will check new chest XR.
   altered MS:  on reduced doses of the drips with standing haldol
   anemia:  on epo
   T+G today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2107-12-03 08:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p PEA arrest
   24 Hour Events:
 PEG INSERTION - At [**2107-12-2**] 01:23 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2107-12-2**] 01:23 PM
 URINE CULTURE - At [**2107-12-2**] 02:54 PM
 BLOOD CULTURED - At [**2107-12-2**] 02:54 PM
   off dialysis line and off aline
 BRONCHOSCOPY - At [**2107-12-2**] 03:23 PM
 FEVER - 102.1
F - [**2107-12-2**] 07:00 PM
   Labile BP, had to start Labetalol drip last night
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2107-11-30**] 12:26 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-12-2**] 08:25 AM
   Cisatracurium - [**2107-12-2**] 01:25 PM
   Labetalol - [**2107-12-2**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2107-12-3**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-3**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.6
C (99.6
   HR: 89 (82 - 108) bpm
   BP: 144/61(86) {73/50(61) - 190/106(129)} mmHg
   RR: 18 (18 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.4 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,888 mL
                                                                    487 mL
   PO:
             TF:
                                                                    125 mL
   IVF:
                                                                  4,504 mL
                                                                    457 mL
   Blood products:
   Total out:
                                                                  3,977 mL
                                                                      0 mL
   Urine:
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    911 mL
                                                                    487 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.34/45/98.[**Numeric Identifier 248**]/22/-1
   Ve: 8.7 L/min
   PaO2 / FiO2: 245
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   7.0 g/dL
   119 mg/dL
   4.5 mg/dL
   22 mEq/L
   4.4 mEq/L
   45 mg/dL
   103 mEq/L
   139 mEq/L
   22.1 %
   12.2 K/uL
        [image002.jpg]
                            [**2107-12-1**]  03:56 PM
                            [**2107-12-1**]  08:17 PM
                            [**2107-12-1**]  10:00 PM
                            [**2107-12-2**]  01:14 AM
                            [**2107-12-2**]  01:20 AM
                            [**2107-12-2**]  08:18 AM
                            [**2107-12-2**]  04:32 PM
                            [**2107-12-2**]  04:50 PM
                            [**2107-12-3**]  03:00 AM
                            [**2107-12-3**]  06:33 AM
   WBC
   10.6
   12.2
   Hct
   25.4
   22.3
   22.1
   Plt
   313
   293
   Cr
   3.7
   3.5
   4.5
   TCO2
   33
   32
   31
   25
   25
   Glucose
   127
   159
   146
   144
   114
   116
   119
   Other labs: PT / PTT / INR:13.2/29.8/1.1, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/60, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.9 mmol/L, LDH:167 IU/L, Ca++:11.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.9 mg/dL
   Imaging: [**2107-12-2**] CXR
   FINDINGS: The previously subtotally collapsed left lung is now
   reexpanded.
   Small areas of atelectasis are limited to the basal and retrocardiac
   areas.
   The free air after PEG tube placement is now evident under the right
   hemidiaphragm. The monitoring and support devices are unchanged. No
   parenchymal opacities in the right lung.
   Microbiology: [**2107-12-2**] 9:44 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2107-12-3**]):
         >25 PMNs and <10 epithelial cells/100X field.    1+    (<1 per
   1000X FIELD):   GRAM POSITIVE COCCI.
    IN PAIRS.    1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   All new cultures are negative
   Assessment and Plan
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
    Active issues at this point:
    # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s negative to
   date.  Main hindrance to weaning from vent is his agitation, whenever
   his sedation is weaning he thrashes around, isn
t responsive, looks
   very uncomfortable, drools a lot. This agitation could be in large part
   due to his ETT and we should move towards trach.  Trach and PEG
   yesterday
   - Low grade fevers, secretions on L, L lobe collapse, gm (+) cocci and
   GNR--> start VAP treatment with cefipime, vanc, and cipro
   - weaning sedation in now that using PO haldol and seroquel.  Has been
   tolerating decrease in midaz by 2 and fentanyl by 25 every shift
   .
    # Altered mental status s/p PEA arrest:  Patient obviously has intact
   brainstem reflexes but it is difficult to assess his cortex.  His MRI,
   though severely limited by motion artifact, did not show any signs of
   acute ischemia.  Weaning of sedation has consistently shown agitation.
   He was making some strides towards improvement last week, with
   following commands and responding to the environment, but most recently
   he has just been thrashing around and very agitated when sedation is
   weaned, not following commands, not tracking across the room, not
   making progress.  Changed from Propofol to versed because of
   triglycerides of 700. Most recently, Neuro has noted a staring spell
   that was concerning for continued seizures, so he was on continuous EEG
   for a while, with epileptiform spikes but not outright seizure
   activity. They recommended a Keppra load, with Keppra 250 qday and an
   extra 250 after HD.
   - He is currently written for Keppra 250mg IV q12, will need to clarify
   dose with Neuro
   - Weaning his drip sedations now that treating with haldol and
   seroquel.
   - F/u EKG daily because of Haldol/Seroquel use
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully since yesterday.
   - Will get HD today and a unit of pRBC
   - Continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - Have stopped calcitriol and increased aluminum hydroxide per renal
   recs
   - Renal is following
   .
   # Fever: Continued low-grade temps, although none most recently. Has
   had a long course of Cefepime for a positive UCx about 2 wks ago with
   Pseudomonas and most recently Linezolid was added for purulent
   appearing CVL
s bilaterally that have been removed. One of the CVL
   grew out Micrococcus and according to ID, the Cefepime should have
   covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.
   - Start antibiotics as above.
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.
   - EPO at HD
   - Transfuse 1U PRBC's today
   - guaiac stools
   - hemolytic w/u: haptoglpobin, smear, tbili, ibili, and fibrinogen
    .
    # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive.  Had to
   start labetalol drip last night because could not control BP.  Stop
   drip for HD and reassess after HD session
   - Keep watching pressures
   - Add labetalol as need this afternoon
   .
   Other less active/stable issues:
   # HypoNa: Had been having issues with hyponatremia, but not recently.
   Continue to watch lytes qday.
   .
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   .
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   .
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
 Will
   need to discuss PEG placement with family
   Prophylaxis: Subcutaneous heparin, PPI
   Access: L art line
 need new art line placed today, R PICC placed
   [**11-23**], and new L subclavian HD line placed [**11-30**]
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement. If trach and PEG placed,
   could consider moving to vent rehab.

2107-12-03 11:23:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, hypertension, altered
   mental status, acute renal failure, acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had PEG, trach yesterday. s/p procedure had Left lung atelectasis,
   which improved post bronch.
   ON Assist control with FIO2=0.4. Oxygenation good.
   Labile BP yesterday with hypertension. On labetalol now for this.
   Temp up to [**Age over 90 **] yesterday.
   24 Hour Events:
 PEG INSERTION - At [**2107-12-2**] 01:23 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2107-12-2**] 01:23 PM
 URINE CULTURE - At [**2107-12-2**] 02:54 PM
 BLOOD CULTURED - At [**2107-12-2**] 02:54 PM
   off dialysis line and off aline
 BRONCHOSCOPY - At [**2107-12-2**] 03:23 PM
 FEVER - 102.1
F - [**2107-12-2**] 07:00 PM
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2107-11-30**] 12:26 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Cisatracurium - [**2107-12-2**] 01:25 PM
   Labetalol - [**2107-12-2**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2107-12-3**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-3**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.2
C (99
   HR: 88 (83 - 108) bpm
   BP: 158/68(96) {73/50(61) - 190/106(129)} mmHg
   RR: 18 (18 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.4 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,888 mL
                                                                    612 mL
   PO:
             TF:
                                                                    125 mL
   IVF:
                                                                  4,504 mL
                                                                    582 mL
   Blood products:
   Total out:
                                                                  3,977 mL
                                                                      0 mL
   Urine:
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    911 mL
                                                                    612 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.34/45/98.[**Numeric Identifier 248**]/22/-1
   Ve: 9 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Few scattered rales, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: Near PEG, No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not assessed, Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   293 K/uL
   119 mg/dL
   4.5 mg/dL
   22 mEq/L
   4.4 mEq/L
   45 mg/dL
   103 mEq/L
   139 mEq/L
   22.1 %
   12.2 K/uL
        [image002.jpg]
                            [**2107-12-1**]  03:56 PM
                            [**2107-12-1**]  08:17 PM
                            [**2107-12-1**]  10:00 PM
                            [**2107-12-2**]  01:14 AM
                            [**2107-12-2**]  01:20 AM
                            [**2107-12-2**]  08:18 AM
                            [**2107-12-2**]  04:32 PM
                            [**2107-12-2**]  04:50 PM
                            [**2107-12-3**]  03:00 AM
                            [**2107-12-3**]  06:33 AM
   WBC
   10.6
   12.2
   Hct
   25.4
   22.3
   22.1
   Plt
   313
   293
   Cr
   3.7
   3.5
   4.5
   TCO2
   33
   32
   31
   25
   25
   Glucose
   127
   159
   146
   144
   114
   116
   119
   Other labs: PT / PTT / INR:13.2/29.8/1.1, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:23/31, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:/60, Differential-Neuts:68.5 %, Lymph:19.5 %, Mono:7.3
   %, Eos:4.5 %, Lactic Acid:0.9 mmol/L, LDH:167 IU/L, Ca++:11.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   ANEMIA
   =======================
   Less agitation since trach/PEG. Going down on sedation. Will change to
   PSV to see if he can begin supporting his own ventilation. Oxygenation
   adequate on FIO2=0.4.
   BP 140 on dialysis now. [**Month (only) 60**] need some regular oral beta blocker, which
   he reqiured at home.
   Fever in past 24 hours. Sputum now growing gram positive cocci and gram
   negative rods. Antibiotics being restarted. WBC up slightly to 12. CXR
   possibly some subtle patchy infiltrate. Repeat CXR in next 24 hrs
   before labeling as VAP.
   Hct drifting down. Getting transfusion with dialsysis.
   Anion gap acidosis likely related to his renal failure. Getting
   dialysis today.
   ICU Care
   Nutrition:  begin tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2107-12-04 08:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2107-12-3**] 05:22 PM
   from dialysis cath
 SPUTUM CULTURE - At [**2107-12-3**] 05:22 PM
 FEVER - 102.7
F - [**2107-12-3**] 05:00 PM
   [**12-3**]
   - start cefepime, linezolid (allergic to vanco), cipro
   - start methadone 10 tid
   - stop haldol, start 75 tid seroquel
   - f/u 3pm Hct and if continuing to decrease, do hemolytic workup
   - switch Labetalol gtt to PO labetalol 600 [**Hospital1 **]
   - pressure support trial --> did not happen due to temp spike,
   hypotension as below
   - 4pm 100.9 Tylenol, pressure dropping, 102.7, diaphoretic, systolic
   70-80, tachy 110 --> 500cc NS bolus -->
   - F/u EKG --> QTc 422
   - 1U PRBC transfusion 22.1 --> 25.1
   - Started TF's
   - 345p ABG: 7.53/40/139/35
   - Spiked temp to 101.2 and new hypoTN to 70's --> re-Cx'd, new CXR and
   KUB. Spoke to ID for approval, if he continues spiking they are aware
   and will formally consult. He is grimacing when is abdomen is palpated
   (did have PEG placed), but is not rigid through serial exams
   - Renal recs:  HD today, plan for 2.5-3kg, rec further w/u of anemia
   (hemolysis or Abs), consider imaging, continue AlOH for 1 more day
   would then change to renagel 800 tid
   - Fent down to 75 and Versed off
   [**12-3**]
   - Need to change AlOH to Renagel per renal recs
   - F/u CXR and KUB reads
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-12-3**] 07:00 PM
   Linezolid - [**2107-12-3**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-12-3**] 08:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-4**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.6
C (101.4
   HR: 93 (87 - 115) bpm
   BP: 107/67(81) {73/48(57) - 161/90(105)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.8 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,110 mL
                                                                    477 mL
   PO:
             TF:
                                                                    112 mL
                                                                    185 mL
   IVF:
                                                                  1,908 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                       110  --> negative 8L through LOS mL
                                                                    477 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/42/108/27/7   THIS AM FAIRLY STABLE
   Ve: 8.1 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Trached, PEG'd.
   Cardiovascular: Higher pitched systolic murmur at RSB and lower pitched
   systolic murmur at LSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Very rhonchorous upper airway sounds throughout
   lung fields, decreased at bases
   Abdominal: Grimaces to palpation of abdomen, not rigid though.
   Extremities: No BLE edema noted
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Opens eyes to voice but does not track. Does not follow
   commands. Does not do anything other than open eyes. Blinks to visual
   confrontation.
   Labs / Radiology
   265 K/uL
   7.7 g/dL
   159 mg/dL
   4.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   38 mg/dL
   91 mEq/L
   135 mEq/L
   24.5 %
   14.5 K/uL
        [image002.jpg]
                            [**2107-12-2**]  04:32 PM
                            [**2107-12-2**]  04:50 PM
                            [**2107-12-3**]  03:00 AM
                            [**2107-12-3**]  06:33 AM
                            [**2107-12-3**]  03:28 PM
                            [**2107-12-3**]  03:31 PM
                            [**2107-12-3**]  03:45 PM
                            [**2107-12-3**]  07:52 PM
                            [**2107-12-4**]  02:24 AM
                            [**2107-12-4**]  02:43 AM
   WBC
   12.2
   14.5   RISING
   Hct
   22.3
   22.1
   25.1
   24.5  S/P 1U YESTERDAY
   Plt
   293
   265  STABLE
   Cr
   3.5
   4.5
   3.2
   4.5
   TCO2
   25
   35
   31
   33
   Glucose
   116
   119
   136
   142
   159
   161
   159
   Other labs: PT / PTT / INR:15.1/34.2/1.3   PT AND INR ELEVATED
   YESTERDAY , CK / CKMB / Troponin-T:399/6/0.11, ALT / AST:62/87
   RISING, Alk Phos / T Bili:260/1.2   RISING , Amylase / Lipase:100/24,
   Differential-Neuts:78.2 %, Lymph:12.8 %, Mono:4.3 %, Eos:4.5 %   HAS
   BEEN RISING , Fibrinogen:1137 mg/dL, Lactic Acid:0.9 mmol/L, LDH:315
   IU/L, Ca++:10.6 mg/dL  ELEVATED, Mg++:2.3 mg/dL, PO4:5.2 mg/dL
   ELEVATED
   Fluid analysis / Other labs: smear collected
   Fibrinogen 1137 normal
   FDP 10-40 elevated
   hapto normal
   Imaging: [**12-3**] abdomen plain film
   s/p PEG Non-obstrucated bowel gas pattern Lucency across upper adbomen
   may be free air from PEG procedure Vs gas trapped under pannus Consider
   upright
   [**12-3**] CXR in the pm with a little more haziness overlying the R
   hemidiaphragm. R heart border is not as clear.
   Microbiology: aspergillus and beta glucan pending
   myco/lytic blood Cx pending
   [**12-3**] Bcx pending
   [**2107-12-3**] 5:32 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2107-12-3**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   [**12-2**] Urine Cx negative
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
    Active issues at this point:
   # New spiking fevers, hypotension: Infection (recent sputum with
   Micrococcus and now with positive sputum Cx's as well) vs blood
   transfusion reaction (got 1U yesterday, hasn't received transfusions
   before this), possible drug reaction (started Keppra recently) vs TTP
   (less likely) vs abdominal perforation with free air under diaphragm
   (although just had PEG placed).
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.
   - Tylenol 650mg PO elixir q6hrs scheduled
   - ID consult, will appreciate their recs in terms of managing ABx and
   also helping find a source.
   - Surface echo to eval for vegetations.
   - will likely need to pull PICC and replace with new R IJ CVL
 now
   that pt is no longer intubated with ETT, he is not drooling as much,
   and hopefully line infxn with drool will not be an issue as it was in
   past. [**Month (only) 60**] need to talk to IR about pulling the PICC, see below under
   less active/stable issues.
   - ABx as started yesterday: Cefipime, Linezolid, Cipro for L lobe
   collapse, GPC and GNR's on sputum
   - Consider broadening with Flagyl to cover anaerobes and gut flora
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - Consider stopping the Keppra --> talk to Neuro about this first
   though
   - No more transfusions for now
   - F/u with Heme Onc about the smear that was collected, specifically
   looking for shistos
   - [**Male First Name (un) **]
t give Labetalol while pt hypotense
   - Pt continues on Levophed for now, if unable to wean, would consider
   adding Vasopressin
   - Consider CT thorax to look for source
    # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s negative to
   date.  Main hindrance to weaning from vent is his agitation, whenever
   his sedation is weaning he thrashes around, isn
t responsive, looks
   very uncomfortable, drools a lot. This agitation could be in large part
   due to his ETT and we should move towards trach.  Trach and PEG
   yesterday
   - Will defer trach mask trials/RSBI/SBT's in the setting of active
   febrility
    # Altered mental status s/p PEA arrest:  Patient obviously has intact
   brainstem reflexes but it is difficult to assess his cortex.  His MRI,
   though severely limited by motion artifact, did not show any signs of
   acute ischemia.  Weaning of sedation has consistently shown agitation.
   He was making some strides towards improvement last week, with
   following commands and responding to the environment, but most recently
   he has just been thrashing around and very agitated when sedation is
   weaned, not following commands, not tracking across the room, not
   making progress.  Changed from Propofol to versed because of
   triglycerides of 700. Most recently, Neuro has noted a staring spell
   that was concerning for continued seizures, so he was on continuous EEG
   for a while, with epileptiform spikes but not outright seizure
   activity. They recommended a Keppra load, with Keppra 250 qday and an
   extra 250 after HD.
   - He is currently written for Keppra 250mg IV q12, will need to clarify
   dose with Neuro
   - Continue weaning sedation. Currently off the Versed and using only
   Fentanyl and scheduled Seroquel. Stopped Haldol yesterday
   - Have added methadone 10mg TID to assist with weaning fentanyl.
   - F/u EKG daily because of Haldol/Seroquel use
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - Had HD yesterday
   - F/u with renal about next HD
   - Continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - Renal recs stopping AlOH and starting Renagel today 800 tid
 will
   do this today
   - Have stopped calcitriol and increased aluminum hydroxide per renal
   recs
   - Renal is following
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.
   - Doesn't appear to be DIC, or hemolysis
   - EPO at HD
   - Had 1U PRBC transfusion yesterday
   - guaiac stools
    # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive.
   - Keep watching pressures
   - Hold Labetalol for low bp's and give prn for elevated bp's.
   Other less active/stable issues:
   # HypoNa: Had been having issues with hyponatremia, but not recently.
   Continue to watch lytes qday.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, PPI
   Access: L art line which has been intermittently working and not
   working, may need to be replaced at some point. R PICC placed [**11-23**] now
   also reportedly not working, and may need to be pulled due to fevers,
   and if so, will need to have new central line placed. New L subclavian
   HD line placed [**11-30**], would be very hesitant to pull this line given
   how difficult it was to place.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement. If trach and PEG placed,
   could consider moving to vent rehab.

2107-12-04 10:40:00 Physician Attending Progress Note
Chief Complaint: Renal failure, acute respiratory failure, hypotension,
   fever, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continued fevers through the day yesterday. Dropped BP, which did not
   respond to IV fluid boluses. Norepinephrine started. Noted to have
   abdominal tenderness. KUB with free air in the abdomen (patient had
   recent PEG placement). WBC rising.  Mental status has become altered;
   less responsive to staff.
   Transfused one unit of PRBCs.
   On vent overnight. Acceptable blood gases.
   24 Hour Events:
 BLOOD CULTURED - At [**2107-12-3**] 05:22 PM
   from dialysis cath
 SPUTUM CULTURE - At [**2107-12-3**] 05:22 PM
 FEVER - 102.7
F - [**2107-12-3**] 05:00 PM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-12-3**] 07:00 PM
   Linezolid - [**2107-12-4**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-12-3**] 08:48 PM
   Famotidine (Pepcid) - [**2107-12-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-4**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.7
C (99.8
   HR: 84 (84 - 115) bpm
   BP: 143/68(93) {73/48(57) - 151/90(136)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.8 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,110 mL
                                                                  1,041 mL
   PO:
             TF:
                                                                    112 mL
                                                                    262 mL
   IVF:
                                                                  1,908 mL
                                                                    568 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    110 mL
                                                                  1,041 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/42/108/27/7
   Ve: 8.1 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur throughout the precordium.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral lung fields, No(t) Crackles : ,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Tender: localized to area around PEG site, Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed, Opens eyes and tracks
   people but does not follow simple commands
   Labs / Radiology
   7.7 g/dL
   265 K/uL
   159 mg/dL
   4.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   38 mg/dL
   91 mEq/L
   135 mEq/L
   24.5 %
   14.5 K/uL
        [image002.jpg]
                            [**2107-12-2**]  04:32 PM
                            [**2107-12-2**]  04:50 PM
                            [**2107-12-3**]  03:00 AM
                            [**2107-12-3**]  06:33 AM
                            [**2107-12-3**]  03:28 PM
                            [**2107-12-3**]  03:31 PM
                            [**2107-12-3**]  03:45 PM
                            [**2107-12-3**]  07:52 PM
                            [**2107-12-4**]  02:24 AM
                            [**2107-12-4**]  02:43 AM
   WBC
   12.2
   14.5
   Hct
   22.3
   22.1
   25.1
   24.5
   Plt
   293
   265
   Cr
   3.5
   4.5
   3.2
   4.5
   TCO2
   25
   35
   31
   33
   Glucose
   116
   119
   136
   142
   159
   161
   159
   Other labs: PT / PTT / INR:15.1/34.2/1.3, CK / CKMB /
   Troponin-T:399/6/0.11, ALT / AST:62/87, Alk Phos / T Bili:260/1.2,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:0.9 mmol/L,
   LDH:315 IU/L, Ca++:10.6 mg/dL, Mg++:2.3 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   HYPOTENSION
   ANEMIA
   ======================
   Patient with persistent fevers in past 36 hours and rising WBC. Now
   hypotensive as well - concern for sepsis. Cultures pending.  On broad
   spectrum antibiotics. Need to consider possible dialysis line infection
   concerning that his condition worsened post dialysis yesterday. Remove
   PIC. Abdominal exam benign except in region of recent PEG placment.
   Galactomannan being checked.    Consider echocardiogram to assess for
   cardiac vegetations.
   Would vasopressin to pressors given possible sepsis. Try to wean
   levophed. Difficult to assess intravascular volume, but lack of
   response to fluid boluses yesterday suggests that he is not
   significantly volume depleted.
   Had dialysis yesterday; electrolytes and acid-base status acceptable.
   Decreased level of responsiveness probably reflects delirium in setting
   of fevers.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-4**] 05:58 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2107-12-05 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2107-12-4**] 08:00 AM
   - Pt had worrisome EKG changes for ischemia (transient ST elevations in
   the setting of hypertension). Improved as BP came down, cards not
   impressed w/ EKG.  Trop near his baseline and flat.  Got lopressor and
   SL nitro to control HTN and bottomed out.
   - Then spiked fever to 101.5 accompanied w/ hypotension. Given
   temporary Neo gtt.  Blood cx drawn.
   - ID consult: recommended stopping cipro and linezolid and starting
   zosyn and vancomycin with a slow infusion (given unclear history of
   allergy of rash) to start. Consider sucralfate instead of famotidine.
   - changed cipro for zosyn -> contact[**Name (NI) **] by pharmacy as they wanted us to
   consider tobramycin instead, but we are avoiding that b/c of his renal
   fxn.  Could discuss with renal, as transplant may not be salvageable.
   Didn't start vanco as it was late, can be attempted in AM.
   - repeated attempts at right IJ, but wire does not pass - ? stenosis.
   Patient lost quit a bit of blood in process, so may have Hct drop.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-12-4**] 06:10 PM
   Linezolid - [**2107-12-4**] 07:44 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-5**] 01:58 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Phenylephrine - 1.8 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-12-4**] 08:00 AM
   Metoprolol - [**2107-12-4**] 02:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-5**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.4
C (101.1
   HR: 116 (83 - 116) bpm
   BP: 85/46(58) {69/41(50) - 174/82(136)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.4 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,363 mL
                                                                    630 mL
   PO:
                                                                    660 mL
                                                                     90 mL
   TF:
                                                                    681 mL
                                                                    274 mL
   IVF:
                                                                  1,753 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,363 mL
                                                                    630 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.42/44/140/25/4
   Ve: 8.3 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   7.0 g/dL
   182 mg/dL
   6.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   58 mg/dL
   94 mEq/L
   131 mEq/L
   22.3 %
   14.9 K/uL
        [image002.jpg]
                            [**2107-12-3**]  03:31 PM
                            [**2107-12-3**]  03:45 PM
                            [**2107-12-3**]  07:52 PM
                            [**2107-12-4**]  02:24 AM
                            [**2107-12-4**]  02:43 AM
                            [**2107-12-4**]  01:34 PM
                            [**2107-12-4**]  09:50 PM
                            [**2107-12-4**]  10:25 PM
                            [**2107-12-5**]  04:00 AM
                            [**2107-12-5**]  04:17 AM
   WBC
   14.5
   14.9
   Hct
   24.5
   22.3
   Plt
   265
   276
   Cr
   3.2
   4.5
   5.4
   6.4
   TropT
   0.18
   0.19
   TCO2
   35
   31
   33
   30
   30
   Glucose
   136
   142
   159
   161
   159
   122
   [**Telephone/Fax (3) 10961**]
   Other labs: PT / PTT / INR:15.1/34.2/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:58/64, Alk Phos / T Bili:265/1.1,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:0.9 mmol/L,
   LDH:227 IU/L, Ca++:11.0 mg/dL, Mg++:2.7 mg/dL, PO4:7.2 mg/dL
   Beta-glucan and galactomannan; pending
   Sputum [**12-2**]: sparse GNR and sparse coag + staph aureus
   Sputum [**12-3**]: 2+ GPcocci in pairs, 1+ GNR
   Blood culture [**2027-12-2**] pending
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   ICU Care
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
    Active issues at this point:
   # New spiking fevers, hypotension: Infection (recent sputum with
   Micrococcus and now with positive sputum Cx's as well) vs blood
   transfusion reaction (got 1U yesterday, hasn't received transfusions
   before this), possible drug reaction (started Keppra recently) vs TTP
   (less likely) vs abdominal perforation with free air under diaphragm
   (although just had PEG placed).
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.
   - Tylenol 650mg PO elixir q6hrs scheduled
   - ID consult, will appreciate their recs in terms of managing ABx and
   also helping find a source.
   - Surface echo to eval for vegetations.
   - will likely need to pull PICC and replace with new R IJ CVL
 now
   that pt is no longer intubated with ETT, he is not drooling as much,
   and hopefully line infxn with drool will not be an issue as it was in
   past. [**Month (only) 60**] need to talk to IR about pulling the PICC, see below under
   less active/stable issues.
   - ABx as started yesterday: Cefipime, Linezolid, Cipro for L lobe
   collapse, GPC and GNR's on sputum
   - Consider broadening with Flagyl to cover anaerobes and gut flora
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - Consider stopping the Keppra --> talk to Neuro about this first
   though
   - No more transfusions for now
   - F/u with Heme Onc about the smear that was collected, specifically
   looking for shistos
   - [**Male First Name (un) **]
t give Labetalol while pt hypotense
   - Pt continues on Levophed for now, if unable to wean, would consider
   adding Vasopressin
   - Consider CT thorax to look for source
    # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s negative to
   date.  Main hindrance to weaning from vent is his agitation, whenever
   his sedation is weaning he thrashes around, isn
t responsive, looks
   very uncomfortable, drools a lot. This agitation could be in large part
   due to his ETT and we should move towards trach.  Trach and PEG
   yesterday
   - Will defer trach mask trials/RSBI/SBT's in the setting of active
   febrility
    # Altered mental status s/p PEA arrest:  Patient obviously has intact
   brainstem reflexes but it is difficult to assess his cortex.  His MRI,
   though severely limited by motion artifact, did not show any signs of
   acute ischemia.  Weaning of sedation has consistently shown agitation.
   He was making some strides towards improvement last week, with
   following commands and responding to the environment, but most recently
   he has just been thrashing around and very agitated when sedation is
   weaned, not following commands, not tracking across the room, not
   making progress.  Changed from Propofol to versed because of
   triglycerides of 700. Most recently, Neuro has noted a staring spell
   that was concerning for continued seizures, so he was on continuous EEG
   for a while, with epileptiform spikes but not outright seizure
   activity. They recommended a Keppra load, with Keppra 250 qday and an
   extra 250 after HD.
   - He is currently written for Keppra 250mg IV q12, will need to clarify
   dose with Neuro
   - Continue weaning sedation. Currently off the Versed and using only
   Fentanyl and scheduled Seroquel. Stopped Haldol yesterday
   - Have added methadone 10mg TID to assist with weaning fentanyl.
   - F/u EKG daily because of Haldol/Seroquel use
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - Had HD yesterday
   - F/u with renal about next HD
   - Continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - Renal recs stopping AlOH and starting Renagel today 800 tid
 will
   do this today
   - Have stopped calcitriol and increased aluminum hydroxide per renal
   recs
   - Renal is following
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.
   - Doesn't appear to be DIC, or hemolysis
   - EPO at HD
   - Had 1U PRBC transfusion yesterday
   - guaiac stools
    # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive.
   - Keep watching pressures
   - Hold Labetalol for low bp's and give prn for elevated bp's.
   Other less active/stable issues:
   # HypoNa: Had been having issues with hyponatremia, but not recently.
   Continue to watch lytes qday.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose well-controlled now w/ sliding scale
   only.
   - BS
s in 100
s, will continue to cover with SSI only
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, PPI
   Access: L art line which has been intermittently working and not
   working, may need to be replaced at some point. R PICC placed [**11-23**] now
   also reportedly not working, and may need to be pulled due to fevers,
   and if so, will need to have new central line placed. New L subclavian
   HD line placed [**11-30**], would be very hesitant to pull this line given
   how difficult it was to place.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement. If trach and PEG placed,
   could consider moving to vent rehab.
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-5**] 04:50 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-05 11:26:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man with CRF, s/p PEA arrest, respiratory failure.
   24 Hour Events:
 FEVER - 101.8
F - [**2107-12-4**] 08:00 AM
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-12-4**] 06:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-5**] 01:58 AM
   Linezolid - [**2107-12-5**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Metoprolol - [**2107-12-4**] 02:05 PM
   Famotidine (Pepcid) - [**2107-12-5**] 08:00 AM
   Other medications:
   seroquel 75mg tid
   methadone 10mg tid
   keppra
   Epo
   albuterol/atrov
   cellcept
   SSI
   prednisone 5mg
   pepcid
   chlorhex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-5**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.4
C (101.1
   HR: 115 (83 - 116) bpm
   BP: 146/71(94) {69/41(50) - 191/105(130)} mmHg
   RR: 22 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.4 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,363 mL
                                                                  1,297 mL
   PO:
                                                                    660 mL
                                                                     90 mL
   TF:
                                                                    681 mL
                                                                    439 mL
   IVF:
                                                                  1,753 mL
                                                                    738 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,363 mL
                                                                  1,297 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.42/44/140/25/4
   Ve: 9.8 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed, follows
   some commands
   Labs / Radiology
   7.0 g/dL
   276 K/uL
   182 mg/dL
   6.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   58 mg/dL
   94 mEq/L
   131 mEq/L
   22.3 %
   14.9 K/uL
        [image002.jpg]
                            [**2107-12-3**]  03:31 PM
                            [**2107-12-3**]  03:45 PM
                            [**2107-12-3**]  07:52 PM
                            [**2107-12-4**]  02:24 AM
                            [**2107-12-4**]  02:43 AM
                            [**2107-12-4**]  01:34 PM
                            [**2107-12-4**]  09:50 PM
                            [**2107-12-4**]  10:25 PM
                            [**2107-12-5**]  04:00 AM
                            [**2107-12-5**]  04:17 AM
   WBC
   14.5
   14.9
   Hct
   24.5
   22.3
   Plt
   265
   276
   Cr
   3.2
   4.5
   5.4
   6.4
   TropT
   0.18
   0.19
   TCO2
   35
   31
   33
   30
   30
   Glucose
   136
   142
   159
   161
   159
   122
   [**Telephone/Fax (3) 10961**]
   Other labs: PT / PTT / INR:15.1/34.2/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:58/64, Alk Phos / T Bili:265/1.1,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:0.9 mmol/L,
   LDH:227 IU/L, Ca++:11.0 mg/dL, Mg++:2.7 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   Fevers:  has recentl been on course of cipro,linezolid,cefepime.  Will
   try vanco/zosyn as per ID recs for empiric VAP treatment given increase
   secretions and WBC.
   inhaled pentamidine for PCP prophylaxis
   respiratory failure:  waking up.  Can try to switch over to PSV.
   renal failure:  getting HD today.
   altered MS.  ? of seizures.  Continue keppra.
   ST elevations:  in setting of HTN.  not likely due to unstable plaque.
   anemia:  stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-5**] 04:50 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-12-06 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 RECTAL SWAB - At [**2107-12-5**] 09:05 AM
   per ID for HD protocol
 NASAL SWAB - At [**2107-12-5**] 06:24 PM
 FEVER - 103.3
F - [**2107-12-5**] 01:00 PM
   - cdiff X3 and fungal blood culture tests sent.
   - started zosyn and vanco, stopped other antibiotics
   - Low BP and fever to 103.3.  Tylenol, gave 500cc fluid bolus.
   Improved BP and HR with fluid bolus.  Neo gtt weaned off at 4am.
   - had HD and got 1.2 L off yesterday
   Intolerant of vent weaning
   Pt desaturated to 63%.  Suctioned trach for yellow secretions, O2
   increased to 98%.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2107-12-5**] 08:00 AM
   Cefipime - [**2107-12-5**] 06:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-5**] 08:00 PM
   Vancomycin - [**2107-12-5**] 09:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-12-5**] 08:00 AM
   Carafate (Sucralfate) - [**2107-12-5**] 04:50 PM
   Heparin Sodium (Prophylaxis) - [**2107-12-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-6**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 37.6
C (99.6
   HR: 106 (82 - 138) bpm
   BP: 117/53(71) {68/37(47) - 191/105(130)} mmHg
   RR: 18 (18 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.4 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,503 mL
                                                                    604 mL
   PO:
                                                                     90 mL
             TF:
                                                                    960 mL
                                                                    277 mL
   IVF:
                                                                  2,214 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,303 mL
                                                                    604 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.48/44/131/30/9
   Ve: 8.4 L/min
   PaO2 / FiO2: 328
   Physical Examination
   GEN: NAD, resting, diaphoretic on face
   CV: Tachycardic, regular rate, III/VI SEM
   PULM: CTAB
   ABD: grimaces with palpation of epigastric region; soft, distended,
   quiet BS
   EXTR: no edema
   NEURO: opens eyes to verbal stimuli, ?moved feet/toes to command
   Labs / Radiology
   344 K/uL
   6.6 g/dL
   234 mg/dL
   4.4 mg/dL
   30 mEq/L
   3.8 mEq/L
   36 mg/dL
   93 mEq/L
   137 mEq/L
   21.4 %
   15.0 K/uL
         [image002.jpg]
                            [**2107-12-3**]  07:52 PM
                            [**2107-12-4**]  02:24 AM
                            [**2107-12-4**]  02:43 AM
                            [**2107-12-4**]  01:34 PM
                            [**2107-12-4**]  09:50 PM
                            [**2107-12-4**]  10:25 PM
                            [**2107-12-5**]  04:00 AM
                            [**2107-12-5**]  04:17 AM
                             [**2107-12-6**]  02:21 AM
                             [**2107-12-6**]  02:37 AM
   WBC
   14.5
   14.9
   15.0
   Hct
   24.5
   22.3
   21.4
   Plt
   265
   276
   344
   Cr
   4.5
   5.4
   6.4
   4.4
   TropT
   0.18
   0.19
   TCO2
   31
   33
   30
   30
   34
   Glucose
   159
   161
   159
   122
   [**Telephone/Fax (2) 10971**]34
   Other labs: PT / PTT / INR:15.1/34.2/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.3,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:198 IU/L, Ca++:10.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Imaging: [**12-6**] abdominal US today
   [**12-6**] CT abdomen today
   Microbiology:
   [**12-4**], [**12-3**], [**12-2**] bcx and afb pnd
   Sputum Cx [**12-3**]: Staph aureus coag + sparse growth.  Stenotrophomonas
   (Xanthomonas) Maltophilia sparse growth.  Sensitivities pending.  (Gram
   stain 2+ GPC in pairs, 1+ GNR)
   Sputum Cx [**12-2**]:  Staph aureus coag + sparse growth.  Stenotrophomonas
   (Xanthomonas) Maltophilia sparse growth.  Bactrim sensitive
   (TRIMETHOPRIM/SULFA----   <=1 S)
   Beta-glucan and galactomannan; pending\
   Assessment and Plan
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
   # New spiking fevers, hypotension: Infection (recent sputum with
   Micrococcus and now with positive sputum Cx's as well) vs blood
   transfusion reaction (got 1U yesterday, hasn't received transfusions
   before this), possible drug reaction (started Keppra recently) vs TTP
   (less likely) vs abdominal perforation with free air under diaphragm
   (although just had PEG placed).
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Spiking fevers up to 103.3.
   - CT with contrast to investigate possible abdominal process; renal ok
   with IV and po contrast, given graft failure
   - f/u C. diff and fungal cultures
   - Initiate Bactrim; confirm dosing with ID or pharmacy
   - Tylenol 650mg PO elixir q6hrs scheduled
   - D/C zosyn and vancomycin (slow infusion given history of rash)
   - Previously d/c
ed cipro and linezolid and flagyl
   - f/u ID consult; ask about investigating possible sinus infection and
   treatment
   - [**Month (only) 60**] need to pull PICC in the future (febrile, and it
s an older line)
   and replace with new CVL. [**Month (only) 60**] need to talk to IR about pulling the
   PICC, but holding for now given vascular complexity.
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - F/u with Heme Onc about the smear that was collected, specifically
   looking for shistos
   - Consider stopping the Keppra --> talk to Neuro about this first
   though
   - no beta-blockers
   - Wean off Levophed as tolerated
   - Add on beta-glucan and galactomannan
   - Inhaled pentamidine for prophylaxis (given cellcept and prednisone)
    # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s negative to
   date.  Main hindrance to weaning from vent is his agitation, whenever
   his sedation is weaning he thrashes around, isn
t responsive, looks
   very uncomfortable, drools a lot. This agitation could be in large part
   due to his ETT and we should move towards trach.  Trach and PEG placed
   on [**12-2**].
   - d/c Seroquel, Propofol, Midazolam sedation and attempt to wean from
   vent
   - Decrease Methadone by
 dose
   - Pressure support trial
    # Altered mental status s/p PEA arrest:  Patient obviously has intact
   brainstem reflexes but it is difficult to assess his cortex.  His MRI,
   though severely limited by motion artifact, did not show any signs of
   acute ischemia.  Weaning of sedation has consistently shown agitation.
   He was making some strides towards improvement last week, with
   following commands and responding to the environment, but most recently
   he has just been thrashing around and very agitated when sedation is
   weaned, not following commands, not tracking across the room, not
   making progress.  Changed from Propofol to versed because of
   triglycerides of 700. Most recently, Neuro has noted a staring spell
   that was concerning for continued seizures, so he was on continuous EEG
   for a while, with epileptiform spikes but not outright seizure
   activity. They recommended a Keppra load, with Keppra 250 qday and an
   extra 250 after HD.
   - He is currently written for Keppra 250mg IV q12, will need to clarify
   dose with Neuro
   - Continue weaning sedation, as above.
   - Have added methadone 10mg TID to assist with weaning fentanyl; wean
   to 7.5mg tid; wean to half dose (11mg daily).
   - F/u EKG daily because of Haldol/Seroquel use
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.
   - Doesn't appear to be DIC, or hemolysis
   - EPO at HD
   - Guiac stools
   - F/u with Heme Onc about the smear that was collected, specifically
   looking for shistos
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - HD yesterday; HD vs. CVVH tomorrow
   - Continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - AlOH discontinued previously
   - On Renagel 800 tid.  D/C Sevelemer and initiate Amphagel.
   - Have stopped calcitriol and increased aluminum hydroxide per renal
   recs
   - Renal is following
    # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive.
   - Keep watching pressures
   - Hold Labetalol for low bp's and give prn for elevated bp's.
   Other less active/stable issues:
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachy and hypertensive.
   # HypoNa: Had been having issues with hyponatremia, but has since
   resolved.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - Increase ISS
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, discontinue famotidine and instead
   start sucralfate (per ID)
   Access: L art line which has been intermittently working and not
   working, may need to be replaced at some point. R PICC placed [**11-23**] now
   also reportedly not working, and may need to be pulled due to fevers,
   and if so, will need to have new central line placed. New L subclavian
   HD line placed [**11-30**], would be very hesitant to pull this line given
   how difficult it was to place.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement. If trach and PEG placed,
   could consider moving to vent rehab.
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-5**] 04:50 AM 40 mL/hour
 continue
   current tube feeds
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-5**] 11:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-06 11:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man with respiratory failure, s/p PEA arrest.   Was febrile
   yesterday and on pressors
   for some time - then weaned off.
   24 Hour Events:
 RECTAL SWAB - At [**2107-12-5**] 09:05 AM
   per ID for HD protocol
 NASAL SWAB - At [**2107-12-5**] 06:24 PM
 FEVER - 103.3
F - [**2107-12-5**] 01:00 PM
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2107-12-5**] 08:00 AM
   Cefipime - [**2107-12-5**] 06:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-5**] 08:00 PM
   Vancomycin - [**2107-12-5**] 09:00 PM
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2107-12-5**] 04:50 PM
   Heparin Sodium (Prophylaxis) - [**2107-12-6**] 12:00 AM
   Other medications:
   methadone
   seroquel
   dulcolax
   senna
   keppra
   epo
   prednisone 5mg po
   sevelamer
   carafate
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-6**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 38.4
C (101.2
   HR: 110 (82 - 138) bpm
   BP: 101/57(68) {68/37(47) - 148/73(97)} mmHg
   RR: 18 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.4 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,503 mL
                                                                    866 mL
   PO:
                                                                     90 mL
             TF:
                                                                    960 mL
                                                                    429 mL
   IVF:
                                                                  2,214 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,303 mL
                                                                    866 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.48/44/131/30/9
   Ve: 7.9 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.6 g/dL
   344 K/uL
   234 mg/dL
   4.4 mg/dL
   30 mEq/L
   3.8 mEq/L
   36 mg/dL
   93 mEq/L
   137 mEq/L
   21.4 %
   15.0 K/uL
        [image002.jpg]
                            [**2107-12-3**]  07:52 PM
                            [**2107-12-4**]  02:24 AM
                            [**2107-12-4**]  02:43 AM
                            [**2107-12-4**]  01:34 PM
                            [**2107-12-4**]  09:50 PM
                            [**2107-12-4**]  10:25 PM
                            [**2107-12-5**]  04:00 AM
                            [**2107-12-5**]  04:17 AM
                             [**2107-12-6**]  02:21 AM
                             [**2107-12-6**]  02:37 AM
   WBC
   14.5
   14.9
   15.0
   Hct
   24.5
   22.3
   21.4
   Plt
   265
   276
   344
   Cr
   4.5
   5.4
   6.4
   4.4
   TropT
   0.18
   0.19
   TCO2
   31
   33
   30
   30
   34
   Glucose
   159
   161
   159
   122
   [**Telephone/Fax (2) 10971**]34
   Other labs: PT / PTT / INR:15.1/34.2/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.3,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:198 IU/L, Ca++:10.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   Fevers:  Sputum with coag positive staph and stenotropomonas.  Will add
   bactrim to cover the stenotropomonas.
   Mental status:  is currently unresponsive.   Will stop seroquel.
   respiratory failure:  switch over to PSV.
   pain: reduce methadone by half.
   seizures: continue with keppra
   HD as per protocol.
   .
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-5**] 11:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-12-07 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2107-12-6**] 09:14 AM
 FEVER - 101.2
F - [**2107-12-6**] 08:00 AM
   - RUQ US negative
   - CT abdomen showed small IVC thrombus
   - Initiated on Heparin drip
   - RUQ US negative
   - CT abdomen showed:
   1. Small thrombus within the IVC and at the junction of the right
   common iliac vein and transplanted renal vein.
   2. Diffuse mesenteric stranding with no small or large bowel pathology
   identified.
   - Received 2 units PRBC
   - Initiated Bactrim IV for sputum findings
   - D/C'ed Vanc/Zosyn
   - Holding off on stress dose steroids (recommended by renal for prior
   adrenal insufficiency)
   - Will ask ID in AM re: sinus infection
   - D/C'ed Seroquel.  Decreased Methadone from 10mg tid to 5mg tid.
   - Became significantly agitated, diaphoretic, mildly tremulous,
   tachycardic, gave 1mg Morphine and increased Methadone back to 10mg tid
   for a slower taper.
   - Became hypertensive this morning to SBP 190
s/100
s, placed on Nitro
   drip and Labetalol x2 doses with BP response to 150
s systolic.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2107-12-5**] 08:00 AM
   Vancomycin - [**2107-12-5**] 09:00 PM
   Cefipime - [**2107-12-6**] 06:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-6**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Nitroglycerin - 1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2107-12-6**] 08:11 AM
   Heparin Sodium (Prophylaxis) - [**2107-12-6**] 03:31 PM
   Heparin Sodium - [**2107-12-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-7**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.2
   HR: 94 (58 - 117) bpm
   BP: 157/67(91) {66/41(49) - 185/88(328)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,784 mL
                                                                    987 mL
   PO:
             TF:
                                                                    455 mL
                                                                    290 mL
   IVF:
                                                                    529 mL
                                                                    637 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,784 mL
                                                                    987 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: ///28/
   Ve: 9.4 L/min
   Physical Examination
   GEN: Awakes to verbal stimuli, interactive following commands, NAD
   CV: Tachycardic, regular rate, III/VI SEM
   PULM: CTAB
   ABD: Mild diffuse tenderness, non-distended without rebound, guarding
   EXTR: no edema
   NEURO: follows commands, responsive to verbal stimuli
   Labs / Radiology
   372 K/uL
   6.8 g/dL
   189 mg/dL
   6.0 mg/dL
   28 mEq/L
   3.6 mEq/L
   52 mg/dL
   95 mEq/L
   139 mEq/L
   22.0 %
   14.4 K/uL
        [image002.jpg]
                            [**2107-12-4**]  01:34 PM
                            [**2107-12-4**]  09:50 PM
                            [**2107-12-4**]  10:25 PM
                            [**2107-12-5**]  04:00 AM
                            [**2107-12-5**]  04:17 AM
                             [**2107-12-6**]  02:21 AM
                             [**2107-12-6**]  02:37 AM
                             [**2107-12-6**]  05:27 PM
                             [**2107-12-6**]  11:54 PM
                             [**2107-12-7**]  03:15 AM
   WBC
   14.9
   15.0
   14.0
   14.4
   Hct
   22.3
   21.4
   21.8
   21.5
   22.0
   Plt
   [**Telephone/Fax (3) 10992**]72
   Cr
   5.4
   6.4
   4.4
   6.0
   TropT
   0.18
   0.19
   TCO2
   30
   30
   34
   Glucose
   122
   206
   179
   182
   234
   189
   Other labs: PT / PTT / INR:15.1/31.8/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.3,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:198 IU/L, Ca++:11.7 mg/dL, Mg++:2.6 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR pending
 compared to [**12-5**], improved R
   infiltrate/vascular congestion
   Microbiology: [**12-3**], [**12-4**] bcx ntd
   sputum [**12-2**]
   STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA
                                |          STAPH AUREUS COAG +
                                |          |
   CLINDAMYCIN-----------           <=0.25 S
   ERYTHROMYCIN----------           <=0.25 S
   GENTAMICIN------------            <=0.5 S
   LEVOFLOXACIN----------           <=0.12 S
   OXACILLIN-------------                1 S
   TRIMETHOPRIM/SULFA----   <=1 S    <=0.5 S
   [**12-5**]
   Carbapenase Resistant Enterobacteriaceae Screen-PENDING
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
    # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
   - D/C Nitro drip
   - Initiate Labetalol drip with low dose po Labetalol for goal BP ~150
   given tenuous BP status.
   # New spiking fevers, hypotension: Infection (recent sputum with
   Micrococcus and now with positive sputum Cx's as well) vs blood
   transfusion reaction (got 1U yesterday, hasn't received transfusions
   before this), possible drug reaction (started Keppra recently) vs TTP
   (less likely) vs abdominal perforation with free air under diaphragm
   (although just had PEG placed).
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl.
   - CT with contrast to investigate possible abdominal process; renal ok
   with IV and po contrast, given graft failure
   - Continue Bactrim; confirm dosing with ID or pharmacy
   - f/u C. diff and fungal cultures
   - Tylenol 650mg PO elixir q6hrs prn
   - Monitor status of possible sinus infection given current clinical
   improvement and active drainage
   - [**Month (only) 60**] need to pull PICC in the future (febrile, and it
s an older line)
   and replace with new CVL. [**Month (only) 60**] need to talk to IR about pulling the
   PICC, but holding for now given vascular complexity.
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - F/u with Heme Onc about the smear that was collected, specifically
   looking for shistos
   - Continue Keppra for possibility of subclinical seizures causing
   fever, MS change --> discuss with Neuro
   - no beta-blockers
   - Wean off Levophed as tolerated
   - Add on beta-glucan and galactomannan
   - Inhaled pentamidine for prophylaxis (given cellcept and prednisone)
    # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s negative to
   date.  Main hindrance to weaning from vent is his agitation, whenever
   his sedation is weaning he thrashes around, isn
t responsive, looks
   very uncomfortable, drools a lot. This agitation could be in large part
   due to his ETT and we should move towards trach.  Trach and PEG placed
   on [**12-2**].  Now off sedation, d/c
ed Seroquel, Propofol, Midazolam
   sedation.
   - Attempt to wean from vent
   - Decrease Methadone by
 dose but ?withdrawal so increased back to
   10mg tid.  Consider slow taper.
   - Pressure support trial today.
    # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 250 qday and an extra 250 after HD.  Patient
   was interactive and following commands [**12-7**], significantly improved
   mental status compared to previous mornings.
   - Continue Keppra 250mg IV q12h for now, will discuss with Neuro
   - Continue weaning sedation, as above.
   - methadone 10mg TID to assist with weaning fentanyl; wean to slowly
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.
   - 2 units PRBC per Renal recs
   - Doesn't appear to be DIC, or hemolysis
   - EPO at HD
   - Guiac stools
   - F/u with Heme Onc about the smear that was collected, specifically
   looking for shistos
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - HD yesterday; HD vs. CVVH possibly today pending renal recs
   - Continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - AlOH discontinued previously
   - On Renagel 800 tid.  D/C Sevelemer and initiate Amphagel.
   - Have stopped calcitriol and increased aluminum hydroxide per renal
   recs
   - Renal is following
   Other less active/stable issues:
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachy and hypertensive.
   # HypoNa: Had been having issues with hyponatremia, but has since
   resolved.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - Increase ISS
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, discontinue famotidine and instead
   start sucralfate (per ID)
   Access: L art line which has been intermittently working and not
   working, may need to be replaced at some point. R PICC placed [**11-23**] now
   also reportedly not working, and may need to be pulled due to fevers,
   and if so, will need to have new central line placed. New L subclavian
   HD line placed [**11-30**], would be very hesitant to pull this line given
   how difficult it was to place.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement. If trach and PEG placed,
   could consider moving to vent rehab.
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-5**] 04:50 AM 40 mL/hour
 continue
   current tube feeds
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-7**] 05:05 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   20 Gauge - [**2107-12-6**] 02:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-07 09:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo man s/p cardiac arrest.  Persistently poor MS.  Overnight became
   agitated and diaphoretic and this morning became agitated.  Responded a
   bit to morphine and methadone.
   24 Hour Events:
 ULTRASOUND - At [**2107-12-6**] 09:14 AM
 FEVER - 101.2
F - [**2107-12-6**] 08:00 AM
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2107-12-5**] 08:00 AM
   Vancomycin - [**2107-12-5**] 09:00 PM
   Cefipime - [**2107-12-6**] 06:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-6**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Nitroglycerin - 1.4 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-12-6**] 03:31 PM
   Heparin Sodium - [**2107-12-7**] 12:00 AM
   Labetalol - [**2107-12-7**] 09:05 AM
   Other medications:
   prednisone
   keppra
   biscodyl
   sucralfate
   EPO
   amphojel
   inhalers
   methadone 10mg tid
   bactrim
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-7**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100
   HR: 93 (58 - 111) bpm
   BP: 171/72(97) {66/41(49) - 236/129(328)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,784 mL
                                                                  1,299 mL
   PO:
             TF:
                                                                    455 mL
                                                                    370 mL
   IVF:
                                                                    529 mL
                                                                    709 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,784 mL
                                                                  1,299 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   372 K/uL
   189 mg/dL
   6.0 mg/dL
   28 mEq/L
   3.6 mEq/L
   52 mg/dL
   95 mEq/L
   139 mEq/L
   22.0 %
   14.4 K/uL
        [image002.jpg]
                            [**2107-12-4**]  01:34 PM
                            [**2107-12-4**]  09:50 PM
                            [**2107-12-4**]  10:25 PM
                            [**2107-12-5**]  04:00 AM
                            [**2107-12-5**]  04:17 AM
                             [**2107-12-6**]  02:21 AM
                             [**2107-12-6**]  02:37 AM
                             [**2107-12-6**]  05:27 PM
                             [**2107-12-6**]  11:54 PM
                             [**2107-12-7**]  03:15 AM
   WBC
   14.9
   15.0
   14.0
   14.4
   Hct
   22.3
   21.4
   21.8
   21.5
   22.0
   Plt
   [**Telephone/Fax (3) 10992**]72
   Cr
   5.4
   6.4
   4.4
   6.0
   TropT
   0.18
   0.19
   TCO2
   30
   30
   34
   Glucose
   122
   206
   179
   182
   234
   189
   Other labs: PT / PTT / INR:14.4/49.9/1.2, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.3,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:198 IU/L, Ca++:11.7 mg/dL, Mg++:2.6 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   Fevers:  treating stenotrophomonas with bactrim
   respiratory failure:  wean to PSV
   fits of agitation:  ? of subclinical seizures.  Will discuss with neuro
   MS improved today - following commands.
   HTN:  Will start on low dose labetolol PO, and labetolol drip
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-7**] 05:05 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   20 Gauge - [**2107-12-6**] 02:20 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-12-08 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: altered mental status s/p PEA arrest
   24 Hour Events:
   - spiked a temp, cultured
   - more interactive
   - got 2 units blood, HD
   - neuro's last note before signing off recommended what to do if felt
   seizing again - note in chart
   - given extra 250mg keppra once today (per neuro note)
   - ID signing off formally - stpeh pneumonia, treat 21 days, could be
   with cefazolin qHD; treat with 8 days of bactrim IV too
   - Renal: next HD saturday, given bactrim IV post-HD
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2107-12-5**] 08:00 AM
   Vancomycin - [**2107-12-5**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-6**] 08:00 PM
   Cefipime - [**2107-12-7**] 06:55 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Labetalol - 3 mg/min
   Other ICU medications:
   Labetalol - [**2107-12-7**] 09:05 AM
   Other medications:
   Flowsheet Data as of  [**2107-12-8**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.6
C (99.7
   HR: 65 (64 - 100) bpm
   BP: 162/71(103) {95/57(69) - 236/129(132)} mmHg
   RR: 18 (17 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,414 mL
                                                                    887 mL
   PO:
             TF:
                                                                    963 mL
                                                                    285 mL
   IVF:
                                                                  2,421 mL
                                                                    543 mL
   Blood products:
                                                                    630 mL
   Total out:
                                                                  3,700 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    714 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 530 (530 - 530) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/57/186/30/12
   Ve: 9.5 L/min
   PaO2 / FiO2: 465
   Physical Examination
   Gen: Writhing, staring into space, not responding to questions or
   commands
   Heart: Systolic murmur; normal rate and rhythm
   Chest: CTAB
   Abdomen: distended, but still soft, normal BS
   Ext: no edema, warm and well perfused.
   Labs / Radiology
   418 K/uL
   8.2 g/dL
   167 mg/dL
   4.5 mg/dL
   30 mEq/L
   3.3 mEq/L
   32 mg/dL
   93 mEq/L
   137 mEq/L
   25.0 %
   14.3 K/uL
        [image002.jpg]
                            [**2107-12-5**]  04:00 AM
                            [**2107-12-5**]  04:17 AM
                             [**2107-12-6**]  02:21 AM
                             [**2107-12-6**]  02:37 AM
                             [**2107-12-6**]  05:27 PM
                             [**2107-12-6**]  11:54 PM
                             [**2107-12-7**]  03:15 AM
                             [**2107-12-7**]  04:32 PM
                             [**2107-12-7**]  10:54 PM
                             [**2107-12-8**]  04:47 AM
   WBC
   14.9
   15.0
   14.0
   14.4
   14.3
   Hct
   22.3
   21.4
   21.8
   21.5
   22.0
   25.6
   25.0
   Plt
   [**Telephone/Fax (3) 10992**]72
   418
   Cr
   6.4
   4.4
   6.0
   4.5
   TCO2
   30
   34
   40
   Glucose
   179
   182
   234
   189
   167
   Other labs: PT / PTT / INR:14.4/57.6/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.3,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:198 IU/L, Ca++:10.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR [**2107-12-7**]
   IMPRESSION:
   Improved interstitial edema, which is minimal. No new consolidation.
   Microbiology: [**2107-12-7**] 6:50 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2107-12-7**]):
         [**10-30**] PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   [**2107-12-2**] 9:44 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2107-12-3**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2107-12-6**]):
         Commensal Respiratory Flora Absent.
         STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA.    SPARSE GROWTH.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA
                                |          STAPH AUREUS COAG +
                                |          |
   CLINDAMYCIN-----------           <=0.25 S
   ERYTHROMYCIN----------           <=0.25 S
   GENTAMICIN------------            <=0.5 S
   LEVOFLOXACIN----------           <=0.12 S
   OXACILLIN-------------                1 S
   TRIMETHOPRIM/SULFA----   <=1 S    <=0.5 S
   Assessment and Plan
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.
   - Attempt to wean from vent
   - Decrease Methadone by
 dose but ?withdrawal so increased back to
   10mg tid.  Consider slow taper.
   - Pressure support trial did not go well last night.  Was not pulling
   the volumes needed and was tachypneic
   - Return to seroquel PRN
   .
   # New spiking fevers, hypotension: Infection (recent sputum with
   Micrococcus and now with positive sputum Cx's as well) vs blood
   transfusion reaction (got 1U yesterday, hasn't received transfusions
   before this), possible drug reaction (started Keppra recently) vs TTP
   (less likely) vs abdominal perforation with free air under diaphragm
   (although just had PEG placed).
   .
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.
   - CT with contrast to investigate possible abdominal process; renal ok
   with IV and po contrast, given graft failure
   - Continue Bactrim; confirm dosing with ID or pharmacy
   - f/u C. diff and fungal cultures
   - Tylenol 650mg PO elixir q6hrs prn
   - Monitor status of possible sinus infection given current clinical
   improvement and active drainage
   - [**Month (only) 60**] need to pull PICC in the future (febrile, and it
s an older line)
   and replace with new CVL. [**Month (only) 60**] need to talk to IR about pulling the
   PICC, but holding for now given vascular complexity.
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - F/u with Heme Onc about the smear that was collected, specifically
   looking for shistos
   - Continue Keppra for possibility of subclinical seizures causing
   fever, MS change --> discuss with Neuro
   - no beta-blockers
   - Add on beta-glucan and galactomannan
   - Inhaled pentamidine for prophylaxis (given cellcept and prednisone)
     # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
   - Labetalol drip with low dose po Labetalol for goal BP ~150 given
   tenuous BP status.
   .
    # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 250 qday and an extra 250 after HD.  Patient
   was interactive and following commands [**12-7**], significantly improved
   mental status compared to previous mornings.
   - Continue Keppra 250mg IV q12h for now, will discuss with Neuro
   - Continue weaning sedation, as above.
   - methadone 10mg TID to assist with weaning fentanyl; wean to slowly
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.
   - HD Friday and assess need for blood products at this time.
   .
   - Doesn't appear to be DIC, or hemolysis
   - EPO at HD
   - Guiac stools
   - F/u with Heme Onc about the smear that was collected, specifically
   looking for shistos
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - HD yesterday; HD vs. CVVH possibly today pending renal recs
   - Continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - AlOH discontinued previously
   - On Renagel 800 tid.  D/C Sevelemer and initiate Amphagel.
   - Have stopped calcitriol and increased aluminum hydroxide per renal
   recs
   - Renal is following
   .
   Other less active/stable issues:
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachy and hypertensive.
   # HypoNa: Had been having issues with hyponatremia, but has since
   resolved.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - ISS
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, discontinue famotidine and instead
   start sucralfate (per ID)
   Access: L art line which has been intermittently working and not
   working, may need to be replaced at some point. R PICC placed [**11-23**] now
   also reportedly not working, and may need to be pulled due to fevers,
   and if so, will need to have new central line placed. New L subclavian
   HD line placed [**11-30**], would be very hesitant to pull this line given
   how difficult it was to place.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement. If trach and PEG placed,
   could consider moving to vent rehab.

2107-12-08 12:23:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo man with failed renal transplant, s/p PEA arrest, respratory
   failure.
   24 Hour Events:
 BLOOD CULTURED - At [**2107-12-7**] 07:02 PM
 SPUTUM CULTURE - At [**2107-12-7**] 07:02 PM
 FEVER - 101.7
F - [**2107-12-7**] 04:00 PM
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-5**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-6**] 08:00 PM
   Cefipime - [**2107-12-7**] 06:55 PM
   Infusions:
   Labetalol - 1.5 mg/min
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Other medications:
   prednisone
   chlorhex
   keppra
   cefipime
   methadone
   bactrim
   labetolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-8**] 12:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.9
C (98.4
   HR: 65 (64 - 97) bpm
   BP: 99/50(66) {95/49(66) - 170/83(284)} mmHg
   RR: 15 (15 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  4,414 mL
                                                                  1,476 mL
   PO:
             TF:
                                                                    963 mL
                                                                    485 mL
   IVF:
                                                                  2,421 mL
                                                                    841 mL
   Blood products:
                                                                    630 mL
   Total out:
                                                                  3,700 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    714 mL
                                                                  1,476 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 425 (425 - 530) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 11 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/57/186/30/12
   Ve: 6.5 L/min
   PaO2 / FiO2: 465
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   418 K/uL
   167 mg/dL
   4.5 mg/dL
   30 mEq/L
   3.3 mEq/L
   32 mg/dL
   93 mEq/L
   137 mEq/L
   25.0 %
   14.3 K/uL
        [image002.jpg]
                            [**2107-12-5**]  04:00 AM
                            [**2107-12-5**]  04:17 AM
                             [**2107-12-6**]  02:21 AM
                             [**2107-12-6**]  02:37 AM
                             [**2107-12-6**]  05:27 PM
                             [**2107-12-6**]  11:54 PM
                             [**2107-12-7**]  03:15 AM
                             [**2107-12-7**]  04:32 PM
                             [**2107-12-7**]  10:54 PM
                             [**2107-12-8**]  04:47 AM
   WBC
   14.9
   15.0
   14.0
   14.4
   14.3
   Hct
   22.3
   21.4
   21.8
   21.5
   22.0
   25.6
   25.0
   Plt
   [**Telephone/Fax (3) 10992**]72
   418
   Cr
   6.4
   4.4
   6.0
   4.5
   TCO2
   30
   34
   40
   Glucose
   179
   182
   234
   189
   167
   Other labs: PT / PTT / INR:14.4/57.6/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.3,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:198 IU/L, Ca++:10.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Microbiology: sputum: GNRs
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   Respiratory failure:  Doing well on PSV 5/5.  If doing well can attempt
   a trach collar.
   Agitation:  will try prn seroquel.
   HTN:  increase antihypertensives - start PO 600 tid labetolol.
   fevers:  will discuss with ID about need for cefepime.
   will talk to case management about rehab screening.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-8**] 05:48 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Arterial Line - [**2107-12-1**] 11:47 AM
   20 Gauge - [**2107-12-6**] 02:20 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-12-09 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p PEA arrest
   24 Hour Events:
 ARTERIAL LINE - STOP [**2107-12-9**] 05:49 AM
   -trach mask trial until 4am when had CO2 of 68.  Put back on vent and
   was more agitated.  Hight CO2 causing him to be altered?
   - CM ([**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 11011**]) is screening him for rehab centers
   - started PRN Zyprexa, but was not requiring it this evening
   - cefipime stopped b/c 21 day course had finished.  Bactrim for a total
   of 8 days.  These are ID recs
   - PICC left in for time being and coumadin started for thrombus in IVC
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-6**] 08:00 PM
   Cefipime - [**2107-12-7**] 06:55 PM
   Bactrim (SMX/TMP) - [**2107-12-8**] 04:02 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-9**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 67 (58 - 79) bpm
   BP: 144/61(79) {144/61(79) - 190/75(102)} mmHg
   RR: 11 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,090 mL
                                                                    507 mL
   PO:
             TF:
                                                                    960 mL
                                                                    258 mL
   IVF:
                                                                  1,769 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,090 mL
                                                                    507 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 461 (425 - 611) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.28/62/123/29/0
   Ve: 7.6 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Gen: On trach vent and writhing; opens eyes to voice
   Heart: 2/6 systolic murmur; NRRR
   Chest: CTAB
   Abdomen: distended; soft
   Ext: warm,well perfused, no edema
   Labs / Radiology
   436 K/uL
   8.2 g/dL
   135 mg/dL
   5.7 mg/dL
   29 mEq/L
   3.6 mEq/L
   43 mg/dL
   90 mEq/L
   134 mEq/L
   25.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2107-12-6**]  11:54 PM
                             [**2107-12-7**]  03:15 AM
                             [**2107-12-7**]  04:32 PM
                             [**2107-12-7**]  10:54 PM
                             [**2107-12-8**]  04:47 AM
                             [**2107-12-8**]  01:50 PM
                             [**2107-12-8**]  04:29 PM
                             [**2107-12-9**]  01:28 AM
                             [**2107-12-9**]  01:41 AM
                             [**2107-12-9**]  04:54 AM
   WBC
   14.0
   14.4
   14.3
   13.0
   Hct
   21.5
   22.0
   25.6
   25.0
   25.2
   Plt
   [**Telephone/Fax (3) 11012**]36
   Cr
   6.0
   4.5
   5.7
   TCO2
   40
   36
   34
   37
   30
   Glucose
   189
   167
   135
   Other labs: PT / PTT / INR:13.3/65.8/1.1, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.3,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:198 IU/L, Ca++:10.9 mg/dL, Mg++:2.6 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR with no changes
   Microbiology: No new information; c dif negative
   Assessment and Plan
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis.
   - Trach mask again today
   - Decrease Methadone to 7.5 today x 3 days and begin to wean
   - Return to zyprexa PRN
   .
   # spiking fevers, hypotension: Infection (recent sputum with
   Micrococcus and now with positive sputum Cx's as well) vs blood
   transfusion reaction (got 1U yesterday, hasn't received transfusions
   before this), possible drug reaction (started Keppra recently) vs TTP
   (less likely) vs abdominal perforation with free air under diaphragm
   (although just had PEG placed).
   .
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.
   - CT with contrast to investigate possible abdominal process; renal ok
   with IV and po contrast, given graft failure
   - Continue Bactrim; confirm dosing with ID or pharmacy
   - f/u C. diff and fungal cultures
   - Tylenol 650mg PO elixir q6hrs prn
   - [**Month (only) 60**] need to pull PICC in the future (febrile, and it
s an older line)
   and replace with new CVL. [**Month (only) 60**] need to talk to IR about pulling the
   PICC, but holding for now given vascular complexity.
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - Continue Keppra for possibility of subclinical seizures causing
   fever, MS change --> discuss with Neuro
   - no beta-blockers
   - Add on beta-glucan and galactomannan
   - Inhaled pentamidine for prophylaxis (given cellcept and prednisone)
     # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
   - Labetalol drip with low dose po Labetalol for goal BP ~150 given
   tenuous BP status.
   .
    # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 250 qday and an extra 250 after HD.  Patient
   was interactive and following commands [**12-7**], significantly improved
   mental status compared to previous mornings.
   - Continue Keppra 250mg IV q12h for now, will discuss with Neuro
   - Continue weaning sedation, as above.
   - methadone 7.5mg TID to assist with weaning fentanyl; wean to slowly
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.
   - HD Friday and assess need for blood products at this time.
   .
   - Doesn't appear to be DIC, or hemolysis
   - EPO at HD
   - Guiac stools
   - F/u with Heme Onc about the smear that was collected, specifically
   looking for shistos
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - HD yesterday; HD vs. CVVH possibly today pending renal recs
   - Continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - AlOH discontinued previously
   - On Renagel 800 tid.  D/C Sevelemer and initiate Amphagel.
   - Have stopped calcitriol and increased aluminum hydroxide per renal
   recs
   - Renal is following
   .
   Other less active/stable issues:
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachy and hypertensive.
   # HypoNa: Had been having issues with hyponatremia, but has since
   resolved.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - ISS
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, discontinue famotidine and instead
   start sucralfate (per ID)
   Access: L art line which has been intermittently working and not
   working, may need to be replaced at some point. R PICC placed [**11-23**] now
   also reportedly not working, and may need to be pulled due to fevers,
   and if so, will need to have new central line placed. New L subclavian
   HD line placed [**11-30**], would be very hesitant to pull this line given
   how difficult it was to place.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU pending clinical improvement. If trach and PEG placed,
   could consider moving to vent rehab.

2107-12-09 10:14:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo man with ESRD on HD, respiratory failure.  Patient TM until this
   morning when he was
   put back on vent for increasing pCO2.  Afebrile overnight.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2107-12-9**] 05:49 AM
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-6**] 08:00 PM
   Cefipime - [**2107-12-7**] 06:55 PM
   Bactrim (SMX/TMP) - [**2107-12-8**] 04:02 PM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Other medications:
   prednisone 5mg
   chlorhexidine
   albuterol/atrovent
   keppra
   sucralfate
   SSI
   sevalemer
   methadone
   labetolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-9**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 63 (58 - 75) bpm
   BP: 190/83(109) {134/59(76) - 190/83(109)} mmHg
   RR: 19 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,089 mL
                                                                    792 mL
   PO:
             TF:
                                                                    960 mL
                                                                    402 mL
   IVF:
                                                                  1,769 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,089 mL
                                                                    792 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 443 (425 - 611) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.28/62/123/29/0
   Ve: 5.8 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   436 K/uL
   135 mg/dL
   5.7 mg/dL
   29 mEq/L
   3.6 mEq/L
   43 mg/dL
   90 mEq/L
   134 mEq/L
   25.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2107-12-6**]  11:54 PM
                             [**2107-12-7**]  03:15 AM
                             [**2107-12-7**]  04:32 PM
                             [**2107-12-7**]  10:54 PM
                             [**2107-12-8**]  04:47 AM
                             [**2107-12-8**]  01:50 PM
                             [**2107-12-8**]  04:29 PM
                             [**2107-12-9**]  01:28 AM
                             [**2107-12-9**]  01:41 AM
                             [**2107-12-9**]  04:54 AM
   WBC
   14.0
   14.4
   14.3
   13.0
   Hct
   21.5
   22.0
   25.6
   25.0
   25.2
   Plt
   [**Telephone/Fax (3) 11012**]36
   Cr
   6.0
   4.5
   5.7
   TCO2
   40
   36
   34
   37
   30
   Glucose
   189
   167
   135
   Other labs: PT / PTT / INR:13.3/65.8/1.1, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.3,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:198 IU/L, Ca++:10.9 mg/dL, Mg++:2.6 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   Respiratory failure:
   Hypercarbia:  likely due to methadone.  Will cut dose in half.
   Start TM.
   Consult S+S for PMV.
   Stenotrophomonas PNA:  8 days of IV bactrim.
   HTN:  increase labetolol
   DVTs:  heparin drip, on coumadin.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-9**] 06:17 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   20 Gauge - [**2107-12-6**] 02:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2107-12-10 08:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Methadone decreased to 5mg tid yesterday.  Patient became agitated,
   gave Morphine x1 with good response.  Written for Zyprexa q4h prn.
   - d/c'ed Labetalol drip yesterday and transitioned to po Labetalol tid
   with adequate BP control
   - Coumadin daily initiated
   - Attempted to wean to trach mask, but patient did not tolerate and was
   placed back on vent
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-12-7**] 06:55 PM
   Bactrim (SMX/TMP) - [**2107-12-9**] 05:10 PM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2107-12-9**] 01:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-10**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 67 (55 - 93) bpm
   BP: 148/47(69) {108/45(61) - 190/88(109)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.8 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,408 mL
                                                                  1,115 mL
   PO:
             TF:
                                                                  1,023 mL
                                                                    325 mL
   IVF:
                                                                    935 mL
                                                                    730 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                     50 mL
   Urine:
   50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,592 mL
                                                                  1,065 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 395 (338 - 460) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///32/
   Ve: 5.1 L/min
   Physical Examination
   Gen: On trach vent; opens eyes to voice, intermittently obeying
   commands
   Heart: 2/6 systolic murmur; NRRR
   Chest: CTAB
   Abdomen: distended; mild-moderately tense, +BS
   Ext: warm,well perfused, no edema
   Labs / Radiology
   417 K/uL
   6.7 g/dL
   142 mg/dL
   4.4 mg/dL
   32 mEq/L
   3.5 mEq/L
   28 mg/dL
   91 mEq/L
   135 mEq/L
   22.0 %
   12.9 K/uL
        [image002.jpg]
                             [**2107-12-7**]  03:15 AM
                             [**2107-12-7**]  04:32 PM
                             [**2107-12-7**]  10:54 PM
                             [**2107-12-8**]  04:47 AM
                             [**2107-12-8**]  01:50 PM
                             [**2107-12-8**]  04:29 PM
                             [**2107-12-9**]  01:28 AM
                             [**2107-12-9**]  01:41 AM
                             [**2107-12-9**]  04:54 AM
                             [**2107-12-10**]  02:26 AM
   WBC
   14.4
   14.3
   13.0
   12.9
   Hct
   22.0
   25.6
   25.0
   25.2
   22.0
   Plt
   372
   418
   436
   417
   Cr
   6.0
   4.5
   5.7
   4.4
   TCO2
   40
   36
   34
   37
   30
   Glucose
   189
   167
   135
   142
   Other labs: PT / PTT / INR:14.9/56.8/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.3,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:198 IU/L, Ca++:9.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Microbiology: [**12-8**] C. diff negative
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA.  Coag + Staph
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   - Monitor patient to determine whether he develops fever
   - Monitor PO2 and respiratory status
   - Hold tube feeds for the morning
   - Consider CXR tomorrow
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis.
   - Trach mask again today
   - Decreased Methadone to 5 to wean.  Continue at current dose for
   today.
   - Zyprexa PRN agitation
   .
     # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**].
   - Hypertensive today in setting of having morning dose of PO labetalol
   held.  Change parameters to hold if below SBP <120 and continue
   Labetalol 800 TID
   .
   # Anemia.  Chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.  Decrease in hct today without evidence of active
   bleed.
   - Repeat Hct this afternoon.
   - EPO at HD
   .
   # Spiking fevers, hypotension: Infection (recent sputum with
   Micrococcus and now with positive sputum Cx's as well) vs blood
   transfusion reaction (got 1U yesterday, hasn't received transfusions
   before this), possible drug reaction (started Keppra recently) vs TTP
   (less likely) vs abdominal perforation with free air under diaphragm
   (although just had PEG placed).   Currently afebrile.
   .
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.
   - Continue Bactrim until [**2107-12-15**]
   - Tylenol 650mg PO elixir q6hrs prn
   - [**Month (only) 60**] need to pull PICC in the future (febrile, and it
s an older line)
   and replace with new CVL. [**Month (only) 60**] need to talk to IR about pulling the
   PICC, but holding for now given vascular complexity.
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - Continue Keppra for possibility of subclinical seizures causing
   fever, MS change --> discuss with Neuro
   - no beta-blockers
   - f/u beta-glucan and galactomannan
   - Received inhaled pentamidine for prophylaxis (given cellcept and
   prednisone)
   .
    # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 250 qday and an extra 250 after HD.  Patient
   was interactive and following commands [**12-7**], significantly improved
   mental status compared to previous mornings.
   - Continue Keppra 250mg IV q12h for now, will discuss with Neuro
   - Continue weaning sedation, as above.
   - methadone 5mg TID to assist with weaning from narcotic dependence
   .
   DVT: Patient found to have venous thrombi in several vessels including
   his IVC.  He is on a heparin drip and being bridged with coumadin
   - Daily INR
   - Coumadin 5mg PO daily
   - D/c heparin drip when has been therapeutic (INR between [**2-8**] for 24
   hours).  Ok to go to rehab on heparin drip.
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - HD MWF
   - Continue cellcept/prednisone; may need stress dose prednisone if HD
   unstable.
   - On Renagel 800 tid.
   - Started Sevelemer 30.
   .
   Other less active/stable issues:
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachy and hypertensive.
   # HypoNa: Had been having issues with hyponatremia, but has since
   resolved.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - ISS
   FEN: No IVF, replete electrolytes, tube feeds (Novasource Renal)
   Prophylaxis: Subcutaneous heparin, discontinue famotidine and instead
   start sucralfate (per ID)
   Access: L art line which has been intermittently working and not
   working, may need to be replaced at some point. R PICC placed [**11-23**] now
   also reportedly not working, and may need to be pulled due to fevers,
   and if so, will need to have new central line placed. New L subclavian
   HD line placed [**11-30**], would be very hesitant to pull this line given
   how difficult it was to place.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: pending rehab placement if can wean from vent.  [**First Name8 (NamePattern2) 273**]
   [**Last Name (NamePattern1) **] working on placement. Place PT/OT consult.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-10**] 05:40 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   20 Gauge - [**2107-12-6**] 02:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-10 11:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Back on vent overnight
   Started on coumadin for thomboses in IJ, IVC
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2107-12-7**] 06:55 PM
   Bactrim (SMX/TMP) - [**2107-12-9**] 05:10 PM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2107-12-9**] 01:56 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-10**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 75 (66 - 93) bpm
   BP: 167/71(93) {108/45(61) - 189/88(103)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.8 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,408 mL
                                                                  1,330 mL
   PO:
             TF:
                                                                  1,023 mL
                                                                    477 mL
   IVF:
                                                                    935 mL
                                                                    793 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                     50 mL
   Urine:
   50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,592 mL
                                                                  1,280 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 395 (338 - 460) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 5.1 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, mental status waxes/wanes,
   squeezes hands
   Labs / Radiology
   6.7 g/dL
   417 K/uL
   142 mg/dL
   4.4 mg/dL
   32 mEq/L
   3.5 mEq/L
   28 mg/dL
   91 mEq/L
   135 mEq/L
   22.0 %
   12.9 K/uL
        [image002.jpg]
                             [**2107-12-7**]  03:15 AM
                             [**2107-12-7**]  04:32 PM
                             [**2107-12-7**]  10:54 PM
                             [**2107-12-8**]  04:47 AM
                             [**2107-12-8**]  01:50 PM
                             [**2107-12-8**]  04:29 PM
                             [**2107-12-9**]  01:28 AM
                             [**2107-12-9**]  01:41 AM
                             [**2107-12-9**]  04:54 AM
                             [**2107-12-10**]  02:26 AM
   WBC
   14.4
   14.3
   13.0
   12.9
   Hct
   22.0
   25.6
   25.0
   25.2
   22.0
   Plt
   372
   418
   436
   417
   Cr
   6.0
   4.5
   5.7
   4.4
   TCO2
   40
   36
   34
   37
   30
   Glucose
   189
   167
   135
   142
   Other labs: PT / PTT / INR:14.9/56.8/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.3,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:1137 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:198 IU/L, Ca++:9.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Microbiology: c diff negative
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   Acute resp failure
 on trach collar
   Labile BPs
 off pressors, on labetolol, will broaden parameters
   Agitation
 intermittent
   Aspiration of tube feeds this AM
 watch for signs of fever/aspiration
   pneumonitis
   Altered MS
 improving gradually but fluctuates
   Sinus infection
 stenotroph on Bactrim x 21 d course until [**12-15**]
   Subclinical seizures
 on keppra
   Thomboses
 heparin drip
   Dispo
 being screened for rehab
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2107-12-10**] 05:40 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   20 Gauge - [**2107-12-6**] 02:20 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Sucralafate
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2107-12-11 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2107-12-10**] 09:23 AM
 BLOOD CULTURED - At [**2107-12-10**] 09:00 PM
   PICC
 BLOOD CULTURED - At [**2107-12-10**] 10:31 PM
   Venipuncture
 SPUTUM CULTURE - At [**2107-12-10**] 10:31 PM
 FEVER - 101.4
F - [**2107-12-10**] 08:00 PM
   SBP to 90s and 80s, with MAP
s in mid-50
s overnight. Given 500cc NS
   bolus without effect. Started on phenylephrine (neo) with goal MAP >60.
   BP responding to pressor now.
   Patient low-grade febrile, rising white count, hypotension, so started
   on vanc, zosyn, flagyl (to cover gram positive in sputum, gram
   negatives broadly, and aspiration event from yesterday).
   Given 2 units of pRBC but without any Hct rise. Concern for bleed -
   ?intraabdominal. Guiac negative, no obvious visual sites of bleed/ooze.
   Ordered for another 4 units of pRBC. DIC and hemolysis labs
   unremarkable.
   Less arousable
 required sternal rub, and then opened eyes to command.
   Plan: CT torso and head with contrast today to look for source of bleed
   and/or infection and/or AMS.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2107-12-10**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-11**] 06:54 AM
   Vancomycin - [**2107-12-11**] 06:55 AM
   Metronidazole - [**2107-12-11**] 06:55 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-11**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.2
C (100.8
   HR: 73 (68 - 90) bpm
   BP: 98/48(60) {76/37(49) - 193/123(149)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.4 kg (admission): 110 kg
   Height: 70 Inch
           Total In:
                                                                  2,947 mL
                                                                  2,033 mL
   PO:
           TF:
                                                                    727 mL
   IVF:
                                                                  1,692 mL
                                                                  1,666 mL
   Blood products:
                                                                    259 mL
                                                                    308 mL
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,747 mL
                                                                  2,033 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 344 (317 - 374) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 7.3 L/min
   Physical Examination
   GEN: NAD, resting in bed, does not respond to visual or verbal stimuli.
   Opens eyes halfway to sternal rub. Some spontaneous movement of his
   right hand.
   CV: II/VI SEM
   PULM: CTAB
   ABD: +BS, more distended and tense, no TTP appreciable
   EXTR: no edema
   SKIN: no bleeding/bruising appreciated
   Labs / Radiology
   402 K/uL
   6.3 g/dL
   135 mg/dL
   6.1 mg/dL
   29 mEq/L
   3.9 mEq/L
   37 mg/dL
   87 mEq/L
   131 mEq/L
   20.1 %
   20.0 K/uL
        [image002.jpg]
                             [**2107-12-8**]  04:29 PM
                             [**2107-12-9**]  01:28 AM
                             [**2107-12-9**]  01:41 AM
                             [**2107-12-9**]  04:54 AM
                             [**2107-12-10**]  02:26 AM
                             [**2107-12-10**]  03:38 PM
                             [**2107-12-10**]  03:54 PM
                             [**2107-12-11**]  02:24 AM
                             [**2107-12-11**]  05:34 AM
                             [**2107-12-11**]  05:49 AM
   WBC
   13.0
   12.9
   17.0
   20.0
   Hct
   25.2
   22.0
   20.7
   19.6
   20.1
   Plt
   436
   417
   454
   402
   Cr
   5.7
   4.4
   6.1
   TCO2
   34
   37
   30
   Glucose
   135
   142
   173
   125
   135
   Other labs: PT / PTT / INR:19.0/97.7/1.7, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/0.7,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:854 mg/dL, Lactic Acid:2.1 mmol/L,
   LDH:198 IU/L, Ca++:10.7 mg/dL, Mg++:2.5 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
   .
   # Hct stable despite 2 units pRBC: DIC and hemolysis labs negative,
   consider bleed.
   - transfuse 2 units pRBC
   - repeat PM CBC, DIC panel, hemolysis labs
   - f/u Hct after 2 unit transfusion
   - get another peripheral IV
   - crossmatch 4 units
   - torso scan CT with contrast and head CT with contrast, to look for
   internal bleed site
   - guiac stool
   .
   # Hypotension: On neo since early this morning, goal MAP >60. Question:
   sepsis as etiology with fever and leukocytosis, versus hypotension
   secondary to blood loss.
   - continue neo with goal MAP >60
   - continue vancomycin and zosyn
   - d/c flagyl as that would double-cover with zosyn for anaerobes, and
   feel zosyn coverage for aspiration is adequate
   - f/u cultures (blood and sputum cultures)
   - f/u c.diff
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   - not weaning vent today due to tenuous status
   - Monitor PO2 and respiratory status
   - NPO
   - change oral meds to IV
   - f/u CXR read; CXR tomorrow
   - cont zosyn to cover for anaerobes
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis.
   - Pressure support
   - Decreased Methadone to 5 to wean.  Continue at current dose for
   today.
   - Zyprexa PRN agitation
   - avoid sedation d/t AMS if possible
   - pm ABG
   .
     # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**].
   - Hold antihypertensives while on pressors, but have IV labetalol
   available for SBP >160 prn.
   .
   # Anemia.  See Hct section above.
   Previously, chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.
   - EPO at HD
   .
   # Spiking fevers, hypotension: See hypotension section above.
   Infection (recent sputum with Micrococcus and now with positive sputum
   Cx's as well) vs blood transfusion reaction (got 1U yesterday, hasn't
   received transfusions before this), possible drug reaction (started
   Keppra recently) vs TTP (less likely) vs abdominal perforation with
   free air under diaphragm (although just had PEG placed).   Currently
   afebrile.
   .
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.
   - Continue Bactrim until [**2107-12-15**]
   - Tylenol 650mg PO elixir q6hrs prn
   - [**Month (only) 60**] need to pull PICC in the future (febrile, and it
s an older line)
   and replace with new CVL. [**Month (only) 60**] need to talk to IR about pulling the
   PICC, but holding for now given vascular complexity.
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - Continue Keppra for possibility of subclinical seizures causing
   fever, MS change --> discuss with Neuro
   - f/u beta-glucan and galactomannan
   - Received inhaled pentamidine for prophylaxis (given cellcept and
   prednisone)
   - antibiotics and f/u cultures as above
   .
    # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 250 qday and an extra 250 after HD.  Patient
   was interactive and following commands [**12-7**], significantly improved
   mental status compared to previous mornings.
   Today, less alert and interactive.
   - Continue Keppra 250mg IV q12h
   - f/u neuro recs
   - CT head with contrast today
   - extra 250mg IV keppra today
   - hold sedation
   - methadone 5mg TID to assist with weaning from narcotic dependence
   .
   DVT: Patient found to have venous thrombi in several vessels including
   his IVC.  He is on a heparin drip and being bridged with coumadin
   - Daily INR
   - Coumadin 5mg PO daily
   - D/c heparin drip when has been therapeutic (INR between [**2-8**] for 24
   hours).  Ok to go to rehab on heparin drip.
   - if see any evidence for bleed on CT (given stable Hct in setting of 2
   transfusions pRBC), d/c heparin gtt (however continue it for now)
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - f/u renal recs
   - HD MWF
   - Continue prednisone; may need stress dose prednisone if HD unstable.
   Change PO to IV steroids given NPO s/p aspiration.
   - On Renagel 800 tid.
   - Started Sevelemer 30.
   .
   Other less active/stable issues:
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachy and hypertensive.
   # HypoNa: Had been having issues with hyponatremia, but has since
   resolved.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - ISS
   FEN: No IVF, replete electrolytes, s/p aspiration - NPO
   Prophylaxis: Heparin gtt, coumadin, sucralfate (per ID)
   Access: L art line which has been intermittently working and not
   working, may need to be replaced at some point. R PICC placed [**11-23**] now
   also reportedly not working, and may need to be pulled due to fevers,
   and if so, will need to have new central line placed. New L subclavian
   HD line placed [**11-30**], would be very hesitant to pull this line given
   how difficult it was to place. Consider placing a-line given on
   pressors today.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: pending rehab placement if can wean from vent.  [**First Name8 (NamePattern2) 273**]
   [**Last Name (NamePattern1) **] working on placement. Place PT/OT consult.
   ICU Care
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM

2107-12-11 08:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2107-12-10**] 09:23 AM
 BLOOD CULTURED - At [**2107-12-10**] 09:00 PM
   PICC
 BLOOD CULTURED - At [**2107-12-10**] 10:31 PM
   Venipuncture
 SPUTUM CULTURE - At [**2107-12-10**] 10:31 PM
 FEVER - 101.4
F - [**2107-12-10**] 08:00 PM
   Stable yesterday until ~2am, dropped BPs to MAP in 50s despite IVF.
   Given anuric on HD, was started on neo, responded well so far.
   Low grade fever, pancultured. Wbc increasing. Has GPC in sputum.
   Started Vanc/zosyn/flagyl
   increasingly somnolent
   For decreased Hct, transfused 2 units, Hct stable despite that
   CT torso ordered given unclear source of new anemia
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2107-12-10**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-11**] 06:54 AM
   Vancomycin - [**2107-12-11**] 06:55 AM
   Metronidazole - [**2107-12-11**] 06:55 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-11**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.9
C (98.5
   HR: 73 (68 - 90) bpm
   BP: 93/51(61) {76/37(49) - 193/123(149)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.4 kg (admission): 110 kg
   Height: 70 Inch
           Total In:
                                                                  2,947 mL
                                                                  2,072 mL
   PO:
           TF:
                                                                    727 mL
   IVF:
                                                                  1,692 mL
                                                                  1,705 mL
   Blood products:
                                                                    259 mL
                                                                    308 mL
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
                                                                     50 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,747 mL
                                                                  2,072 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 344 (317 - 374) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended, BS scant
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, no echymoses
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, opens eyes, no purposeful
   movement, not grimacing to pain
   Labs / Radiology
   6.3 g/dL
   402 K/uL
   135 mg/dL
   6.1 mg/dL
   29 mEq/L
   3.9 mEq/L
   37 mg/dL
   87 mEq/L
   131 mEq/L
   20.1 %
   20.0 K/uL
        [image002.jpg]
                             [**2107-12-8**]  04:29 PM
                             [**2107-12-9**]  01:28 AM
                             [**2107-12-9**]  01:41 AM
                             [**2107-12-9**]  04:54 AM
                             [**2107-12-10**]  02:26 AM
                             [**2107-12-10**]  03:38 PM
                             [**2107-12-10**]  03:54 PM
                             [**2107-12-11**]  02:24 AM
                             [**2107-12-11**]  05:34 AM
                             [**2107-12-11**]  05:49 AM
   WBC
   13.0
   12.9
   17.0
   20.0
   Hct
   25.2
   22.0
   20.7
   19.6
   20.1
   Plt
   436
   417
   454
   402
   Cr
   5.7
   4.4
   6.1
   TCO2
   34
   37
   30
   Glucose
   135
   142
   173
   125
   135
   Other labs: PT / PTT / INR:19.0/97.7/1.7, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/0.7,
   Amylase / Lipase:100/24, Fibrinogen:854 mg/dL, Lactic Acid:2.1 mmol/L,
   LDH:198 IU/L, Ca++:10.7 mg/dL, Mg++:2.5 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: Lactate 1.0 to 2.1
   Imaging: CXR ? left apex new opacity
   Microbiology: sputum [**12-7**] - stenotroph s to bactrim
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
   Sepsis - Leukocytosis/fever/new pressor requirement
   possibly related to aspiration [**12-10**]
   keep map>60
   agree with broad spect abx
   Acute blood loss anemia vs DIC - CT torso
   Altered MS
 improving gradually but fluctuates, hx of seizure
   disorder, on keppra.
   Change in MS in context of probable sepsis, background of ESRD
   Will check CT head
   Acute resp failure
 back on PSV for now
   Agitation
 intermittent, currently obtunded
   Sinus infection
 stenotroph on Bactrim x 21 d course until [**12-15**]
   Subclinical seizures
 on keppra
   Thomboses
 heparin drip
   CRF - HD M/W/F
   ICU Care
   Nutrition: npo for now
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Sucralafate
   VAP: Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-12-12 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - early this am became increasingly somnolent, only responding to
   sternal rub.
   - Hct did not respond to blood
   - CT torso d/t increasingly distended abdomen showed hepatic hematoma
   taking over large part of L liver lobe. Heparin and coumadin stopped
   patient given blood X4units and reversed with FFPX2 and vit K.
   - Hct continues to drift down.  Will recheck and give blood if
   continues to decrease.
   - patient agitated with no relief from the Zyprexa so was written for
   PRN Versed
   - patient did not get methadone or prednisone b/c not able to take PO
   - Hct trending down and INR unchanged with 2 FFP and 4 U PRBC so given
   another 2 of each
   - gas: 7.17/78/43.  Put back on rate control urgently. Needs repeat in
   30min to 1hour
   - Na this morning 122.
   - Neuro consulted early this morning.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2107-12-10**] 04:00 PM
   Vancomycin - [**2107-12-11**] 06:55 AM
   Metronidazole - [**2107-12-11**] 06:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-12**] 06:02 AM
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2107-12-12**] 05:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-12**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.2
C (97.1
   HR: 80 (67 - 91) bpm
   BP: 111/53(66) {79/31(38) - 128/81(84)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 110 kg
   Height: 70 Inch
           Total In:
                                                                  5,974 mL
                                                                  2,477 mL
   PO:
           TF:
   IVF:
                                                                  3,312 mL
                                                                  1,111 mL
   Blood products:
                                                                  2,002 mL
                                                                  1,305 mL
   Total out:
                                                                    750 mL
                                                                    150 mL
   Urine:
   NG:
                                                                    750 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  5,224 mL
                                                                  2,327 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 320 (316 - 380) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: GEN: NAD, resting in bed, does not respond to
   visual or verbal stimuli. Opens eyes halfway to sternal rub. Some
   spontaneous movement of his right hand.
   CV: II/VI SEM
   PULM: CTAB
   ABD: +BS, more distended and tense, no TTP appreciable
   EXTR: no edema
   SKIN: no bleeding/bruising appreciated
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   396 K/uL
   7.9 g/dL
   252 mg/dL
   7.1 mg/dL
   27 mEq/L
   4.4 mEq/L
   46 mg/dL
   80 mEq/L
   122 mEq/L
   26.4 %
   27.3 K/uL
        [image002.jpg]
                             [**2107-12-10**]  03:54 PM
                             [**2107-12-11**]  02:24 AM
                             [**2107-12-11**]  05:34 AM
                             [**2107-12-11**]  05:49 AM
                             [**2107-12-11**]  11:09 AM
                             [**2107-12-11**]  04:16 PM
                             [**2107-12-11**]  07:03 PM
                             [**2107-12-11**]  10:58 PM
                             [**2107-12-12**]  02:07 AM
                             [**2107-12-12**]  05:49 AM
   WBC
   17.0
   20.0
   23.2
   27.3
   Hct
   19.6
   20.1
   23.9
   27.4
   26.1
   24.7
   23.8
   26.4
   Plt
   454
   402
   451
   [**Telephone/Fax (3) 11052**]
   Cr
   6.1
   7.1
   Glucose
   173
   125
   135
   252
   Other labs: PT / PTT / INR:17.2/39.9/1.5, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.5,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:854 mg/dL, Lactic Acid:3.3 mmol/L,
   LDH:2140 IU/L, Ca++:10.7 mg/dL, Mg++:2.1 mg/dL, PO4:7.2 mg/dL
   Imaging: [**12-12**] CXR: (my read) increased right hilar opacity.  increased
   left hilar/posterior left upper lobe opacity
   Microbiology: [**12-10**] sputum cx:  (prelim) 2+ GPC in pairs and clusters,
   2+ GNR
   [**12-10**], [**12-7**] bcx ntd
   [**12-8**] stool cx:  neg
   [**12-7**] sputum cx:     GRAM STAIN (Final [**2107-12-7**]):       [**10-30**] PMNs and
   <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2107-12-9**]):
         STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA.    MODERATE GROWTH.
            [**2107-12-2**].
         STAPH AUREUS COAG +.    RARE GROWTH.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
   .
   # Hct stable despite 2 units pRBC: DIC and hemolysis labs negative,
   consider bleed.  CT showed hematoma of liver, difficulty reversing
   bleed.
   - transfuse 2 units pRBC
   - repeat PM CBC, DIC panel, hemolysis labs
   - f/u Hct after 2 unit transfusion
   - get another peripheral IV
   - crossmatch 4 units
   - torso scan CT with contrast and head CT with contrast, to look for
   internal bleed site
   - guiac stool
   .
   # Hypotension: On neo since early this morning, goal MAP >60. Question:
   sepsis as etiology with fever and leukocytosis, versus hypotension
   secondary to blood loss.  Sputum shows GNR and GPC in pairs and
   clusters
   - continue neo with goal MAP >60
   - continue vancomycin and zosyn
   - d/c flagyl as that would double-cover with zosyn for anaerobes, and
   feel zosyn coverage for aspiration is adequate
   - f/u cultures (blood and sputum cultures)
   -  c.diff negative
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   - not weaning vent today due to tenuous status
   - Monitor PO2 and respiratory status
   - NPO
   - change oral meds to IV
   - f/u CXR read; CXR tomorrow
   - cont zosyn to cover for anaerobes
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis.
   - Pressure support
   - Decreased Methadone to 5 to wean.  Continue at current dose for
   today.
   - Zyprexa PRN agitation
   - avoid sedation d/t AMS if possible
   - pm ABG
   .
   # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**].
   - Hold antihypertensives while on pressors, but have IV labetalol
   available for SBP >160 prn.
   .
   # Anemia.  See Hct section above.
   Previously, chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.
   - EPO at HD
   .
   # Spiking fevers, hypotension: See hypotension section above.
   Infection (recent sputum with Micrococcus and now with positive sputum
   Cx's as well) vs blood transfusion reaction (got 1U yesterday, hasn't
   received transfusions before this), possible drug reaction (started
   Keppra recently) vs TTP (less likely) vs abdominal perforation with
   free air under diaphragm (although just had PEG placed).   Currently
   afebrile.
   .
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.
   - Continue Bactrim until [**2107-12-15**]
   - Tylenol 650mg PO elixir q6hrs prn
   - [**Month (only) 60**] need to pull PICC in the future (febrile, and it
s an older line)
   and replace with new CVL. [**Month (only) 60**] need to talk to IR about pulling the
   PICC, but holding for now given vascular complexity.
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - Continue Keppra for possibility of subclinical seizures causing
   fever, MS change --> discuss with Neuro
   - f/u beta-glucan and galactomannan
   - Received inhaled pentamidine for prophylaxis (given cellcept and
   prednisone)
   - antibiotics and f/u cultures as above
   .
    # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 250 qday and an extra 250 after HD.  Patient
   was interactive and following commands [**12-7**], significantly improved
   mental status compared to previous mornings.
   Today, less alert and interactive.
   - Continue Keppra 250mg IV q12h
   - f/u neuro recs
   - CT head with contrast today
   - extra 250mg IV keppra today
   - hold sedation
   - methadone 5mg TID to assist with weaning from narcotic dependence
   .
   DVT: Patient found to have venous thrombi in several vessels including
   his IVC.  He is on a heparin drip and being bridged with coumadin
   - Daily INR
   - Coumadin 5mg PO daily
   - D/c heparin drip when has been therapeutic (INR between [**2-8**] for 24
   hours).  Ok to go to rehab on heparin drip.
   - if see any evidence for bleed on CT (given stable Hct in setting of 2
   transfusions pRBC), d/c heparin gtt (however continue it for now)
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - f/u renal recs
   - HD MWF
   - Continue prednisone; may need stress dose prednisone if HD unstable.
   Change PO to IV steroids given NPO s/p aspiration.
   - On Renagel 800 tid.
   - Started Sevelemer 30.
   .
   Other less active/stable issues:
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachy and hypertensive.
   # HypoNa: Had been having issues with hyponatremia, but has since
   resolved.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - ISS
   FEN: No IVF, replete electrolytes, s/p aspiration - NPO
   Prophylaxis: Heparin gtt, coumadin, sucralfate (per ID)
   Access: L art line which has been intermittently working and not
   working, may need to be replaced at some point. R PICC placed [**11-23**] now
   also reportedly not working, and may need to be pulled due to fevers,
   and if so, will need to have new central line placed. New L subclavian
   HD line placed [**11-30**], would be very hesitant to pull this line given
   how difficult it was to place. Consider placing a-line given on
   pressors today.
   .
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: pending rehab placement if can wean from vent.  [**First Name8 (NamePattern2) 273**]
   [**Last Name (NamePattern1) **] working on placement. Place PT/OT consult.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   20 Gauge - [**2107-12-11**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-12 08:57:00 Physician Attending Progress Note
Chief Complaint: s/ PEA arrest, hepatic hematoma, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Currently getting HD
   24 Hour Events:
   Had finding of large L hepatic hemotoma on CT scan last PM
   2 units additional pRBCs and 1 unit FFP transfused overnight --> 6
   units pRBCs total
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2107-12-10**] 04:00 PM
   Vancomycin - [**2107-12-11**] 06:55 AM
   Metronidazole - [**2107-12-11**] 06:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-12**] 06:02 AM
   Infusions:
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2107-12-12**] 05:27 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: [**3-9**] Mild
   Flowsheet Data as of  [**2107-12-12**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.2
C (97.1
   HR: 86 (67 - 91) bpm
   BP: 87/59(62) {79/31(38) - 128/81(84)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 110 kg
   Height: 70 Inch
           Total In:
                                                                  5,974 mL
                                                                  2,579 mL
   PO:
           TF:
   IVF:
                                                                  3,312 mL
                                                                  1,184 mL
   Blood products:
                                                                  2,002 mL
                                                                  1,305 mL
   Total out:
                                                                    750 mL
                                                                    150 mL
   Urine:
   NG:
                                                                    750 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  5,224 mL
                                                                  2,429 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 320 (316 - 380) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 91
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   scattered b/l)
   Abdominal: Distended, Tender: diffuse, no rebound
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   396 K/uL
   252 mg/dL
   7.1 mg/dL
   27 mEq/L
   4.4 mEq/L
   46 mg/dL
   80 mEq/L
   122 mEq/L
   26.4 %
   27.3 K/uL
        [image002.jpg]
                             [**2107-12-10**]  03:54 PM
                             [**2107-12-11**]  02:24 AM
                             [**2107-12-11**]  05:34 AM
                             [**2107-12-11**]  05:49 AM
                             [**2107-12-11**]  11:09 AM
                             [**2107-12-11**]  04:16 PM
                             [**2107-12-11**]  07:03 PM
                             [**2107-12-11**]  10:58 PM
                             [**2107-12-12**]  02:07 AM
                             [**2107-12-12**]  05:49 AM
   WBC
   17.0
   20.0
   23.2
   27.3
   Hct
   19.6
   20.1
   23.9
   27.4
   26.1
   24.7
   23.8
   26.4
   Plt
   454
   402
   451
   [**Telephone/Fax (3) 11052**]
   Cr
   6.1
   7.1
   Glucose
   173
   125
   135
   252
   Other labs: PT / PTT / INR:17.2/39.9/1.5, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:59/71, Alk Phos / T Bili:309/1.5,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:854 mg/dL, Lactic Acid:3.3 mmol/L,
   LDH:2140 IU/L, Ca++:10.7 mg/dL, Mg++:2.1 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Sepsis -
   Acute blood loss anemia vs DIC - CT torso
   Altered MS
 improving gradually but fluctuates, hx of seizure
   disorder, on keppra.
   Change in MS in context of probable sepsis, background of ESRD
   Will check CT head
   Acute resp failure
 back on PSV for now
   Agitation
 intermittent, currently obtunded
   Sinus infection
 stenotroph on Bactrim x 21 d course until [**12-15**]
   Subclinical seizures
 on keppra
   Thomboses
 heparin drip
   CRF - HD M/W/F
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   20 Gauge - [**2107-12-11**] 07:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-12-13 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.9
F - [**2107-12-12**] 08:00 PM
   Did not receive Vancomycin at HD due to miscommunication.
   - General surgery consulted for liver hematoma:  didn't feel was result
   of PEG, recommended closely following hct q6h and transfusing for Hct
   ~20.
   - IR [**Name (NI) 420**], don't believe hematoma is acute bleed so didn't want to
   embolize because want to spare hepatic artery and liver.  Will monitor
   hct and decide.
   - Got HD
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2107-12-11**] 06:55 AM
   Vancomycin - [**2107-12-11**] 06:55 AM
   Bactrim (SMX/TMP) - [**2107-12-13**] 04:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-13**] 05:50 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2107-12-13**] 06:00 AM
   Morphine Sulfate - [**2107-12-13**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-13**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.5
C (99.5
   HR: 90 (86 - 117) bpm
   BP: 152/68(86) {87/46(58) - 152/88(91)} mmHg
   RR: 24 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,779 mL
                                                                    771 mL
   PO:
             TF:
   IVF:
                                                                  2,293 mL
                                                                    771 mL
   Blood products:
                                                                  1,305 mL
   Total out:
                                                                    230 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    230 mL
   Stool:
   Drains:
   Balance:
                                                                  3,549 mL
                                                                    771 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 550 (351 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 35 cmH2O
   Plateau: 27 cmH2O
   Compliance: 31.6 cmH2O/mL
   SpO2: 96%
   ABG: ///33/
   Ve: 11.4 L/min
   Physical Examination
   GEN: NAD, intubated with trach, does not respond to visual or verbal
   stimuli.
   HEENT:  Erythematous eyes b/l with minimal purulent discharge in eyes
   CV: RRR, GII/VI SEM
   PULM: CTAB
   ABD: +BS, markedly distended and tense, markedly tender to palpation
   EXTR: no pedal edema
   Labs / Radiology
   351 K/uL
   8.6 g/dL
   177 mg/dL
   4.8 mg/dL
   33 mEq/L
   4.5 mEq/L
   24 mg/dL
   90 mEq/L
   135 mEq/L
   26.0 %
   35.0 K/uL
        [image002.jpg]
                             [**2107-12-11**]  07:03 PM
                             [**2107-12-11**]  10:58 PM
                             [**2107-12-12**]  02:07 AM
                             [**2107-12-12**]  05:49 AM
                             [**2107-12-12**]  11:15 AM
                             [**2107-12-12**]  11:27 AM
                             [**2107-12-12**]  03:33 PM
                             [**2107-12-12**]  09:00 PM
                             [**2107-12-12**]  09:30 PM
                             [**2107-12-13**]  03:04 AM
   WBC
   23.2
   27.3
   35.0
   Hct
   26.1
   24.7
   23.8
   26.4
   25.9
   25.7
   25.9
   26.0
   Plt
   [**Telephone/Fax (3) 11056**]67
   367
   355
   351
   Cr
   7.1
   4.1
   4.8
   Glucose
   [**Telephone/Fax (3) 11057**]85
   177
   Other labs: PT / PTT / INR:17.3/36.1/1.6, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:1128/1094, Alk Phos / T Bili:473/1.6,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:854 mg/dL, Lactic Acid:2.0 mmol/L,
   LDH:754 IU/L, Ca++:9.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Microbiology: [**2107-12-10**] 8:29 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2107-12-11**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
      RESPIRATORY CULTURE (Final [**2107-12-9**]):
         Commensal Respiratory Flora Absent.
         STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA.    MODERATE GROWTH.
            IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE #
   286-3590M
            [**2107-12-2**].
         STAPH AUREUS COAG +.    RARE GROWTH.
            SENSITIVITIES PERFORMED ON CULTURE # 286-3590M [**2107-12-2**]
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
   .
   # Liver Hematoma:  DIC and hemolysis labs negative, consider bleed.  CT
   showed hematoma of liver, difficulty reversing bleed.  s/p 2 units
   PRBC.  IR consulted re: possible embolization, did not feel the bleed
   was acute (felt >48 hours old) and wished to preserve hepatic artery
   and liver function if possible, so recommended monitoring Hct.  General
   surgery consulted re: possible relation to PEG placement, but did not
   believe this was [**2-7**] procedure based on the location of the hematoma.
   Recommended montoring q6h Hct and coags, transfusing as needed and
   keeping Hct >20.  Received 1 unit PRBC yesterday
   - Monitor coags and Hct q6h, transfuse for Hct <28; had stable hct
   yesterday, suggesting resolution of bleed with reversal of PTT/INR.
   - Active T&S; crossmatch 4 units
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis.
   - Patient back on CMV/AC
   - pO2 on venous ABG 40; maintain current vent settings
   - Methadone 5mg; patient cannot get while NPO.
   - Consider Presedex to help calm agitation without depressing
   respiratory status
   - Zyprexa PRN agitation
   .
   # Fevers/Hypotension: On neo since early this morning, goal MAP >60.
   Question: sepsis as etiology with fever and leukocytosis, versus
   hypotension secondary to blood loss.  Sputum shows GNR and GPC in pairs
   and clusters.  d/c
ed flagyl as that would double-cover with zosyn for
   anaerobes, and zosyn coverage for aspiration is adequate.  C. diff
   negative.
   - Continue neo with goal MAP >60
   - Continue vancomycin and zosyn for presumed aspiration PNA
   - f/u cultures (blood and sputum cultures)
   - Hydrocort stress dose steroids
   - Continue Bactrim until [**12-15**] for Stenotrophomonas
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   Patient on Vanc/Zosyn.  CXR shows no clear evidence of PNA but CT [**12-11**]
   showed confluent consolidative opacity of superior RLL, atelectasis vs.
   aspirationi or pneumonia.  Pt continues to be febrile following
   aspiration event.
   - not weaning vent today due to tenuous status
   - Cont Vanc/Zosyn to cover for aspiration (anaerobes)
   - NPO while acute GI problems resolve
   - change oral meds to IV; not receiving Methadone
   .
   # Pain:  Patient clearly in pain and uncomfortable, likely due to
   stretch of hepatic capsule due to hematoma.
   - Increase Morphine to 4mg q2h prn
   - Continue Versed 2-4mg q4h
   .
   # DVT: Patient found to have venous thrombi in several vessels
   including his IVC.  He is on a heparin drip and being bridged with
   coumadin.  All anticoagulation stopped when liver hematoma discovered.
   - Daily INR, no anticoagulation for now
   .
   # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**], then switched to Labetalol prn given fluctuating pressures.
   - IV labetalol prn for SBP >160 prn.
   .
   # Spiking fevers, hypotension: See hypotension section above.
   Infection (recent sputum with Micrococcus and now with positive sputum
   Cx's as well) vs blood transfusion reaction (got 1U yesterday, hasn't
   received transfusions before this), possible drug reaction (started
   Keppra recently) vs TTP (less likely) vs abdominal perforation with
   free air under diaphragm (although just had PEG placed).   Currently
   afebrile.
   .
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.
   - Continue Bactrim until [**2107-12-15**]
   - Tylenol 650mg PO elixir q6hrs prn
   - [**Month (only) 60**] need to pull PICC in the future (febrile, and it
s an older line)
   and replace with new CVL. [**Month (only) 60**] need to talk to IR about pulling the
   PICC, but holding for now given vascular complexity.
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - Continue Keppra for possibility of subclinical seizures causing
   fever, MS change --> discuss with Neuro
   - f/u beta-glucan and galactomannan
   - Received inhaled pentamidine for prophylaxis (given cellcept and
   prednisone)
   - antibiotics and f/u cultures as above
   .
    # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 250 qday and an extra 250 after HD.  Patient
   was interactive and following commands [**12-7**], significantly improved
   mental status compared to previous mornings.
   Today, less alert and interactive.
   - Continue Keppra 250mg IV q12h
   - f/u neuro recs
   - CT head with contrast today
   - extra 250mg IV keppra today
   - hold sedation
   - methadone 5mg TID to assist with weaning from narcotic dependence
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - f/u renal recs
   - HD MWF
   - Continue prednisone; may need stress dose prednisone if HD unstable.
   Change PO to IV steroids given NPO s/p aspiration.
   - On Renagel 800 tid.
   - Started Sevelemer 30.
   .
   Other less active/stable issues:
   .
   # Anemia.  See Hct section above.
   Previously, chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.
   - EPO at HD
   .
   # Hyponatremia:  Check electrolytes post-dialysis.  Resolved.
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachy and hypertensive.
   # HypoNa: Had been having issues with hyponatremia, but has since
   resolved.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - ISS
   FEN: No IVF, replete electrolytes, s/p aspiration - NPO
   Prophylaxis:  sucralfate (per ID)
   Access: R PICC placed [**11-23**] now also reportedly not working, and may
   need to be pulled due to fevers, and if so, will need to have new
   central line placed. L subclavian HD line placed [**11-30**], would be very
   hesitant to pull this line given how difficult it was to place.
   Consider placing a-line given on pressors today.
   .
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: Family meeting regarding goals of care.  ICU care given
   acute developments.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-13 11:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory FAilure, Renal Failure, s/p cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   HD yesterday
   24 Hour Events:
 FEVER - 101.9
F - [**2107-12-12**] 08:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-11**] 06:55 AM
   Metronidazole - [**2107-12-11**] 06:55 AM
   Bactrim (SMX/TMP) - [**2107-12-13**] 04:19 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-13**] 05:50 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2107-12-13**] 10:51 AM
   Morphine Sulfate - [**2107-12-13**] 10:51 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: [**3-9**] Mild
   Flowsheet Data as of  [**2107-12-13**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 36.8
C (98.2
   HR: 83 (83 - 117) bpm
   BP: 125/67(80) {87/46(58) - 179/88(105)} mmHg
   RR: 24 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  3,779 mL
                                                                    965 mL
   PO:
             TF:
   IVF:
                                                                  2,293 mL
                                                                    815 mL
   Blood products:
                                                                  1,305 mL
   Total out:
                                                                    230 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    230 mL
   Stool:
   Drains:
   Balance:
                                                                  3,549 mL
                                                                    965 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 550 (351 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 98%
   ABG: ///33/
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: No acute distress, but moving in bed
   Head, Ears, Nose, Throat: Normocephalic.  Scleral erythema.
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Distended, Tender: tender diffusely with minimal palpation
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, remains
   confused
   Labs / Radiology
   8.6 g/dL
   351 K/uL
   177 mg/dL
   4.8 mg/dL
   33 mEq/L
   4.5 mEq/L
   24 mg/dL
   90 mEq/L
   135 mEq/L
   26.0 %
   35.0 K/uL
        [image002.jpg]
                             [**2107-12-11**]  07:03 PM
                             [**2107-12-11**]  10:58 PM
                             [**2107-12-12**]  02:07 AM
                             [**2107-12-12**]  05:49 AM
                             [**2107-12-12**]  11:15 AM
                             [**2107-12-12**]  11:27 AM
                             [**2107-12-12**]  03:33 PM
                             [**2107-12-12**]  09:00 PM
                             [**2107-12-12**]  09:30 PM
                             [**2107-12-13**]  03:04 AM
   WBC
   23.2
   27.3
   35.0
   Hct
   26.1
   24.7
   23.8
   26.4
   25.9
   25.7
   25.9
   26.0
   Plt
   [**Telephone/Fax (3) 11056**]67
   367
   355
   351
   Cr
   7.1
   4.1
   4.8
   Glucose
   [**Telephone/Fax (3) 11057**]85
   177
   Other labs: PT / PTT / INR:17.3/36.1/1.6, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:1128/1094, Alk Phos / T Bili:473/1.6,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:854 mg/dL, Lactic Acid:2.0 mmol/L,
   LDH:754 IU/L, Ca++:9.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   62 yo man with multiple problems post [**Name2 (NI) **] arrest, including respiratory
   failure, ongoing fevers/WBC, large hepatic hematoma.
   Hepatic Hematoma/Blood Loss Anemia: Hct stable.  Pain control with prn
   morphine and versed.
   Altered MS
 worsened today.  Cont Keppra for szs.  Head CT unrevealing
   Resp failure
 Cont A/C
   Fevers and elevated WBC:  on vanc/zosyn (but missed a dose of vanc).
   stenotroph on Bactrim x 21 d course until [**12-15**]
   Thomboses
 cont to heparin gtt in setting of liver hematoma
   CRF - HD per renal
   Remainder of issues per ICU team.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: sucralfate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2107-12-14 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2107-12-13**] 10:51 AM
 BLOOD CULTURED - At [**2107-12-13**] 02:14 PM
   1 set from right picc and 1 set peripherally
 SPUTUM CULTURE - At [**2107-12-13**] 08:09 PM
   - If still spiking, consider ID consult tomorrow
   - Ophtho consult for red eyes: very dry eyes with some secondary
   corneal abrasions, started 2 types of ophtho ointments; also with small
   right conjunctival hemorrhage; concern for lack of reflex to hand shake
   in front of eye, consider CT head/neuro re-consult
   - Hct stable with q6h checks
   - tPA given for PICC clot
   - Pan culture for fever in setting of not receiving Vanc with HD
   yesterday due to miscommunication
   - surgery signed off
   - HTN to 200s, so gave IV labetalol without much response to 10mg
   twice, tried 10mg IV hydral with much better response
   - per renal: d/c'd aluminum hydroxide and added on vanco trough for
   this AM, trend LFT's
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-13**] 02:15 PM
   Bactrim (SMX/TMP) - [**2107-12-14**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-14**] 05:53 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2107-12-13**] 09:15 PM
   Hydralazine - [**2107-12-13**] 09:30 PM
   Midazolam (Versed) - [**2107-12-14**] 05:53 AM
   Morphine Sulfate - [**2107-12-14**] 05:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-14**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 83 (63 - 104) bpm
   BP: 169/72(94) {125/61(79) - 223/195(199)} mmHg
   RR: 24 (18 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,280 mL
                                                                    895 mL
   PO:
             TF:
   IVF:
                                                                  1,940 mL
                                                                    775 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                  2,100 mL
                                                                    895 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 129
   PIP: 37 cmH2O
   Plateau: 0 cmH2O
   Compliance: -61 cmH2O/mL
   SpO2: 99%
   ABG: ///32/
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: GEN: NAD, intubated with trach, does not respond to
   visual or verbal stimuli.
   HEENT:  Erythematous eyes b/l with minimal purulent discharge in eyes
   CV: RRR, GII/VI SEM
   PULM: CTAB
   ABD: +BS, markedly distended and tense, markedly tender to palpation
   EXTR: no pedal edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   350 K/uL
   9.5 g/dL
   154 mg/dL
   5.7 mg/dL
   32 mEq/L
   3.6 mEq/L
   38 mg/dL
   86 mEq/L
   131 mEq/L
   29.5 %
   41.4 K/uL
        [image002.jpg]
                             [**2107-12-12**]  05:49 AM
                             [**2107-12-12**]  11:15 AM
                             [**2107-12-12**]  11:27 AM
                             [**2107-12-12**]  03:33 PM
                             [**2107-12-12**]  09:00 PM
                             [**2107-12-12**]  09:30 PM
                             [**2107-12-13**]  03:04 AM
                             [**2107-12-13**]  12:58 PM
                             [**2107-12-13**]  09:50 PM
                             [**2107-12-14**]  06:00 AM
   WBC
   35.0
   35.8
   39.8
   41.4
   Hct
   26.4
   25.9
   25.7
   25.9
   26.0
   25.7
   26.8
   29.5
   Plt
   396
   367
   367
   355
   [**Telephone/Fax (2) 11067**]50
   Cr
   4.1
   4.8
   5.1
   5.7
   Glucose
   179
   141
   185
   177
   157
   154
   Other labs: PT / PTT / INR:14.9/31.2/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:871/493, Alk Phos / T Bili:529/1.0,
   Amylase / Lipase:100/24, Differential-Neuts:78.2 %, Lymph:12.8 %,
   Mono:4.3 %, Eos:4.5 %, Fibrinogen:854 mg/dL, Lactic Acid:1.3 mmol/L,
   LDH:495 IU/L, Ca++:11.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR [**12-14**] - (my read) increased patchy diffuse right sided
   opacity
   Microbiology: [**2107-12-13**] 12:57 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2107-12-13**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   [**12-13**] bcx pending
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest, now ventilator-dependent due to mental status.
   .
   # Liver Hematoma:  DIC and hemolysis labs negative, consider bleed.  CT
   showed hematoma of liver, difficulty reversing bleed.  s/p 2 units
   PRBC.  IR consulted re: possible embolization, did not feel the bleed
   was acute (felt >48 hours old) and wished to preserve hepatic artery
   and liver function if possible, so recommended monitoring Hct.  General
   surgery consulted re: possible relation to PEG placement, but did not
   believe this was [**2-7**] procedure based on the location of the hematoma.
   Recommended montoring q6h Hct and coags, transfusing as needed and
   keeping Hct >20.  Received 1 unit PRBC yesterday
   - Monitor coags and Hct q6h, transfuse for Hct <28; had stable hct
   yesterday, suggesting resolution of bleed with reversal of PTT/INR.
   - Active T&S; crossmatch 4 units
   .
   # Fevers/Hypotension: On neo since early this morning, goal MAP >60.
   Question: sepsis as etiology with fever and leukocytosis, versus
   hypotension secondary to blood loss.  Sputum shows GNR and GPC in pairs
   and clusters.  d/c
ed flagyl as that would double-cover with zosyn for
   anaerobes, and zosyn coverage for aspiration is adequate.  C. diff
   negative.  Continued profound increasing leukocytosis.
   - Peripheral smear, diff
   - ID consult
   - Continue neo with goal MAP >60
   - Continue vancomycin and zosyn for presumed aspiration PNA
   - f/u cultures (blood and sputum cultures)
   - Hydrocort stress dose steroids
   - Continue Bactrim until [**12-15**] for Stenotrophomonas
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   Patient on Vanc/Zosyn.  CXR shows no clear evidence of PNA but CT [**12-11**]
   showed confluent consolidative opacity of superior RLL, atelectasis vs.
   aspirationi or pneumonia.  Pt continues to be febrile following
   aspiration event.
   - not weaning vent today due to tenuous status
   - Cont Vanc/Zosyn to cover for aspiration (anaerobes); consider
   DISCONTINUING Vanc given GNR in sputum
   - NPO while acute GI problems resolve
   - change oral meds to IV; not receiving Methadone
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis.
   - Patient back on CMV/AC
   - pO2 on venous ABG 40; maintain current vent settings
   - Methadone 5mg; patient cannot get while NPO.
   - Consider Presedex to help calm agitation without depressing
   respiratory status
   - Zyprexa PRN agitation
   .
   # Pain:  Patient clearly in pain and uncomfortable, likely due to
   stretch of hepatic capsule due to hematoma.
   - Increase Morphine to 4mg q2h prn
   - Continue Versed 2-4mg q4h
   .
   # DVT: Patient found to have venous thrombi in several vessels
   including his IVC.  He is on a heparin drip and being bridged with
   coumadin.  All anticoagulation stopped when liver hematoma discovered.
   - Daily INR, no anticoagulation for now
   .
   # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**], then switched to Labetalol prn given fluctuating pressures.
   - IV labetalol prn for SBP >160 prn.
   .
   # Spiking fevers, hypotension: See hypotension section above.
   Infection (recent sputum with Micrococcus and now with positive sputum
   Cx's as well) vs blood transfusion reaction (got 1U yesterday, hasn't
   received transfusions before this), possible drug reaction (started
   Keppra recently) vs TTP (less likely) vs abdominal perforation with
   free air under diaphragm (although just had PEG placed).   Currently
   afebrile.
   .
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.
   - Continue Bactrim until [**2107-12-15**]
   - Tylenol 650mg PO elixir q6hrs prn
   - [**Month (only) 60**] need to pull PICC in the future (febrile, and it
s an older line)
   and replace with new CVL. [**Month (only) 60**] need to talk to IR about pulling the
   PICC, but holding for now given vascular complexity.
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - Continue Keppra for possibility of subclinical seizures causing
   fever, MS change --> discuss with Neuro
   - f/u beta-glucan and galactomannan
   - Received inhaled pentamidine for prophylaxis (given cellcept and
   prednisone)
   - antibiotics and f/u cultures as above
   .
    # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 250 qday and an extra 250 after HD.  Patient
   was interactive and following commands [**12-7**], significantly improved
   mental status compared to previous mornings.
   Today, less alert and interactive.
   - Continue Keppra 250mg IV q12h
   - f/u neuro recs
   - CT head with contrast today
   - extra 250mg IV keppra today
   - hold sedation
   - methadone 5mg TID to assist with weaning from narcotic dependence
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - f/u renal recs
   - HD MWF
   - Continue prednisone; may need stress dose prednisone if HD unstable.
   Change PO to IV steroids given NPO s/p aspiration.
   - On Renagel 800 tid.
   - Started Sevelemer 30.
   .
   Other less active/stable issues:
   .
   # Anemia.  See Hct section above.
   Previously, chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.
   - EPO at HD
   .
   # Hyponatremia:  Check electrolytes post-dialysis.  Resolved.
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachy and hypertensive.
   # HypoNa: Had been having issues with hyponatremia, but has since
   resolved.
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - ISS
   FEN: No IVF, replete electrolytes, s/p aspiration - NPO
   Prophylaxis:  sucralfate (per ID)
   Access: R PICC placed [**11-23**] now also reportedly not working, and may
   need to be pulled due to fevers, and if so, will need to have new
   central line placed. L subclavian HD line placed [**11-30**], would be very
   hesitant to pull this line given how difficult it was to place.
   Consider placing a-line given on pressors today.
   .
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: Family meeting regarding goals of care.  ICU care given
   acute developments.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-14 11:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to encephalopathic
   Seen by optho yesterday
   24 Hour Events:
 EEG - At [**2107-12-13**] 10:51 AM
 BLOOD CULTURED - At [**2107-12-13**] 02:14 PM
   1 set from right picc and 1 set peripherally
 SPUTUM CULTURE - At [**2107-12-13**] 08:09 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-13**] 02:15 PM
   Bactrim (SMX/TMP) - [**2107-12-14**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-14**] 05:53 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2107-12-14**] 08:00 AM
   Morphine Sulfate - [**2107-12-14**] 08:00 AM
   Hydralazine - [**2107-12-14**] 08:51 AM
   Labetalol - [**2107-12-14**] 08:51 AM
   Other medications:
   per ICU
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: [**3-9**] Mild
   Flowsheet Data as of  [**2107-12-14**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 90 (63 - 104) bpm
   BP: 146/98(111) {127/61(81) - 223/195(202)} mmHg
   RR: 21 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,280 mL
                                                                    931 mL
   PO:
             TF:
   IVF:
                                                                  1,940 mL
                                                                    811 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                     90 mL
   Urine:
   NG:
                                                                    180 mL
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                  2,100 mL
                                                                    841 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 129
   PIP: 37 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.8 cmH2O/mL
   SpO2: 98%
   ABG: ///32/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: scleral erythema
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Distended, Tender: diffusely with light palpation
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   350 K/uL
   154 mg/dL
   5.7 mg/dL
   32 mEq/L
   3.6 mEq/L
   38 mg/dL
   86 mEq/L
   131 mEq/L
   29.5 %
   41.4 K/uL
        [image002.jpg]
                             [**2107-12-12**]  05:49 AM
                             [**2107-12-12**]  11:15 AM
                             [**2107-12-12**]  11:27 AM
                             [**2107-12-12**]  03:33 PM
                             [**2107-12-12**]  09:00 PM
                             [**2107-12-12**]  09:30 PM
                             [**2107-12-13**]  03:04 AM
                             [**2107-12-13**]  12:58 PM
                             [**2107-12-13**]  09:50 PM
                             [**2107-12-14**]  06:00 AM
   WBC
   35.0
   35.8
   39.8
   41.4
   Hct
   26.4
   25.9
   25.7
   25.9
   26.0
   25.7
   26.8
   29.5
   Plt
   396
   367
   367
   355
   [**Telephone/Fax (2) 11067**]50
   Cr
   4.1
   4.8
   5.1
   5.7
   Glucose
   179
   141
   185
   177
   157
   154
   Other labs: PT / PTT / INR:14.9/31.2/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:871/493, Alk Phos / T Bili:529/1.0,
   Amylase / Lipase:100/24, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, LDH:495 IU/L, Ca++:11.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPERTENSION, BENIGN
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   62 yo man with multiple problems post [**Name2 (NI) **] arrest, including respiratory
   failure, ongoing fevers/WBC, large hepatic hematoma.
   Hepatic Hematoma/Blood Loss Anemia: Hct stable.
   Altered MS
 continues to have much worsened mental status. there could
   be a significant pain component - will restart fentanyl in lieu of
   methadone.  d/c versed.  seroquel prn.  Cont Keppra for szs.  Head CT
   unrevealing
   Hypertension: labetolol
   Resp failure
 Cont A/C
   Fevers and elevated WBC:  fevers down but WBC elevated.  decrease
   steroids
   Thomboses
 cont to hold heparin gtt in setting of liver hematoma
   CRF - currently getting HD
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-12-15 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - pt with continued rigoring/writhing, although
   afebrile, with associated diaphoresis and hypertension. unclear whether
   due to bacteremia or pain or Vancomycin allergy or seizure activity.
   blood cultures from HD line sent, benadryl given (without much
   improvement), Keppra increased from 250 to 500mg [**Hospital1 **], hydral 25mg PO q6
   started, and plan for EEG monitoring overnight. Pt also receiving
   Fentanyl boluses for pain and labetolol drip for HTN.
   - Neuro: His most recent EEG has more pronounced epileptic discharges
   and his lack of response to visual stimuli with eye deviation could
   represent a seizure.  On exam today he appears to have normal blink to
   threat in all fields and is encephalopathic likely from toxic/metabolic
   etiology. 1.Please increase keppra to 500mg [**Hospital1 **], continue 250mg after
   dialysis.  2. Please order LTM EEG to assess pt for suubtle seizures.
   - Renal: next HD [**2107-12-16**].
   - no new ophtho recs
   24 Hour Events:
 STOOL CULTURE - At [**2107-12-14**] 08:03 AM
   Cdiff sent
 BLOOD CULTURED - At [**2107-12-14**] 03:00 PM
   HD cath
 EKG - At [**2107-12-14**] 06:00 PM
 BLOOD CULTURED - At [**2107-12-14**] 07:27 PM
   picc
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-13**] 02:15 PM
   Bactrim (SMX/TMP) - [**2107-12-14**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-14**] 10:01 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2107-12-14**] 08:00 AM
   Morphine Sulfate - [**2107-12-14**] 08:00 AM
   Hydralazine - [**2107-12-14**] 08:51 AM
   Labetalol - [**2107-12-14**] 12:00 PM
   Fentanyl - [**2107-12-15**] 05:15 AM
   Other medications:
   Prednisone 5mg IV qday
   Seroquel 25mg TID
   Flowsheet Data as of  [**2107-12-15**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 78 (69 - 107) bpm
   BP: 137/58(79) {118/52(49) - 188/119(202)} mmHg
   RR: 20 (16 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,165 mL
                                                                    232 mL
   PO:
             TF:
   IVF:
                                                                  1,985 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  4,090 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,925 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: ///33/
                                     pH
                                    7.48
                                    pCO2
                                     48
                                     pO2
                                     158
                                    HCO3
                                     37
                                   BaseXS
                                     11
   Ve: 12.6 L/min
   Physical Examination
   GEN: NAD, intubated with trach, agitated, ? tracking
   HEENT:  Erythematous eyes b/l
   CV: RRR
   PULM: CTAB
   ABD: +BS, markedly distended and tense, markedly tender to palpation
   EXTR: no pedal edema
   Labs / Radiology
   345 K/uL
   9.0 g/dL
   77 mg/dL
   4.0 mg/dL
   33 mEq/L
   3.2 mEq/L
   25 mg/dL
   94 mEq/L
   138 mEq/L
   26.4 %
   28.5 K/uL
        [image002.jpg]
                             [**2107-12-12**]  11:27 AM
                             [**2107-12-12**]  03:33 PM
                             [**2107-12-12**]  09:00 PM
                             [**2107-12-12**]  09:30 PM
                             [**2107-12-13**]  03:04 AM
                             [**2107-12-13**]  12:58 PM
                             [**2107-12-13**]  09:50 PM
                             [**2107-12-14**]  06:00 AM
                             [**2107-12-14**]  05:15 PM
                            [**2107-12-15**]  03:03 AM
   WBC
   35.0
   35.8
   39.8
   41.4
   28.5
   Hct
   25.7
   25.9
   26.0
   25.7
   26.8
   29.5
   26.4
   Plt
   367
   355
   351
   338
   369
   350
   345
   Cr
   4.1
   4.8
   5.1
   5.7
   3.6
   4.0
   Glucose
   179
   141
   185
   177
   157
   154
   104
   77
   Other labs: PT / PTT / INR:14.7/27.9/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:586/213, Alk Phos / T Bili:447/0.8,
   Amylase / Lipase:100/24, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:340 IU/L, Ca++:9.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Vanco 21
   Chromagranin
 315 (high but is renal failure)
   Imaging: [**2107-12-15**]  CXR done
   [**2107-12-14**] CXR  As compared to the previous radiograph, there is no
   relevant change. The positions of the tracheostomy tube and the
   bilateral central venous access lines are unchanged. An area of
   plate-like atelectasis emanating from the left hilus is slightly more
   extensive than on the previous examination. In turn, some preexisting
   vascular enlargement in the right lung is slightly less pronounced. The
   size of the cardiac silhouette is unchanged. No evidence of newly
   appeared focal parenchymal opacities. Mild overhydration
   could be present.
   [**2107-12-13**] This is an abnormal portable EEG due to multifocal
   synchronous epileptic abnormalities compatible with epileptiform
   discharges in the setting of a severe encephalopathy with multifocal
   structural pathology. Clinical correlation is recommended. The
   background rhythm was slow and disorganized consistent with a moderate
   to severe encephalopathy. Note is also made of suppressive bursts of
   the background rhythm which appear to be more pronounced in the right
   hemisphere suggestive of possible subcortical dysfunction in this area.
   No electrographic seizures were seen during this recording; however,
   given the frequency of epileptic discharges, a repeat study or
   continuous EEG monitoring is recommended for further evaluation.
   Microbiology: [**12-13**] and [**2107-12-10**] sputum cxr w. sparse growth GNRs
      [**12-7**] sputum CULTURE (Final [**2107-12-9**]):       Commensal Respiratory
   Flora Absent.       STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA.
   MODERATE GROWTH.
         STAPH AUREUS COAG +.    RARE GROWTH
   C diff neg x 2, C diff sent again yesterday
   B glucan
 73 (indeterm)
   Aspergill - pending
   Assessment and Plan
 DELIRIUM / CONFUSION
 HYPERTENSION, BENIGN
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p [**Doctor Last Name **] arrest during IR placement of temporary HD catheter, now
   ventilator-dependent due to mental status.
   .
   # Liver Hematoma:  DIC and hemolysis labs negative, consider bleed.  CT
   showed hematoma of liver, difficulty reversing bleed.  s/p 2 units
   PRBC.  IR consulted re: possible embolization, did not feel the bleed
   was acute (felt >48 hours old) and wished to preserve hepatic artery
   and liver function if possible, so recommended monitoring Hct.  General
   surgery consulted re: possible relation to PEG placement, but did not
   believe this was [**2-7**] procedure based on the location of the hematoma.
   Recommended montoring q6h Hct and coags, transfusing as needed and
   keeping Hct >20.  Received 1 unit PRBC yesterday
   - Monitor coags and Hct q6h, transfuse as needed to keep Hct >20; had
   stable hct x 2 dats, suggesting resolution of bleed with reversal of
   PTT/INR.
   - Active T&S; crossmatch 4 units
   .
   # Fevers: On neo since early this morning, goal MAP >60. Question:
   sepsis as etiology with fever and leukocytosis, versus hypotension
   secondary to blood loss.  Sputum shows GNR and GPC in pairs and
   clusters.  d/c
ed flagyl as that would double-cover with zosyn for
   anaerobes, and zosyn coverage for aspiration is adequate.  C. diff
   negative.  Continued profound increasing leukocytosis. Last elevated T
   on  [**2107-12-12**] (101.9).
   - Peripheral smear, diff - unremarkable
   - Continue vancomycin and zosyn for presumed aspiration PNA
   - f/u cultures (blood and sputum cultures)
   - f/u aspergillus study
   - Changed Hydrocort stress dose steroids to home Prednisone 5mg daily
   - Continue Bactrim until [**12-15**] for Stenotrophomonas
   - Given elevated WBC count and long term [**Last Name (LF) **], [**First Name3 (LF) 178**] start empiric
   coverage for C. diff colitis.  Will also send C. diff toxin x 3 and
   will stop tx if all negative.
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   Patient on Vanc/Zosyn.  CXR shows no clear evidence of PNA but CT [**12-11**]
   showed confluent consolidative opacity of superior RLL, atelectasis vs.
   aspirationi or pneumonia.  Pt was febrile following aspiration event
   but is now afebrile on Vanc/Zosyn x 3 days.
   - working to wean vent
 pt on CPAP this am ([**5-20**])
   - Cont Vanc/Zosyn to cover for aspiration (anaerobes)
   - will restart tube feeding slowly today
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis. As of today ([**12-15**]), transitioned from AC
   to CPAP.
   - Patient on CPAP, will wean as tolerated
   - ABG today as above
   - Now on Seroquel TID and Fentanyl boluses prn pain/agitation.
   .
   # Pain:  Patient appears in pain and uncomfortable, likely due to
   stretch of hepatic capsule due to hematoma.
   - Discontinue Morphine to 4mg q2h prn
   - Discontinue Versed 2-4mg q4h
   - Fentanyl IV
   .
   # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**], then switched to Labetalol prn given fluctuating pressures.
   -          Labetalol drip
 turned off overnight, now on Hydralazine Q6
   hours with reasonable control.
   .
   # Altered mental status s/p [**Month/Day (4) **] arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 500 qday and an extra 250 after HD.  Today,
   the patient is not alert or interactive.
   - Continue Keppra 500mg IV q12h; extra 250mg IV keppra with HD.
   - f/u neuro recs; Neuro re-consulted [**12-15**]
   - Order placed for 24hour video EEG monitoring.
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - f/u renal recs
   - HD per renal, next HD [**2107-12-16**] (MWF)
   - Continue home does of prednisone; may need stress dose prednisone if
   HD unstable. Change PO to IV steroids given NPO s/p aspiration.
   - On Renagel 800 tid.
   - Started Sevelemer 30.
   .
   Less active issues
   .
   # DVT: Patient found to have venous thrombi in several vessels
   including his IVC.  He was on a heparin drip, being bridged with
   coumadin.  However, all anticoagulation stopped when liver hematoma
   discovered.  Daily INR, no anticoagulation for now given liver hematoma
   and risk of bleed.
   .
   # Spiking fevers, hypotension: See fever section above.
   Infection (recent sputum with Micrococcus and now with positive sputum
   Cx's as well) vs blood transfusion reaction (got 1U yesterday, hasn't
   received transfusions before this), possible drug reaction (started
   Keppra recently) vs TTP (less likely) vs abdominal perforation with
   free air under diaphragm (although just had PEG placed).   Currently
   afebrile.
   .
   Of note: has had a long course of Cefepime for a positive UCx about 2
   wks ago with Pseudomonas and most recently Linezolid was added for
   purulent appearing CVL
s bilaterally that have been removed. One of the
   CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.
   - Continue Bactrim until [**2107-12-15**]
   - Tylenol 650mg PO elixir q6hrs prn
   - [**Month (only) 60**] need to pull PICC in the future (febrile, and it
s an older line)
   and replace with new CVL. [**Month (only) 60**] need to talk to IR about pulling the
   PICC, but holding for now given vascular complexity.
   - Normal haptoglobin reduces likelihood of hemolytic reaction to blood
   transfusion, but febrile transfusion rxn still possible?
   - Continue Keppra for possibility of subclinical seizures causing
   fever, MS change --> discuss with Neuro
   - beta-glucan (negative) and galactomannan still pending
   - Received inhaled pentamidine for prophylaxis (given cellcept and
   prednisone)
   - antibiotics and f/u cultures as above
   .
   # Anemia.  See Hct section above.
   Previously, chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.
   - EPO at HD
   .
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachycardia and hypertensive.
   .
   # Hyponatremia: Had been having issues with hyponatremia, but has since
   resolved. Monitoring sodium.
   .
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   .
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - [**Hospital1 **] insulin
   .
   FEN: No IVF, replete electrolytes, s/p aspiration
 NPO, but will
   re-start tube feeds slowly today
   Prophylaxis:  sucralfate (per ID), pneumoboots
   Access: R PICC placed [**11-23**] now working, may need to be pulled due to
   fevers, and if so, will need to have new central line placed. L
   subclavian HD line placed [**11-30**], would be very hesitant to pull this
   line given how difficult it was to place.
   .
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU care given acute developments.

2107-12-15 09:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Liver hematoma, s/p [** **] arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fever curve lower on vancomycin.
   MS remains poor.
   24 Hour Events:
 STOOL CULTURE - At [**2107-12-14**] 08:03 AM
   Cdiff sent
 BLOOD CULTURED - At [**2107-12-14**] 03:00 PM
   HD cath
 EKG - At [**2107-12-14**] 06:00 PM
 BLOOD CULTURED - At [**2107-12-14**] 07:27 PM
   picc
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-13**] 02:15 PM
   Bactrim (SMX/TMP) - [**2107-12-14**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-15**] 06:43 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2107-12-14**] 12:00 PM
   Fentanyl - [**2107-12-15**] 05:15 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-12-15**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 75 (69 - 107) bpm
   BP: 150/59(79) {118/52(49) - 179/119(124)} mmHg
   RR: 16 (16 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  2,165 mL
                                                                    476 mL
   PO:
             TF:
   IVF:
                                                                  1,985 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  4,090 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,925 mL
                                                                    476 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 507 (507 - 507) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.48/48/158/33/11
   Ve: 6.2 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   345 K/uL
   88
   4.0 mg/dL
   33 mEq/L
   3.2 mEq/L
   25 mg/dL
   94 mEq/L
   138 mEq/L
   26.4 %
   28.5 K/uL
        [image002.jpg]
                             [**2107-12-12**]  09:00 PM
                             [**2107-12-12**]  09:30 PM
                             [**2107-12-13**]  03:04 AM
                             [**2107-12-13**]  12:58 PM
                             [**2107-12-13**]  09:50 PM
                             [**2107-12-14**]  06:00 AM
                             [**2107-12-14**]  05:15 PM
                            [**2107-12-15**]  03:03 AM
                            [**2107-12-15**]  07:53 AM
                            [**2107-12-15**]  08:00 AM
   WBC
   35.0
   35.8
   39.8
   41.4
   28.5
   Hct
   25.9
   26.0
   25.7
   26.8
   29.5
   26.4
   Plt
   355
   351
   338
   [**Telephone/Fax (3) 11082**]
   Cr
   4.8
   5.1
   5.7
   3.6
   4.0
   TCO2
   37
   Glucose
   185
   177
   157
   154
   104
   77
   88
   Other labs: PT / PTT / INR:14.7/27.9/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:586/213, Alk Phos / T Bili:447/0.8,
   Amylase / Lipase:100/24, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:340 IU/L, Ca++:9.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 HYPERTENSION, BENIGN
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DIARRHEA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   62 yo man with multiple problems post [**Name2 (NI) **] arrest, including respiratory
   failure, ongoing fevers/WBC, large hepatic hematoma.
   Hepatic Hematoma/Blood Loss Anemia: Hct stable today --> value of 29
   last AM seems to be an outlier.
   Altered MS
 more calm and sleeping.  cont prn seroquel.
   Hypertension: labetolol prn --> d/c labetolol gtt.
   Resp failure
 On PSV 15/5 at the moment.
   Fevers and elevated WBC:  fevers down , WBC now lower (though still in
   high 20s).  Cont vanc/zosyn.  Bactrim course completed today.
   Thomboses
 cont to hold heparin gtt in setting of liver hematoma
   CRF - HD per renal
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Comments: restart tube feeds today
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2107-12-16 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2107-12-15**] 11:05 AM
 STOOL CULTURE - At [**2107-12-15**] 04:27 PM
   - Labetalol drip d/c'ed, started on Hydralazine 10mg IV q6h
   - NPO given significant abdominal distension (holding tube feeds)
   - Hct stable
   - HD tomorrow, Vanc 500mg IV x1 given per Renal rec
   - Mental status signficantly improved, responding to commands, abdomen
   much softer
   - This morning, PEEP decreased to 5 this morning, RSBI in the 50
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2107-12-14**] 04:00 AM
   Vancomycin - [**2107-12-15**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-16**] 05:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-16**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 89 (68 - 89) bpm
   BP: 125/60(84) {121/56(74) - 168/75(95)} mmHg
   RR: 14 (0 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,339 mL
                                                                    297 mL
   PO:
             TF:
                                                                     34 mL
   IVF:
                                                                    795 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,339 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 476 (450 - 577) mL
   PS : 10 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.48/48/158/31/11
   Ve: 4.7 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General Appearance: NAD, intubated with trach, calm and obeying
   commands, conversant
   HEENT:  Erythematous eyes b/l improved
   CV: RRR, GII SEM at RUSB radiating to apex
   PULM: CTAB
   ABD: distended and tense, tympanitic, non-tender to palpation, quiet
   but present BS
   EXTR: no pedal edema
   Labs / Radiology
   281 K/uL
   9.5 g/dL
   56 mg/dL
   5.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   40 mg/dL
   95 mEq/L
   139 mEq/L
   29.8 %
   16.6 K/uL
        [image002.jpg]
                             [**2107-12-13**]  03:04 AM
                             [**2107-12-13**]  12:58 PM
                             [**2107-12-13**]  09:50 PM
                             [**2107-12-14**]  06:00 AM
                             [**2107-12-14**]  05:15 PM
                            [**2107-12-15**]  03:03 AM
                            [**2107-12-15**]  07:53 AM
                            [**2107-12-15**]  08:00 AM
                            [**2107-12-15**]  02:52 PM
                            [**2107-12-16**]  04:53 AM
   WBC
   35.0
   35.8
   39.8
   41.4
   28.5
   19.0
   16.6
   Hct
   26.0
   25.7
   26.8
   29.5
   26.4
   28.3
   29.8
   Plt
   [**Telephone/Fax (3) 11067**]50
   345
   269
   281
   Cr
   4.8
   5.1
   5.7
   3.6
   4.0
   5.5
   TCO2
   37
   Glucose
   177
   157
   154
   104
   77
   88
   56
   Other labs: PT / PTT / INR:14.3/28.2/1.2,
   ALT / AST:390/104, Alk Phos / T Bili:410/0.8, Amylase / Lipase:100/24,
   Ca++:9.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Vanco: 25.0
   Imaging: [**12-16**] CXR - (my read) significant interval improvement of
   dense right middle lobe/retrocardiac opacity
   Microbiology: [**12-15**] C. diff negative
   [**12-13**]
   [**2107-12-13**] 12:57 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2107-12-13**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         Commensal Respiratory Flora Absent.
         STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA.    SPARSE GROWTH.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA
                                |
   TRIMETHOPRIM/SULFA----   <=1 S
   [**12-13**], [**12-14**] bcx ntd
   Assessment and Plan
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest during IR placement of temporary HD catheter, now
   ventilator-dependent due to mental status.
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   Patient on Vanc/Zosyn.  CXR shows no clear evidence of PNA but CT [**12-11**]
   showed confluent consolidative opacity of superior RLL, atelectasis vs.
   aspirationi or pneumonia.  Pt was febrile following aspiration event
   but is now afebrile on Vanc/Zosyn x 3 days.  However, sputum from [**12-13**]
   still growing Stenotrophomonas despite a course of Bactrim which
   finished [**12-15**].
   - Re-start Bactrim x14 day course, day 1=[**12-16**] to d/c [**12-30**]; appears
   Bactrim may not have been given at the correct times after HD and may
   have been dialyzed off in the past
   - Cont Vanc/Zosyn to cover for aspiration (anaerobes) for a 7 day
   course, currently day 5 on [**12-16**], d/c on [**12-18**].
   - Wean vent as below
 pt on CPAP this am
   .
   # Fevers: Infection (recent sputum with Micrococcus and now with
   positive sputum Cx's as well) vs blood transfusion reaction (got 1U
   yesterday, hasn't received transfusions before this), possible drug
   reaction (started Keppra recently) vs TTP (less likely) vs abdominal
   perforation with free air under diaphragm (although just had PEG
   placed).  Of note: has had a long course of Cefepime for a positive UCx
   about 2 wks ago with Pseudomonas and most recently Linezolid was added
   for purulent appearing CVL
s bilaterally that have been removed. One of
   the CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.  [**Month (only) 60**] need to pull PICC in the future
   (febrile, and it
s an older line) and replace with new CVL. [**Month (only) 60**] need to
   talk to IR about pulling the PICC, but holding for now given vascular
   complexity.  Normal haptoglobin reduces likelihood of hemolytic
   reaction to blood transfusion, but febrile transfusion rxn still
   possible?  Received inhaled pentamidine for prophylaxis (given cellcept
   and prednisone).  On neo since early this morning, goal MAP >60.
   Question: sepsis as etiology with fever and leukocytosis, versus
   hypotension secondary to blood loss.
   .
   Sputum shows GNR and GPC in pairs and clusters.  d/c
ed flagyl as that
   would double-cover with zosyn for anaerobes, and zosyn coverage for
   aspiration is adequate.  C. diff negative.  Continued profound
   increasing leukocytosis. Last elevated T on [**2107-12-12**] (101.9).
   Leukocytosis resolved following discontinuation of steroids.  Multiple
   C. diff toxins negative, will d/c Flagyl.  Afebrile.
   - Given elevated WBC count and long term [**Last Name (LF) **], [**First Name3 (LF) 178**] start empiric
   coverage for C. diff colitis.  Will also send C. diff toxin x 3 and
   will stop tx if all negative.  Despite multiple negative C. diff
   studies, will continue Flagyl as patient is clinically improving on his
   current antibiotic regimen and Flagyl may be treating an occult
   infection.
   - Continue vancomycin/zosyn for presumed aspiration PNA as above
   - Continue Bactrim as above for Stenotrophomonas
   - f/u cultures (blood and sputum cultures, aspergillus study
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis. As of today ([**12-15**]), transitioned from AC
   to CPAP.
   - Patient on CPAP, RSBI in the 50
s this morning, will attempt to
   convert to trach mask today
   - Pt has not received Fentanyl IV for 24 hours, will keep as prn but
   minimize use
   .
   # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**], then switched to Labetalol prn given fluctuating pressures.  On
   [**12-14**], Labetalol was d/c
ed and Hydralazine standing was started.
   - Continue Hydralazine Q6 hours; once BP stabilizes, consider
   transitioning to BP medication such as CCB or BB (hold off on ACE/[**Last Name (un) 239**]
   given acute on chronic renal failure) without the risk of rebound
   hypertension, given the patient
s history of labile BPs.
   - Changed Hydrocort stress dose steroids to home Prednisone 5mg daily
   .
   # Abdominal Distension:  Patient
s abdomen continues to be distended
   and tympanitic, recent CT abdomen [**12-11**] showed large liver hematoma with
   scattered areas of perihepatic hematoma and scattered blood within the
   mesentery but without definite sites of active extravasation.
   Distension likely [**2-7**] chemical peritonitis which is resolving following
   reversal of anticoagulation vs. functional ileus/[**Last Name (un) **]
s syndrome
   from infection/sepsis, intra-abdominal bleed, narcotic use, or
   respiratory failure.  This is consistent with the patient
s continued
   +bowel sounds and leukocytosis, but CT abdomen did not show dilated R
   side of colon and loops of bowel were read to be wnl.  Currently
   improved abdominal pain and minimally improved distension, but
   continued tense, distended, tympanitic abdomen.
   - Monitor and manage conservatively for now, given patient
s underlying
   conditions are slowly resolving and he is clinically improving
   - Continue to hold tube feeds for today
   - KUB today, and if no signs of dilated loops of bowel, consider very
   cautiously re-starting tube feeds
   # Liver Hematoma:  DIC and hemolysis labs negative, consider bleed.  CT
   showed hematoma of liver, difficulty reversing bleed.  s/p 2 units
   PRBC.  IR consulted re: possible embolization, did not feel the bleed
   was acute (felt >48 hours old) and wished to preserve hepatic artery
   and liver function if possible, so recommended monitoring Hct.  General
   surgery consulted re: possible relation to PEG placement, but did not
   believe this was [**2-7**] procedure based on the location of the hematoma.
   Recommended montoring q6h Hct and coags, transfusing as needed and
   keeping Hct >20.  Received 1 unit PRBC but has had stable Hct since,
   suggesting resolution of bleed with reversal of PTT/INR.
   - Monitor coags and Hct daily, goal Hct >28
   - Active T&S
   .
   # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 500 qday and an extra 250 after HD.  Today,
   the patient is not alert or interactive.  Neurology recommended 24 hour
   EEG monitoring, which was performed [**12-15**] with results pending.  On
   [**12-14**], the patient became significantly less agitated and was responsive
   and conversant, obeying commands and expressing intact cognition.
   Likely causes are delirium [**2-7**] medical condition and opioid withdrawal,
   and possible seizure and encephalopathy from acute liver failure or
   methadone use in the setting of liver failure.
   - Continue Keppra 500mg IV q12h; extra 250mg IV keppra with HD.
   - f/u neuro recs; Neuro re-consulted [**12-15**], completed 24 hour video EEG
   monitoring.  Will follow up on results.
   .
   # Injected, Irritated Eyes:  Ophtho consulted, recommended eye drops.
   - Continue eye drops per Ophtho
   .
   # Pain:  Patient appears in pain and uncomfortable, likely due to
   stretch of hepatic capsule due to hematoma and significant abdominal
   distension.  Discontinued Morphine, Methadone, and Versed.  Initiated
   on Fentanyl IV.
   - Pt has not been receiving Fentanyl IV for >24 hours, and will
   minimize use for patient comfort
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - f/u renal recs
   - HD per renal, next HD [**2107-12-16**] (MWF)
   - Continue home does of prednisone; may need stress dose prednisone if
   HD unstable. Change PO to IV steroids given NPO s/p aspiration.
   - On Renagel 800 tid, Sevelemer 30.
   .
   # DVT: Patient found to have venous thrombi in several vessels
   including his IVC.  He was on a heparin drip, being bridged with
   coumadin.  However, all anticoagulation stopped when liver hematoma
   discovered.  Daily INR, no anticoagulation for now given liver hematoma
   and risk of bleed.
   - Will need to re-address the issue of anti-coagulation for the
   patient
s multiple thrombi but will hold off on this discussion until
   next week, after the patient has been stable for another several days
   .
   Less active issues:
   .
   # Anemia.  See Hct section above.
   Previously, chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.
   - EPO at HD
   .
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachycardia and hypertensive.
   .
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   .
   # RUE swelling: Had u/s that did not completely visualize subclavian
   vein, but was thought  that DVT was unlikely. When pt had PICC placed
   yesterday found a thrombosed/stenosed brachial-cephalic vein with
   +collaterals--needs plasty prior to Picc removal if afebrile.
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - [**Hospital1 **] insulin
   .
   FEN: No IVF, replete electrolytes, NPO
   Prophylaxis:  sucralfate (per ID), pneumoboots
   Access: R PICC placed [**11-23**] now working, may need to be pulled due to
   fevers, and if so, will need to have new central line placed. L
   subclavian HD line placed [**11-30**], would be very hesitant to pull this
   line given how difficult it was to place.
   .
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU care given acute developments.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-16 09:59:00 Physician Attending Progress Note
Chief Complaint: Hepatic hematoma, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mental status much improved
   Denies any pain
   24 Hour Events:
 EEG - At [**2107-12-15**] 11:05 AM
 STOOL CULTURE - At [**2107-12-15**] 04:27 PM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2107-12-14**] 04:00 AM
   Vancomycin - [**2107-12-15**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-16**] 05:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-12-16**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 84 (68 - 93) bpm
   BP: 133/85(97) {121/53(74) - 185/85(108)} mmHg
   RR: 17 (0 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,339 mL
                                                                    417 mL
   PO:
             TF:
                                                                     34 mL
   IVF:
                                                                    795 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,339 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 535 (450 - 577) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: eyes less red
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   281 K/uL
   56 mg/dL
   5.5 mg/dL
   31 mEq/L
   3.4 mEq/L
   40 mg/dL
   95 mEq/L
   139 mEq/L
   29.8 %
   16.6 K/uL
        [image002.jpg]
                             [**2107-12-13**]  03:04 AM
                             [**2107-12-13**]  12:58 PM
                             [**2107-12-13**]  09:50 PM
                             [**2107-12-14**]  06:00 AM
                             [**2107-12-14**]  05:15 PM
                            [**2107-12-15**]  03:03 AM
                            [**2107-12-15**]  07:53 AM
                            [**2107-12-15**]  08:00 AM
                            [**2107-12-15**]  02:52 PM
                            [**2107-12-16**]  04:53 AM
   WBC
   35.0
   35.8
   39.8
   41.4
   28.5
   19.0
   16.6
   Hct
   26.0
   25.7
   26.8
   29.5
   26.4
   28.3
   29.8
   Plt
   [**Telephone/Fax (3) 11067**]50
   345
   269
   281
   Cr
   4.8
   5.1
   5.7
   3.6
   4.0
   5.5
   TCO2
   37
   Glucose
   177
   157
   154
   104
   77
   88
   56
   Other labs: PT / PTT / INR:14.3/28.2/1.2, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:390/104, Alk Phos / T Bili:410/0.8,
   Amylase / Lipase:100/24, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:320 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   62 yo man with multiple problems post [**Name2 (NI) **] arrest, including respiratory
   failure, ongoing fevers/WBC, large hepatic hematoma.
   Hepatic Hematoma/Blood Loss Anemia: Hct stable and abdomen non-tender
   Altered MS
 [**Name13 (STitle) 480**] mental status much improved over last 24-36 hrs.
   Correlates with improved abd exam, lower WBC, and improved fever curve
   Hypertension: labetolol prn
   Resp failure
 Will try TM trial after HD today
   Fevers and elevated WBC:  Given ongoing finding of stenotrophomonas and
   inadequate Bactrim therapy with HD - will count today as day [**1-19**] of
   Bactrim.  Vanco day [**5-12**].  Flagyl day#2 --> will d/c after 3 c. diff
   negative.
   Thomboses
 cont to hold heparin gtt in setting of liver hematoma
   CRF - HD today
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2107-12-17 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2107-12-16**] 01:14 PM
   24hr EEG removed
 INVASIVE VENTILATION - STOP [**2107-12-16**] 01:52 PM
 INVASIVE VENTILATION - START [**2107-12-16**] 11:30 PM
   Hct 31.9 to 27.6 over last 12 hours.
   Neuro
 cont. keppra, improved MS
   S&S
 PMV x10 minutes; a&o x3, counted [**1-12**] (but not to 10), naming
   intact, confused.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-16**] 01:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-17**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 82 (82 - 109) bpm
   BP: 166/63(89) {75/47(62) - 176/85(101)} mmHg
   RR: 29 (10 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,190 mL
                                                                    418 mL
   PO:
             TF:
   IVF:
                                                                    890 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  5,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -4,310 mL
                                                                    418 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 625 (466 - 625) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: NAD, with trach, calm and obeying commands,
   responds to q
s verbally with PMV in place.
   HEENT:  Erythematous eyes b/l improved
   CV: RRR, III/VI SEM, loudest at apex
   PULM: CTAB
   ABD: distended and tense, non-tender to palpation, quiet but present BS
   EXTR: without pedal edema
   Labs / Radiology
   301 K/uL
   9.0 g/dL
   78 mg/dL
   4.6 mg/dL
   30 mEq/L
   3.5 mEq/L
   27 mg/dL
   97 mEq/L
   140 mEq/L
   27.6 %
   15.4 K/uL
        [image002.jpg]
                             [**2107-12-14**]  06:00 AM
                             [**2107-12-14**]  05:15 PM
                            [**2107-12-15**]  03:03 AM
                            [**2107-12-15**]  07:53 AM
                            [**2107-12-15**]  08:00 AM
                            [**2107-12-15**]  02:52 PM
                            [**2107-12-16**]  04:53 AM
                            [**2107-12-16**]  05:00 PM
                            [**2107-12-16**]  10:00 PM
                            [**2107-12-17**]  04:25 AM
   WBC
   41.4
   28.5
   19.0
   16.6
   16.7
   15.4
   Hct
   29.5
   26.4
   28.3
   29.8
   31.9
   27.6
   Plt
   350
   345
   269
   [**Telephone/Fax (3) 11101**]
   Cr
   5.7
   3.6
   4.0
   5.5
   4.6
   TCO2
   37
   Glucose
   154
   104
   77
   88
   56
   91
   105
   78
   Other labs: PT / PTT / INR:15.3/29.7/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:320/70, Alk Phos / T Bili:396/1.1,
   Amylase / Lipase:100/21, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:279 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   LFTs improving
   c.diff negative
   KUB
 no obstruction, wet read
   CXR today (my read)
 no change; lines/tubes ok
   Assessment and Plan
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest during IR placement of temporary HD catheter, now
   ventilator-dependent due to mental status.
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   Patient on Vanc/Zosyn.  CXR shows no clear evidence of PNA but CT [**12-11**]
   showed confluent consolidative opacity of superior RLL, atelectasis vs.
   aspirationi or pneumonia.  Pt was febrile following aspiration event
   but is now afebrile on Vanc/Zosyn x 3 days.  However, sputum from [**12-13**]
   still growing Stenotrophomonas despite a course of Bactrim which
   finished [**12-15**].
   - Re-start Bactrim x14 day course, day 1=[**12-16**] to d/c [**12-30**]; appears
   Bactrim may not have been given at the correct times after HD and may
   have been dialyzed off in the past
   - Cont Vanc/Zosyn to cover for aspiration (anaerobes) for a 7 day
   course, currently day 5 on [**12-16**], d/c on [**12-18**].
   - Trach mask today as much as tolerated
   .
   # Fevers: Infection (recent sputum with Micrococcus and now with
   positive sputum Cx's as well) vs blood transfusion reaction (got 1U
   yesterday, hasn't received transfusions before this), possible drug
   reaction (started Keppra recently) vs TTP (less likely) vs abdominal
   perforation with free air under diaphragm (although just had PEG
   placed).  Of note: has had a long course of Cefepime for a positive UCx
   about 2 wks ago with Pseudomonas and most recently Linezolid was added
   for purulent appearing CVL
s bilaterally that have been removed. One of
   the CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.  [**Month (only) 60**] need to pull PICC in the future
   (febrile, and it
s an older line) and replace with new CVL. [**Month (only) 60**] need to
   talk to IR about pulling the PICC, but holding for now given vascular
   complexity.  Normal haptoglobin reduces likelihood of hemolytic
   reaction to blood transfusion, but febrile transfusion rxn still
   possible?  Received inhaled pentamidine for prophylaxis (given cellcept
   and prednisone).  On neo since early this morning, goal MAP >60.
   Question: sepsis as etiology with fever and leukocytosis, versus
   hypotension secondary to blood loss.
   .
   Sputum shows GNR and GPC in pairs and clusters.  d/c
ed flagyl as that
   would double-cover with zosyn for anaerobes, and zosyn coverage for
   aspiration is adequate.  C. diff negative.  Continued profound
   increasing leukocytosis. Last elevated T on [**2107-12-12**] (101.9).
   Leukocytosis resolved following discontinuation of steroids.  Multiple
   C. diff toxins negative, will d/c Flagyl.  Afebrile.
   - Given elevated WBC count and long term abxs, have started empiric
   coverage for C. diff colitis.  Will also send C. diff toxin x 3 and
   will stop tx if all negative.  Despite multiple negative C. diff
   studies, will continue Flagyl as patient is clinically improving on his
   current antibiotic regimen and Flagyl may be treating an occult
   infection.
   - send another c.diff
   - Continue vancomycin/zosyn for presumed aspiration PNA as above
   - Continue Bactrim as above for Stenotrophomonas
   - f/u cultures (blood and sputum cultures, aspergillus study)
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis. As of today ([**12-15**]), transitioned from AC
   to CPAP.
   - Trach mask planned for most of today, as toelrated
   - Pt has not received Fentanyl IV for >24 hours, will keep as prn but
   minimize use
   .
   # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**], then switched to Labetalol prn given fluctuating pressures.  On
   [**12-14**], Labetalol was d/c
ed and Hydralazine standing was started.
   - Continue Hydralazine Q6 hours; once BP stabilizes, consider
   transitioning to BP medication such as CCB or BB (hold off on ACE/[**Last Name (un) 239**]
   given acute on chronic renal failure) without the risk of rebound
   hypertension, given the patient
s history of labile BPs.
   - Changed Hydrocort stress dose steroids to home Prednisone 5mg daily
   .
   # Abdominal Distension:  Patient
s abdomen continues to be distended
   and tympanitic, recent CT abdomen [**12-11**] showed large liver hematoma with
   scattered areas of perihepatic hematoma and scattered blood within the
   mesentery but without definite sites of active extravasation.
   Distension likely [**2-7**] chemical peritonitis which is resolving following
   reversal of anticoagulation vs. functional ileus/[**Last Name (un) **]
s syndrome
   from infection/sepsis, intra-abdominal bleed, narcotic use, or
   respiratory failure.  This is consistent with the patient
s continued
   +bowel sounds and leukocytosis, but CT abdomen did not show dilated R
   side of colon and loops of bowel were read to be wnl.  Currently
   improved abdominal pain and minimally improved distension, but
   continued tense, distended, tympanitic abdomen.
   - Monitor and manage conservatively for now, given patient
s underlying
   conditions are slowly resolving and he is clinically improving
   - Ok to restart tubefeeds but slowly
   - f/u KUB from [**12-16**] final read
   # Liver Hematoma:  DIC and hemolysis labs negative, consider bleed.  CT
   showed hematoma of liver, difficulty reversing bleed.  s/p 2 units
   PRBC.  IR consulted re: possible embolization, did not feel the bleed
   was acute (felt >48 hours old) and wished to preserve hepatic artery
   and liver function if possible, so recommended monitoring Hct.  General
   surgery consulted re: possible relation to PEG placement, but did not
   believe this was [**2-7**] procedure based on the location of the hematoma.
   Recommended montoring q6h Hct and coags, transfusing as needed and
   keeping Hct >20.  Received 1 unit PRBC but has had stable Hct since,
   suggesting resolution of bleed with reversal of PTT/INR.
   - 3pm Hct today given drop
   - Monitor coags and Hct daily, goal Hct >28
   - Active T&S
   .
   # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 500 qday and an extra 250 after HD.  Today,
   the patient is not alert or interactive.  Neurology recommended 24 hour
   EEG monitoring, which was performed [**12-15**] with results pending.  On
   [**12-14**], the patient became significantly less agitated and was responsive
   and conversant, obeying commands and expressing intact cognition.
   Likely causes are delirium [**2-7**] medical condition and opioid withdrawal,
   and possible seizure and encephalopathy from acute liver failure or
   methadone use in the setting of liver failure.
   - Continue Keppra 500mg IV q12h; extra 250mg IV keppra with HD.
   - f/u neuro recs; Neuro re-consulted [**12-15**], completed 24 hour video EEG
   monitoring.  Will follow up on results.
   .
   # Injected, Irritated Eyes:  Ophtho consulted, recommended eye drops.
   Improving.
   - Continue eye drops per Ophtho
   .
   # Pain:  Patient appears in pain and uncomfortable, likely due to
   stretch of hepatic capsule due to hematoma and significant abdominal
   distension.  Discontinued Morphine, Methadone, and Versed.  Initiated
   on Fentanyl IV.
   - Pt has not been receiving Fentanyl IV for >24 hours, and will
   minimize use for patient comfort
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - f/u renal recs
   - HD per renal, next HD [**2107-12-16**] (MWF)
   - Continue home does of prednisone; may need stress dose prednisone if
   HD unstable. Change PO to IV steroids given NPO s/p aspiration.
   - On Renagel 800 tid, Sevelemer 30.
   .
   # DVT: Patient found to have venous thrombi in several vessels
   including his IVC.  He was on a heparin drip, being bridged with
   coumadin.  However, all anticoagulation stopped when liver hematoma
   discovered.  Daily INR, no anticoagulation for now given liver hematoma
   and risk of bleed.
   - Will need to re-address the issue of anti-coagulation for the
   patient
s multiple thrombi but will hold off on this discussion until
   next week, after the patient has been stable for another several days
   - Discuss with heme-onc on Monday [**12-19**]
   .
   Less active issues:
   .
   # Anemia.  See Hct section above.
   Previously, chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.
   - EPO at HD
   .
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachycardia and hypertensive.
   .
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   .
   # RUE swelling: Resolved. Had u/s that did not completely visualize
   subclavian vein, but was thought  that DVT was unlikely. When pt had
   PICC placed yesterday found a thrombosed/stenosed brachial-cephalic
   vein with +collaterals--needs plasty prior to Picc removal if afebrile.
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - [**Hospital1 **] insulin
   .
   FEN: No IVF, replete electrolytes, NPO, PMV use as tolerated.
   Restarting tubefeeds today.
   Prophylaxis:  sucralfate (per ID), pneumoboots
   Access: R PICC placed [**11-23**] now working, may need to be pulled due to
   fevers, and if so, will need to have new central line placed. L
   subclavian HD line placed [**11-30**], would be very hesitant to pull this
   line given how difficult it was to place.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU care continues given acuity of illness.
   ICU Care
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Code status: Full code

2107-12-17 10:50:00 Physician Attending Progress Note
Chief Complaint: Hepatic Encephalopathy, Respiratory Failure, s/p [** **]
   arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MS improved.  Used PMV yesterday.
   24 Hour Events:
 EEG - At [**2107-12-16**] 01:14 PM
   24hr EEG removed
 INVASIVE VENTILATION - STOP [**2107-12-16**] 01:52 PM
 INVASIVE VENTILATION - START [**2107-12-16**] 11:30 PM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-16**] 01:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: trach mask
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-12-17**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 98 (82 - 109) bpm
   BP: 150/64(86) {75/47(62) - 176/82(101)} mmHg
   RR: 14 (10 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,190 mL
                                                                    446 mL
   PO:
             TF:
   IVF:
                                                                    890 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  5,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -4,310 mL
                                                                    446 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 482 (466 - 625) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive today
   and not confused
   Labs / Radiology
   9.0 g/dL
   301 K/uL
   80 mg/dL
   4.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   28 mg/dL
   97 mEq/L
   140 mEq/L
   27.6 %
   15.4 K/uL
        [image002.jpg]
                             [**2107-12-14**]  05:15 PM
                            [**2107-12-15**]  03:03 AM
                            [**2107-12-15**]  07:53 AM
                            [**2107-12-15**]  08:00 AM
                            [**2107-12-15**]  02:52 PM
                            [**2107-12-16**]  04:53 AM
                            [**2107-12-16**]  05:00 PM
                            [**2107-12-16**]  10:00 PM
                            [**2107-12-17**]  04:25 AM
                            [**2107-12-17**]  08:00 AM
   WBC
   28.5
   19.0
   16.6
   16.7
   15.4
   Hct
   26.4
   28.3
   29.8
   31.9
   27.6
   Plt
   [**Telephone/Fax (3) 11106**]09
   301
   Cr
   3.6
   4.0
   5.5
   4.6
   4.7
   TCO2
   37
   Glucose
   104
   77
   88
   56
   91
   105
   78
   80
   Other labs: PT / PTT / INR:15.3/29.7/1.3, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:320/70, Alk Phos / T Bili:396/1.1,
   Amylase / Lipase:100/21, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:279 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   62 yo man with multiple problems post [**Name2 (NI) **] arrest, including respiratory
   failure, ongoing fevers/WBC, large hepatic hematoma.
   Hepatic Hematoma/Blood Loss Anemia: Hct stable down to 27 today - will
   cont to trend.  Pt remains clinically improved with non-tender abdomen
   Altered MS
 Improving
   Hypertension: labetolol prn
   Resp failure
 TM as tolerated plus PMV
   Fevers and elevated WBC:  Day [**2-19**] of Bactrim.  Vanco day [**6-12**].  Flagyl
   day#3 --> will d/c after 3 c. diff negative.
   Thomboses
 cont to hold heparin gtt in setting of liver hematoma
   CRF - HD per renal
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2107-12-18 08:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ESRD, PEA arrest, liver hematoma
   24 Hour Events:
   - Patient with hypertension (200s/100s) this PM; denied CP, HA, vision
   changes, SOB.  Responded well to Labetolol 10mg IV (140s/80s).
   However, should page the renal fellow this AM to let them know that pt
   needs to be dialyzed today for volume overload.
   - overall, much improved mental status (patient talking, oriented and
   [**Location (un) 308**] today) and respiratory status, Passy-Muir in place for most of
   day (CPAP overnight).
   - d/w heme onc on monday ([**12-19**]) recs for anti-coag
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-16**] 01:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2107-12-18**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 86 (85 - 104) bpm
   BP: 157/63(86) {104/50(65) - 213/140(158)} mmHg
   RR: 19 (14 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,143 mL
                                                                    399 mL
   PO:
             TF:
                                                                     23 mL
   IVF:
                                                                    790 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,143 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 596 (343 - 596) mL
   PS : 10 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: NAD, with trach, calm and obeying commands,
   speaking with PMV in place.
   HEENT:  Erythematous eyes b/l improved
   CV: RRR, III/VI SEM, loudest at apex
   PULM: CTAB
   ABD: distended and tense, non-tender to palpation, quiet but present BS
   EXTR: without pedal edema
   Labs / Radiology
   335 K/uL
   9.3 g/dL
   97 mg/dL
   6.2 mg/dL
   28 mEq/L
   3.9 mEq/L
   42 mg/dL
   96 mEq/L
   139 mEq/L
   29.8 %
   16.9 K/uL
        [image002.jpg]
                            [**2107-12-15**]  07:53 AM
                            [**2107-12-15**]  08:00 AM
                            [**2107-12-15**]  02:52 PM
                            [**2107-12-16**]  04:53 AM
                            [**2107-12-16**]  05:00 PM
                            [**2107-12-16**]  10:00 PM
                            [**2107-12-17**]  04:25 AM
                            [**2107-12-17**]  08:00 AM
                            [**2107-12-17**]  05:10 PM
                            [**2107-12-18**]  02:59 AM
   WBC
   19.0
   16.6
   16.7
   15.4
   16.9
   Hct
   28.3
   29.8
   31.9
   27.6
   30.2
   29.8
   Plt
   [**Telephone/Fax (3) 11125**]01
   335
   Cr
   5.5
   4.6
   4.7
   6.2
   TCO2
   37
   Glucose
   88
   56
   91
   105
   78
   80
   97
   Other labs: PT / PTT / INR:15.7/30.9/1.4, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:262/56, Alk Phos / T Bili:399/1.2,
   Amylase / Lipase:100/31, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:288 IU/L, Ca++:10.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.7 mg/dL
   Vanco 18.7
   Imaging: CXR [**12-17**] - no change
   CXR [**12-18**] - ? LLL haziness
   KUB [**12-16**]
 no obstruction
   Microbiology: None new
   Assessment and Plan
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest during IR placement of temporary HD catheter, now
   ventilator-dependent due to mental status.
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   Patient on Vanc/Zosyn.  CXR shows no clear evidence of PNA but CT [**12-11**]
   showed confluent consolidative opacity of superior RLL, atelectasis vs.
   aspirationi or pneumonia.  Pt was febrile following aspiration event
   but is now afebrile on Vanc/Zosyn x 3 days.  However, sputum from [**12-13**]
   still growing Stenotrophomonas despite a course of Bactrim which
   finished [**12-15**].
   - Re-start Bactrim x14 day course, day 1=[**12-16**] to d/c [**12-30**]; appears
   Bactrim may not have been given at the correct times after HD and may
   have been dialyzed off in the past
   - Cont Vanc/Zosyn to cover for aspiration (anaerobes) for a 7 day
   course, currently day 5 on [**12-16**], d/c on [**12-18**] -> will d/c today
   - Trach mask today as much as tolerated
   .
   # Fevers: Infection (recent sputum with Micrococcus and now with
   positive sputum Cx's as well) vs blood transfusion reaction (got 1U
   yesterday, hasn't received transfusions before this), possible drug
   reaction (started Keppra recently) vs TTP (less likely) vs abdominal
   perforation with free air under diaphragm (although just had PEG
   placed).  Of note: has had a long course of Cefepime for a positive UCx
   about 2 wks ago with Pseudomonas and most recently Linezolid was added
   for purulent appearing CVL
s bilaterally that have been removed. One of
   the CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.  [**Month (only) 60**] need to pull PICC in the future
   (febrile, and it
s an older line) and replace with new CVL. [**Month (only) 60**] need to
   talk to IR about pulling the PICC, but holding for now given vascular
   complexity.  Normal haptoglobin reduces likelihood of hemolytic
   reaction to blood transfusion, but febrile transfusion rxn still
   possible?  Received inhaled pentamidine for prophylaxis (given cellcept
   and prednisone).  On neo since early this morning, goal MAP >60.
   Question: sepsis as etiology with fever and leukocytosis, versus
   hypotension secondary to blood loss.
   .
   Sputum shows GNR and GPC in pairs and clusters.  d/c
ed flagyl as that
   would double-cover with zosyn for anaerobes, and zosyn coverage for
   aspiration is adequate.  C. diff negative.  Continued profound
   increasing leukocytosis. Last elevated T on [**2107-12-12**] (101.9).
   Leukocytosis resolved following discontinuation of steroids.  Multiple
   C. diff toxins negative, will d/c Flagyl.  Afebrile.
   - Given elevated WBC count and long term abxs, have started empiric
   coverage for C. diff colitis.  Will also send C. diff toxin x 3 and
   will stop tx if all negative.  Despite multiple negative C. diff
   studies, will continue Flagyl as patient is clinically improving on his
   current antibiotic regimen and Flagyl may be treating an occult
   infection.
   - send another c.diff
   - Continue vancomycin/zosyn for presumed aspiration PNA as above
 can
   d/c today [**12-18**]
   - Continue Bactrim as above for Stenotrophomonas
   - f/u cultures (blood and sputum cultures, aspergillus study)
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis. As of today ([**12-15**]), transitioned from AC
   to CPAP.
   - Trach mask planned for most of today, as tolerated
   - Pt has not received Fentanyl IV for >48 hours, will keep as prn but
   minimize use
   .
   # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**], then switched to Labetalol prn given fluctuating pressures.  On
   [**12-14**], Labetalol was d/c
ed and Hydralazine standing was started.
   - Continue Hydralazine Q6 hours; once BP stabilizes, consider
   transitioning to BP medication such as CCB or BB (hold off on ACE/[**Last Name (un) 239**]
   given acute on chronic renal failure) without the risk of rebound
   hypertension, given the patient
s history of labile BPs.
   - Changed Hydrocort stress dose steroids to home Prednisone 5mg daily
   - start Atenolol 25mg Qday
   - Plan to dc hydralazine/labetolol ASAP
   .
   # Abdominal Distension:  Patient
s abdomen continues to be distended
   and tympanitic, recent CT abdomen [**12-11**] showed large liver hematoma with
   scattered areas of perihepatic hematoma and scattered blood within the
   mesentery but without definite sites of active extravasation.
   Distension likely [**2-7**] chemical peritonitis which is resolving following
   reversal of anticoagulation vs. functional ileus/[**Last Name (un) **]
s syndrome
   from infection/sepsis, intra-abdominal bleed, narcotic use, or
   respiratory failure.  This is consistent with the patient
s continued
   +bowel sounds and leukocytosis, but CT abdomen did not show dilated R
   side of colon and loops of bowel were read to be wnl.  Currently
   improved abdominal pain and minimally improved distension, and abd much
   less tense than prior.  However, pt has had nausea with tube feeds and
   was only able to tolerate 2 hours of TF yesterday ([**12-17**]).
   - Monitor and manage conservatively for now, given patient
s underlying
   conditions are slowly resolving and he is clinically improving
   - Ok to restart tubefeeds but slowly
   - Will start Reglan 2.5mg TID standing for treatment of presumed
   diabetic gastroparesis
   .
   # Liver Hematoma:  DIC and hemolysis labs negative, consider bleed.  CT
   showed hematoma of liver, difficulty reversing bleed.  s/p 2 units
   PRBC.  IR consulted re: possible embolization, did not feel the bleed
   was acute (felt >48 hours old) and wished to preserve hepatic artery
   and liver function if possible, so recommended monitoring Hct.  General
   surgery consulted re: possible relation to PEG placement, but did not
   believe this was [**2-7**] procedure based on the location of the hematoma.
   Recommended montoring q6h Hct and coags, transfusing as needed and
   keeping Hct >20.  Received 1 unit PRBC but has had stable Hct since,
   suggesting resolution of bleed with reversal of PTT/INR.
   - daily HCT
   - Monitor coags and Hct daily, goal Hct >28
   - Active T&S
   .
   # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 500 qday and an extra 250 after HD.  Today,
   the patient is not alert or interactive.  Neurology recommended 24 hour
   EEG monitoring, which was performed [**12-15**] with results pending.  On
   [**12-14**], the patient became significantly less agitated and was responsive
   and conversant, obeying commands and expressing intact cognition.
   Likely causes are delirium [**2-7**] medical condition and opioid withdrawal,
   and possible seizure and encephalopathy from acute liver failure or
   methadone use in the setting of liver failure.
   - Continue Keppra 500mg IV q12h; extra 250mg IV keppra with HD.
   - f/u neuro recs; Neuro re-consulted [**12-15**], completed 24 hour video EEG
   monitoring.  Will follow up on results.
   .
   # Injected, Irritated Eyes:  Ophtho consulted, recommended eye drops.
   Improving.
   - Continue eye drops per Ophtho
   .
   # Pain:  Patient appears in pain and uncomfortable, likely due to
   stretch of hepatic capsule due to hematoma and significant abdominal
   distension.  Discontinued Morphine, Methadone, and Versed.  Initiated
   on Fentanyl IV.
   - Pt has not been receiving Fentanyl IV for >24 hours, and will
   minimize use for patient comfort
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - f/u renal recs
   - HD per renal, next HD [**2107-12-16**] (MWF)
   - Continue home does of prednisone; may need stress dose prednisone if
   HD unstable. Change PO to IV steroids given NPO s/p aspiration.
   - On Renagel 800 tid, Sevelemer 30.
   .
   # DVT: Patient found to have venous thrombi in several vessels
   including his IVC.  He was on a heparin drip, being bridged with
   coumadin.  However, all anticoagulation stopped when liver hematoma
   discovered.  Daily INR, no anticoagulation for now given liver hematoma
   and risk of bleed.
   - Will need to re-address the issue of anti-coagulation for the
   patient
s multiple thrombi but will hold off on this discussion until
   next week, after the patient has been stable for another several days
   - consult heme-onc today for anti-coag recs
   .
   Less active issues:
   .
   # Anemia.  See Hct section above.
   Previously, chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.
   - EPO at HD
   .
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachycardia and hypertensive.
   .
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   .
   # RUE swelling: Resolved. Had u/s that did not completely visualize
   subclavian vein, but was thought  that DVT was unlikely. When pt had
   PICC placed yesterday found a thrombosed/stenosed brachial-cephalic
   vein with +collaterals--needs plasty prior to Picc removal if afebrile.
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - [**Hospital1 **] insulin
   .
   FEN: No IVF, replete electrolytes, NPO, PMV use as tolerated.
   Restarting tubefeeds today.
   Prophylaxis:  sucralfate (per ID), pneumoboots
   Access: R PICC placed [**11-23**] now working, may need to be pulled due to
   fevers, and if so, will need to have new central line placed. L
   subclavian HD line placed [**11-30**], would be very hesitant to pull this
   line given how difficult it was to place.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU care continues given acuity of illness; discuss rehab
   placement with case management

2107-12-18 10:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p [** **] arrest, hepatic hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints
   24 Hour Events:
   Used PMV yesterday
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-16**] 01:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-12-18**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.3
   HR: 84 (84 - 104) bpm
   BP: 159/74(94) {104/50(65) - 213/140(158)} mmHg
   RR: 22 (15 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                  1,143 mL
                                                                    422 mL
   PO:
             TF:
                                                                     23 mL
   IVF:
                                                                    790 mL
                                                                    302 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,143 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 399 (343 - 596) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   335 K/uL
   97 mg/dL
   6.2 mg/dL
   28 mEq/L
   3.9 mEq/L
   42 mg/dL
   96 mEq/L
   139 mEq/L
   29.8 %
   16.9 K/uL
        [image002.jpg]
                            [**2107-12-15**]  07:53 AM
                            [**2107-12-15**]  08:00 AM
                            [**2107-12-15**]  02:52 PM
                            [**2107-12-16**]  04:53 AM
                            [**2107-12-16**]  05:00 PM
                            [**2107-12-16**]  10:00 PM
                            [**2107-12-17**]  04:25 AM
                            [**2107-12-17**]  08:00 AM
                            [**2107-12-17**]  05:10 PM
                            [**2107-12-18**]  02:59 AM
   WBC
   19.0
   16.6
   16.7
   15.4
   16.9
   Hct
   28.3
   29.8
   31.9
   27.6
   30.2
   29.8
   Plt
   [**Telephone/Fax (3) 11125**]01
   335
   Cr
   5.5
   4.6
   4.7
   6.2
   TCO2
   37
   Glucose
   88
   56
   91
   105
   78
   80
   97
   Other labs: PT / PTT / INR:15.7/30.9/1.4, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:262/56, Alk Phos / T Bili:399/1.2,
   Amylase / Lipase:100/31, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:288 IU/L, Ca++:10.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   62 yo man with multiple problems post [**Name2 (NI) **] arrest, including respiratory
   failure, ongoing fevers/WBC, large hepatic hematoma.
   Hepatic Hematoma/Blood Loss Anemia: Hct stable. Abd non-tender
   Altered MS
 Continues to be good today
   Hypertension: will start standing beta blocker today
   Resp failure
 TM as tolerated plus PMV
   Fevers and elevated WBC:  Day [**3-19**] of Bactrim.  Today is last day of
   vanc/zosyn.  Flagyl day#4 --> will d/c after 3 c. diff negative.
   Thomboses
 cont to hold heparin gtt in setting of liver hematoma
   CRF - HD per renal
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2107-12-19 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2107-12-19**] 04:00 AM
   - Vanc/Zosyn d/c'ed after completing 7 day course
   - Reglan started to help move bowels
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-16**] 01:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-19**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 97 (84 - 102) bpm
   BP: 149/68(88) {128/51(70) - 166/102(105)} mmHg
   RR: 17 (16 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.8 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                    840 mL
                                                                    234 mL
   PO:
             TF:
   IVF:
                                                                    540 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    840 mL
                                                                    234 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (399 - 400) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 9.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   353 K/uL
   9.5 g/dL
   77 mg/dL
   7.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   55 mg/dL
   98 mEq/L
   142 mEq/L
   31.0 %
   14.4 K/uL
        [image002.jpg]
                            [**2107-12-15**]  08:00 AM
                            [**2107-12-15**]  02:52 PM
                            [**2107-12-16**]  04:53 AM
                            [**2107-12-16**]  05:00 PM
                            [**2107-12-16**]  10:00 PM
                            [**2107-12-17**]  04:25 AM
                            [**2107-12-17**]  08:00 AM
                            [**2107-12-17**]  05:10 PM
                            [**2107-12-18**]  02:59 AM
                            [**2107-12-19**]  02:09 AM
   WBC
   19.0
   16.6
   16.7
   15.4
   16.9
   14.4
   Hct
   28.3
   29.8
   31.9
   27.6
   30.2
   29.8
   31.0
   Plt
   [**Telephone/Fax (3) 11134**]
   Cr
   5.5
   4.6
   4.7
   6.2
   7.7
   Glucose
   88
   56
   91
   105
   78
   80
   97
   77
   Other labs: PT / PTT / INR:16.5/31.7/1.5, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:214/40, Alk Phos / T Bili:391/1.0,
   Amylase / Lipase:100/31, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:288 IU/L, Ca++:10.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:6.4 mg/dL
   Micro:
GRAM STAIN (Final [**2107-12-13**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2107-12-16**]):
      Commensal Respiratory Flora Absent.
      STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA.    SPARSE GROWTH.
      STAPH AUREUS COAG +.    SPARSE GROWTH.
         Staphylococcus species may develop resistance during prolonged
         therapy with quinolones.   Therefore, isolates that are initially
         susceptible may become resistant within three to four days after
         initiation of therapy.  Testing of repeat isolates may be
         warranted.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STENOTROPHOMONAS (XANTHOMONAS) MALTOPHILIA
                             |          STAPH AUREUS COAG +
                             |          |
CLINDAMYCIN-----------           <=0.25 S
ERYTHROMYCIN----------           <=0.25 S
GENTAMICIN------------            <=0.5 S
LEVOFLOXACIN----------           <=0.12 S
OXACILLIN-------------              0.5 S
TRIMETHOPRIM/SULFA----   <=1 S    <=0.5 S
   Assessment and Plan
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest during IR placement of temporary HD catheter, now
   ventilator-dependent due to mental status.
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   Patient on Vanc/Zosyn.  CXR shows no clear evidence of PNA but CT [**12-11**]
   showed confluent consolidative opacity of superior RLL, atelectasis vs.
   aspirationi or pneumonia.  Pt was febrile following aspiration event
   but is now afebrile on Vanc/Zosyn x 3 days.  However, sputum from [**12-13**]
   still growing Stenotrophomonas despite a course of Bactrim which
   finished [**12-15**].
   - Re-start Bactrim x14 day course, day 1=[**12-16**] to d/c [**12-30**]; appears
   Bactrim may not have been given at the correct times after HD and may
   have been dialyzed off in the past
   - Cont Vanc/Zosyn to cover for aspiration (anaerobes) for a 7 day
   course, currently day 5 on [**12-16**], d/c on [**12-18**] -> will d/c today
   - Trach mask today as much as tolerated
   .
   # Fevers: Infection (recent sputum with Micrococcus and now with
   positive sputum Cx's as well) vs blood transfusion reaction (got 1U
   yesterday, hasn't received transfusions before this), possible drug
   reaction (started Keppra recently) vs TTP (less likely) vs abdominal
   perforation with free air under diaphragm (although just had PEG
   placed).  Of note: has had a long course of Cefepime for a positive UCx
   about 2 wks ago with Pseudomonas and most recently Linezolid was added
   for purulent appearing CVL
s bilaterally that have been removed. One of
   the CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.  [**Month (only) 60**] need to pull PICC in the future
   (febrile, and it
s an older line) and replace with new CVL. [**Month (only) 60**] need to
   talk to IR about pulling the PICC, but holding for now given vascular
   complexity.  Normal haptoglobin reduces likelihood of hemolytic
   reaction to blood transfusion, but febrile transfusion rxn still
   possible?  Received inhaled pentamidine for prophylaxis (given cellcept
   and prednisone).  On neo since early this morning, goal MAP >60.
   Question: sepsis as etiology with fever and leukocytosis, versus
   hypotension secondary to blood loss.
   .
   Sputum shows GNR and GPC in pairs and clusters.  d/c
ed flagyl as that
   would double-cover with zosyn for anaerobes, and zosyn coverage for
   aspiration is adequate.  C. diff negative.  Continued profound
   increasing leukocytosis. Last elevated T on [**2107-12-12**] (101.9).
   Leukocytosis resolved following discontinuation of steroids.  Multiple
   C. diff toxins negative, will d/c Flagyl.  Afebrile.
   - Given elevated WBC count and long term abxs, have started empiric
   coverage for C. diff colitis.  Will also send C. diff toxin x 3 and
   will stop tx if all negative.  Despite multiple negative C. diff
   studies, will continue Flagyl as patient is clinically improving on his
   current antibiotic regimen and Flagyl may be treating an occult
   infection.
   - send another c.diff
   - Continue vancomycin/zosyn for presumed aspiration PNA as above
 can
   d/c today [**12-18**]
   - Continue Bactrim as above for Stenotrophomonas
   - f/u cultures (blood and sputum cultures, aspergillus study)
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis. As of today ([**12-15**]), transitioned from AC
   to CPAP.
   - Trach mask planned for most of today, as tolerated
   - Pt has not received Fentanyl IV for >48 hours, will keep as prn but
   minimize use
   .
   # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**], then switched to Labetalol prn given fluctuating pressures.  On
   [**12-14**], Labetalol was d/c
ed and Hydralazine standing was started.
   - Continue Hydralazine Q6 hours; once BP stabilizes, consider
   transitioning to BP medication such as CCB or BB (hold off on ACE/[**Last Name (un) 239**]
   given acute on chronic renal failure) without the risk of rebound
   hypertension, given the patient
s history of labile BPs.
   - Changed Hydrocort stress dose steroids to home Prednisone 5mg daily
   - start Atenolol 25mg Qday
   - Plan to dc hydralazine/labetolol ASAP
   .
   # Abdominal Distension:  Patient
s abdomen continues to be distended
   and tympanitic, recent CT abdomen [**12-11**] showed large liver hematoma with
   scattered areas of perihepatic hematoma and scattered blood within the
   mesentery but without definite sites of active extravasation.
   Distension likely [**2-7**] chemical peritonitis which is resolving following
   reversal of anticoagulation vs. functional ileus/[**Last Name (un) **]
s syndrome
   from infection/sepsis, intra-abdominal bleed, narcotic use, or
   respiratory failure.  This is consistent with the patient
s continued
   +bowel sounds and leukocytosis, but CT abdomen did not show dilated R
   side of colon and loops of bowel were read to be wnl.  Currently
   improved abdominal pain and minimally improved distension, and abd much
   less tense than prior.  However, pt has had nausea with tube feeds and
   was only able to tolerate 2 hours of TF yesterday ([**12-17**]).
   - Monitor and manage conservatively for now, given patient
s underlying
   conditions are slowly resolving and he is clinically improving
   - Ok to restart tubefeeds but slowly
   - Will start Reglan 2.5mg TID standing for treatment of presumed
   diabetic gastroparesis
   .
   # Liver Hematoma:  DIC and hemolysis labs negative, consider bleed.  CT
   showed hematoma of liver, difficulty reversing bleed.  s/p 2 units
   PRBC.  IR consulted re: possible embolization, did not feel the bleed
   was acute (felt >48 hours old) and wished to preserve hepatic artery
   and liver function if possible, so recommended monitoring Hct.  General
   surgery consulted re: possible relation to PEG placement, but did not
   believe this was [**2-7**] procedure based on the location of the hematoma.
   Recommended montoring q6h Hct and coags, transfusing as needed and
   keeping Hct >20.  Received 1 unit PRBC but has had stable Hct since,
   suggesting resolution of bleed with reversal of PTT/INR.
   - daily HCT
   - Monitor coags and Hct daily, goal Hct >28
   - Active T&S
   .
   # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 500 qday and an extra 250 after HD.  Today,
   the patient is not alert or interactive.  Neurology recommended 24 hour
   EEG monitoring, which was performed [**12-15**] with results pending.  On
   [**12-14**], the patient became significantly less agitated and was responsive
   and conversant, obeying commands and expressing intact cognition.
   Likely causes are delirium [**2-7**] medical condition and opioid withdrawal,
   and possible seizure and encephalopathy from acute liver failure or
   methadone use in the setting of liver failure.
   - Continue Keppra 500mg IV q12h; extra 250mg IV keppra with HD.
   - f/u neuro recs; Neuro re-consulted [**12-15**], completed 24 hour video EEG
   monitoring.  Will follow up on results.
   .
   # Injected, Irritated Eyes:  Ophtho consulted, recommended eye drops.
   Improving.
   - Continue eye drops per Ophtho
   .
   # Pain:  Patient appears in pain and uncomfortable, likely due to
   stretch of hepatic capsule due to hematoma and significant abdominal
   distension.  Discontinued Morphine, Methadone, and Versed.  Initiated
   on Fentanyl IV.
   - Pt has not been receiving Fentanyl IV for >24 hours, and will
   minimize use for patient comfort
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - f/u renal recs
   - HD per renal, next HD [**2107-12-16**] (MWF)
   - Continue home does of prednisone; may need stress dose prednisone if
   HD unstable. Change PO to IV steroids given NPO s/p aspiration.
   - On Renagel 800 tid, Sevelemer 30.
   .
   # DVT: Patient found to have venous thrombi in several vessels
   including his IVC.  He was on a heparin drip, being bridged with
   coumadin.  However, all anticoagulation stopped when liver hematoma
   discovered.  Daily INR, no anticoagulation for now given liver hematoma
   and risk of bleed.
   - Will need to re-address the issue of anti-coagulation for the
   patient
s multiple thrombi but will hold off on this discussion until
   next week, after the patient has been stable for another several days
   - consult heme-onc today for anti-coag recs
   .
   Less active issues:
   .
   # Anemia.  See Hct section above.
   Previously, chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.
   - EPO at HD
   .
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachycardia and hypertensive.
   .
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   .
   # RUE swelling: Resolved. Had u/s that did not completely visualize
   subclavian vein, but was thought  that DVT was unlikely. When pt had
   PICC placed yesterday found a thrombosed/stenosed brachial-cephalic
   vein with +collaterals--needs plasty prior to Picc removal if afebrile.
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - [**Hospital1 **] insulin
   .
   FEN: No IVF, replete electrolytes, NPO, PMV use as tolerated.
   Restarting tubefeeds today.
   Prophylaxis:  sucralfate (per ID), pneumoboots
   Access: R PICC placed [**11-23**] now working, may need to be pulled due to
   fevers, and if so, will need to have new central line placed. L
   subclavian HD line placed [**11-30**], would be very hesitant to pull this
   line given how difficult it was to place.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU care continues given acuity of illness; discuss rehab
   placement with case management
   ICU Care
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Code status: Full code

2107-12-19 10:51:00 Physician Attending Progress Note
Chief Complaint: s/p [** **] arrest, Hepatic hematoma, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints.
   Getting HD
   24 Hour Events:
 INVASIVE VENTILATION - START [**2107-12-19**] 04:00 AM
 INVASIVE VENTILATION - STOP [**2107-12-19**] 06:30 AM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-12-16**] 01:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-12-19**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 90 (84 - 103) bpm
   BP: 147/59(78) {128/51(70) - 166/102(105)} mmHg
   RR: 12 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                    840 mL
                                                                    327 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    840 mL
                                                                    327 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   9.5 g/dL
   353 K/uL
   77 mg/dL
   7.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   55 mg/dL
   98 mEq/L
   142 mEq/L
   31.0 %
   14.4 K/uL
        [image002.jpg]
                            [**2107-12-15**]  08:00 AM
                            [**2107-12-15**]  02:52 PM
                            [**2107-12-16**]  04:53 AM
                            [**2107-12-16**]  05:00 PM
                            [**2107-12-16**]  10:00 PM
                            [**2107-12-17**]  04:25 AM
                            [**2107-12-17**]  08:00 AM
                            [**2107-12-17**]  05:10 PM
                            [**2107-12-18**]  02:59 AM
                            [**2107-12-19**]  02:09 AM
   WBC
   19.0
   16.6
   16.7
   15.4
   16.9
   14.4
   Hct
   28.3
   29.8
   31.9
   27.6
   30.2
   29.8
   31.0
   Plt
   [**Telephone/Fax (3) 11134**]
   Cr
   5.5
   4.6
   4.7
   6.2
   7.7
   Glucose
   88
   56
   91
   105
   78
   80
   97
   77
   Other labs: PT / PTT / INR:16.5/31.7/1.5, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:214/40, Alk Phos / T Bili:391/1.0,
   Amylase / Lipase:100/31, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:288 IU/L, Ca++:10.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   62 yo man with multiple problems post [**Name2 (NI) **] arrest, including respiratory
   failure, ongoing fevers/WBC, large hepatic hematoma.
   Hepatic Hematoma/Blood Loss Anemia: Hct stable.
   Altered MS
 Continues to be good today
   Hypertension: start ACE
   Resp failure
 TM as tolerated plus PMV
   Fevers and elevated WBC:  Day [**4-19**] of Bactrim.  Flagyl day#5 --> will
   d/c after 3 c. diff negative.
   Thomboses
 cont to hold heparin gtt in setting of liver hematoma.
   Will ask hematology on advice for restarting anticoagulation.
   CRF - on HD
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum: Stress ulcer ppx is sucralfate
 not PPI
   ------ Protected Section Addendum Entered By:[**Name (NI) 6010**] [**Name8 (MD) 6011**], MD
   on:[**2107-12-19**] 10:55 ------

2107-12-20 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - HD yesterday
   - Heme/Onc will consult today
   - More PVCs on tele
   Speech and Swallow RECOMMENDATIONS:
   1. Video swallow to further assess swallowing function and
   determine safest and least restrictive PO diet.
   2. Initiate PO intake of nectar thick liquids and soft solids
   with PMV in place for ALL POs.
   3. Pills crushed with puree.
   4. 1:1 supervision for all POs.
   5. Q6 oral care.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-20**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.3
   HR: 85 (80 - 110) bpm
   BP: 120/49(65) {95/49(63) - 152/80(91)} mmHg
   RR: 31 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                    900 mL
                                                                    414 mL
   PO:
                                                                    300 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  4,780 mL
                                                                      0 mL
   Urine:
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,880 mL
                                                                    414 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   GEN; nad, alert, denies pain or sob, responds to questions in short
   phrases appropriately, sitting in chair, receiving dialysis.
   HEENT: erythema in eyes much improved
   CV: RRR, II/VI SEM loudest at apex
   PULM: ctab
   ABD: distended, but non-tender, +bs
   EXTR: no pedal edema, tender hallux
   Labs / Radiology
   372 K/uL
   9.5 g/dL
   119 mg/dL
   5.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   29 mg/dL
   99 mEq/L
   140 mEq/L
   30.9 %
   11.1 K/uL
        [image002.jpg]
                            [**2107-12-15**]  02:52 PM
                            [**2107-12-16**]  04:53 AM
                            [**2107-12-16**]  05:00 PM
                            [**2107-12-16**]  10:00 PM
                            [**2107-12-17**]  04:25 AM
                            [**2107-12-17**]  08:00 AM
                            [**2107-12-17**]  05:10 PM
                            [**2107-12-18**]  02:59 AM
                            [**2107-12-19**]  02:09 AM
                            [**2107-12-20**]  01:57 AM
   WBC
   19.0
   16.6
   16.7
   15.4
   16.9
   14.4
   11.1
   Hct
   28.3
   29.8
   31.9
   27.6
   30.2
   29.8
   31.0
   30.9
   Plt
   [**Telephone/Fax (2) 11134**]
   372
   Cr
   5.5
   4.6
   4.7
   6.2
   7.7
   5.5
   Glucose
   56
   91
   105
   78
   80
   97
   77
   119
   Other labs: PT / PTT / INR:17.7/31.7/1.6, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:167/35, Alk Phos / T Bili:387/0.9,
   Amylase / Lipase:100/31, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:324 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p [**Doctor Last Name **] arrest during IR placement of temporary HD catheter, now
   ventilator-dependent due to mental status.
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   Patient on Vanc/Zosyn.  CXR shows no clear evidence of PNA but CT [**12-11**]
   showed confluent consolidative opacity of superior RLL, atelectasis vs.
   aspirationi or pneumonia.  Pt was febrile following aspiration event
   but is now afebrile on Vanc/Zosyn x 3 days.  However, sputum from [**12-13**]
   still growing Stenotrophomonas despite a course of Bactrim which
   finished [**12-15**]. s/p 7-day course of vanc/zosyn for aspiration that
   ended on [**12-18**].
   - Re-start Bactrim x14 day course, day 1=[**12-16**] to d/c [**12-30**]; appears
   Bactrim may not have been given at the correct times after HD and may
   have been dialyzed off in the past
   - Trach mask today
   .
   # Fevers: Infection (recent sputum with Micrococcus and now with
   positive sputum Cx's as well) vs blood transfusion reaction (got 1U
   yesterday, hasn't received transfusions before this), possible drug
   reaction (started Keppra recently) vs TTP (less likely) vs abdominal
   perforation with free air under diaphragm (although just had PEG
   placed).  Of note: has had a long course of Cefepime for a positive UCx
   about 2 wks ago with Pseudomonas and most recently Linezolid was added
   for purulent appearing CVL
s bilaterally that have been removed. One of
   the CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.  [**Month (only) 60**] need to pull PICC in the future
   (febrile, and it
s an older line) and replace with new CVL. [**Month (only) 60**] need to
   talk to IR about pulling the PICC, but holding for now given vascular
   complexity.  Normal haptoglobin reduces likelihood of hemolytic
   reaction to blood transfusion, but febrile transfusion rxn still
   possible?  Received inhaled pentamidine for prophylaxis (given cellcept
   and prednisone).  On neo since early this morning, goal MAP >60.
   Question: sepsis as etiology with fever and leukocytosis, versus
   hypotension secondary to blood loss.
   .
   Sputum shows GNR and GPC in pairs and clusters.  d/c
ed flagyl as that
   would double-cover with zosyn for anaerobes, and zosyn coverage for
   aspiration is adequate.  C. diff negative.  Continued profound
   increasing leukocytosis. Last elevated T on [**2107-12-12**] (101.9).
   Leukocytosis resolved following discontinuation of steroids.  Multiple
   C. diff toxins negative, will d/c Flagyl.  Afebrile.
   - Given elevated WBC count and long term abxs, have started empiric
   coverage for C. diff colitis.  Will also send C. diff toxin x 3 and
   will stop tx if all negative.  Despite multiple negative C. diff
   studies, will continue Flagyl as patient is clinically improving on his
   current antibiotic regimen and Flagyl may be treating an occult
   infection.  D1 = [**12-15**], d/c [**12-29**] after 14 day course.
   - Continue Bactrim as above for Stenotrophomonas
   .
   # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**], then switched to Labetalol prn given fluctuating pressures.  On
   [**12-14**], Labetalol was d/c
ed and Hydralazine standing was started.
   - Discontinue Hydralazine
   - Continue atenolol at 50mg daily
   - Continue lisinopril 10mg daily
   - Discontinue Labetalol prn as BP has not been above >160
   - Changed Hydrocort stress dose steroids to home Prednisone 5mg daily
   .
   # Foot Pain:  Likely gout, particularly given resolving hematoma and
   renal failure
   - Prednisone 40mg daily x5 days, as patient should not receive
   colchicine given his renal failure
   - Tylenol for pain, as pt should not receive NSAIDS due to his renal
   failure
   - I/O check to ensure net even
   .
   # Abdominal Distension:  Patient
s abdomen continues to be distended
   and tympanitic, recent CT abdomen [**12-11**] showed large liver hematoma with
   scattered areas of perihepatic hematoma and scattered blood within the
   mesentery but without definite sites of active extravasation.
   Distension likely [**2-7**] chemical peritonitis which is resolving following
   reversal of anticoagulation vs. functional ileus/[**Last Name (un) **]
s syndrome
   from infection/sepsis, intra-abdominal bleed, narcotic use, or
   respiratory failure.  This is consistent with the patient
s continued
   +bowel sounds and leukocytosis, but CT abdomen did not show dilated R
   side of colon and loops of bowel were read to be wnl.  Currently
   improved abdominal pain and minimally improved distension, and abd much
   less tense than prior.  However, pt has had nausea with tube feeds and
   was only able to tolerate 2 hours of TF yesterday ([**12-17**]).
   - Monitor and manage conservatively for now, given patient
s underlying
   conditions are slowly resolving and he is clinically improving
   - Encourage PO intake today
   - Continue Reglan 2.5mg TID standing for treatment of presumed diabetic
   gastroparesis
   .
   # Liver Hematoma:  DIC and hemolysis labs negative, consider bleed.  CT
   showed hematoma of liver, difficulty reversing bleed.  s/p 2 units
   PRBC.  IR consulted re: possible embolization, did not feel the bleed
   was acute (felt >48 hours old) and wished to preserve hepatic artery
   and liver function if possible, so recommended monitoring Hct.  General
   surgery consulted re: possible relation to PEG placement, but did not
   believe this was [**2-7**] procedure based on the location of the hematoma.
   Recommended montoring q6h Hct and coags, transfusing as needed and
   keeping Hct >20.  Received 1 unit PRBC but has had stable Hct since,
   suggesting resolution of bleed with reversal of PTT/INR.
   - f/u Heme/Onc consult today for anti-coagulation for multiple thrombi
   in setting of recent liver hematoma
   - Monitor coags and Hct daily, goal Hct >28
   - Active T&S
   .
   Less Active Issues:
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis. As of today ([**12-15**]), transitioned from AC
   to CPAP.
   - Trach mask today
   .
   # Altered mental status s/p [**Month/Year (2) **] arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 500 qday and an extra 250 after HD.  Today,
   the patient is not alert or interactive.  Neurology recommended 24 hour
   EEG monitoring, which was performed [**12-15**] with results pending.  On
   [**12-14**], the patient became significantly less agitated and was responsive
   and conversant, obeying commands and expressing intact cognition.
   Likely causes are delirium [**2-7**] medical condition and opioid withdrawal,
   and possible seizure and encephalopathy from acute liver failure or
   methadone use in the setting of liver failure.
   - Continue Keppra 500mg IV q12h; extra 250mg IV keppra with HD.
   - f/u neuro recs; Neuro re-consulted [**12-15**], completed 24 hour video EEG
   monitoring.
   - f/u EEG read
   .
   # Injected, Irritated Eyes:  Ophtho consulted, recommended eye drops.
   Improving.
   - Continue eye drops per Ophtho
   .
   # Pain:  Discontinued Morphine, Methadone, and Versed and Fentanyl.
   - Pain controlled
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - f/u renal recs
   - HD per renal, HD today (MWF)
   - Continue home does of prednisone; may need stress dose prednisone if
   HD unstable. Change PO to IV steroids given NPO s/p aspiration.
   - On Renagel 800 tid, Sevelemer 800 tid.
   .
   # DVT: Patient found to have venous thrombi in several vessels
   including his IVC.  He was on a heparin drip, being bridged with
   coumadin.  However, all anticoagulation stopped when liver hematoma
   discovered.  Daily INR, no anticoagulation for now given liver hematoma
   and risk of bleed.
   - Will need to re-address the issue of anti-coagulation for the
   patient
s multiple thrombi
   - consult heme-onc today for anti-coag recs
   .
   Less active issues:
   .
   # Anemia.  See Hct section above.
   Previously, chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.
   - EPO at HD
   .
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachycardia and hypertensive.
   .
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   .
   # RUE swelling: Resolved. Had u/s that did not completely visualize
   subclavian vein, but was thought  that DVT was unlikely. When pt had
   PICC placed yesterday found a thrombosed/stenosed brachial-cephalic
   vein with +collaterals--needs plasty prior to Picc removal if afebrile.
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - [**Hospital1 **] insulin
   .
   FEN: No IVF, replete electrolytes, encourage PO, PMV use as tolerated.
   Hold tubefeeds. Speech & swallow consult.
   Prophylaxis:  sucralfate (per ID), pneumoboots
   Access: R PICC placed [**11-23**] now working, may need to be pulled due to
   fevers, and if so, will need to have new central line placed. L
   subclavian HD line placed [**11-30**], would be very hesitant to pull this
   line given how difficult it was to place. Keep lines for now status
   quo.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU care; screening for rehab placement with case
   management
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-20 08:59:00 Physician Attending Progress Note
Chief Complaint: Hepatic hematoma, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   c/o R great toe pain
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-12-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: Tube feeds
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-12-20**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.4
   HR: 84 (80 - 110) bpm
   BP: 119/52(67) {95/49(63) - 152/90(95)} mmHg
   RR: 19 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                    900 mL
                                                                    428 mL
   PO:
                                                                    300 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    188 mL
   Blood products:
   Total out:
                                                                  4,780 mL
                                                                      0 mL
   Urine:
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,880 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, R great toe tenderness, no erythema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   9.5 g/dL
   372 K/uL
   119 mg/dL
   5.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   29 mg/dL
   99 mEq/L
   140 mEq/L
   30.9 %
   11.1 K/uL
        [image002.jpg]
                            [**2107-12-15**]  02:52 PM
                            [**2107-12-16**]  04:53 AM
                            [**2107-12-16**]  05:00 PM
                            [**2107-12-16**]  10:00 PM
                            [**2107-12-17**]  04:25 AM
                            [**2107-12-17**]  08:00 AM
                            [**2107-12-17**]  05:10 PM
                            [**2107-12-18**]  02:59 AM
                            [**2107-12-19**]  02:09 AM
                            [**2107-12-20**]  01:57 AM
   WBC
   19.0
   16.6
   16.7
   15.4
   16.9
   14.4
   11.1
   Hct
   28.3
   29.8
   31.9
   27.6
   30.2
   29.8
   31.0
   30.9
   Plt
   [**Telephone/Fax (3) 11134**]
   372
   Cr
   5.5
   4.6
   4.7
   6.2
   7.7
   5.5
   Glucose
   56
   91
   105
   78
   80
   97
   77
   119
   Other labs: PT / PTT / INR:17.7/31.7/1.6, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:167/35, Alk Phos / T Bili:387/0.9,
   Amylase / Lipase:100/31, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:324 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   62 yo man with multiple problems post [**Name2 (NI) **] arrest, including respiratory
   failure, ongoing fevers/WBC, large hepatic hematoma.
   Hepatic Hematoma/Blood Loss Anemia: Hct remains stable.
   Hypertension: start ACE
   Resp failure
 TM as tolerated plus PMV
   Fevers and elevated WBC:  Still has low grade temps but WBC down.  Day
   [**5-19**] of Bactrim.  Flagyl day#6 --> will d/c after 3 c. diff negative.
   Thomboses
 hematology consulting today, holding heparin
   CRF - HD per renal
   R great toe pain: c/w gout
 will give short course of increase pred
   40mg x5 days
   Rehab screening
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2107-12-21 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2107-12-20**] 05:41 PM
   video swallow evaluation
   Hem/Onc:
   - Lower extremity Dopplers to assess for DVTs
   - Consider placement of IVC filter.
   - video swallow: silent aspiration seen on s/s for thin liquids. Recs:
   1. Suggest a PO diet of nectar thick liquids and soft consistency
   solids. 2. PMV on for all POs. 3. Meds crushed with purees. 4. Monitor
   for nutritional intake. 5. Q6 oral care. 6. Follow up speech therapy in
   rehab s/p d/c
   - Gout flare: increased prednisone from 5mg daily to 40mg Daily x 5
   days.
   - placement: bed found, but too late in day to transfer patient.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-12-21**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 65 (65 - 87) bpm
   BP: 135/65(82) {101/43(44) - 150/76(126)} mmHg
   RR: 26 (13 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                    710 mL
                                                                     74 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    440 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                     74 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   429 K/uL
   9.9 g/dL
   150 mg/dL
   7.4 mg/dL
   30 mEq/L
   4.0 mEq/L
   40 mg/dL
   98 mEq/L
   140 mEq/L
   31.7 %
   11.0 K/uL
        [image002.jpg]
                            [**2107-12-16**]  05:00 PM
                            [**2107-12-16**]  10:00 PM
                            [**2107-12-17**]  04:25 AM
                            [**2107-12-17**]  08:00 AM
                            [**2107-12-17**]  05:10 PM
                            [**2107-12-18**]  02:59 AM
                            [**2107-12-19**]  02:09 AM
                            [**2107-12-20**]  01:57 AM
                            [**2107-12-20**]  10:26 AM
                            [**2107-12-21**]  02:26 AM
   WBC
   16.7
   15.4
   16.9
   14.4
   11.1
   11.1
   11.0
   Hct
   31.9
   27.6
   30.2
   29.8
   31.0
   30.9
   30.9
   31.7
   Plt
   [**Telephone/Fax (3) **]53
   372
    372
   429
   Cr
   4.6
   4.7
   6.2
   7.7
   5.5
   7.4
   Glucose
   91
   105
   78
   80
   97
   77
   119
   150
   Other labs: PT / PTT / INR:17.1/30.7/1.5, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:135/37, Alk Phos / T Bili:386/0.8,
   Amylase / Lipase:100/31, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:329 IU/L, Ca++:10.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.8 mg/dL
   -LFT
s all stable.
   No new micro.
   No new imaging.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   61M with ESRD s/p CRT, HTN, DM, admitted with dyspnea and ARF and now
   s/p PEA arrest during IR placement of temporary HD catheter, now
   ventilator-dependent due to mental status
 now trach
d and prepared to
   go to rehab.
   .
   # Aspiration:  Patient had emesis during morning rounds, aspirated tube
   feeds but respiratory therapist and nurse suctioned out aspirate.
   Currently not hypoxic and afebrile.  Risk for aspiration pneumonitis
   vs. aspiration PNA.  Hold on CXR until patient clinically shows signs
   of infection, as this would not change management currently.  Also hold
   antibiotics for now until patient shows evidence of aspiration
   pneumonia, but if signs of infection, consider Vanc/Cefepime/Flagyl.
   Patient on Vanc/Zosyn.  CXR shows no clear evidence of PNA but CT [**12-11**]
   showed confluent consolidative opacity of superior RLL, atelectasis vs.
   aspirationi or pneumonia.  Pt was febrile following aspiration event
   but is now afebrile on Vanc/Zosyn x 3 days.  However, sputum from [**12-13**]
   still growing Stenotrophomonas despite a course of Bactrim which
   finished [**12-15**]. s/p 7-day course of vanc/zosyn for aspiration that
   ended on [**12-18**].
   - Re-start Bactrim x14 day course, day 1=[**12-16**] to d/c [**12-30**]; appears
   Bactrim may not have been given at the correct times after HD and may
   have been dialyzed off in the past
   - Trach mask cont.
   .
   # Fevers: Infection (recent sputum with Micrococcus and now with
   positive sputum Cx's as well) vs blood transfusion reaction (got 1U
   yesterday, hasn't received transfusions before this), possible drug
   reaction (started Keppra recently) vs TTP (less likely) vs abdominal
   perforation with free air under diaphragm (although just had PEG
   placed).  Of note: has had a long course of Cefepime for a positive UCx
   about 2 wks ago with Pseudomonas and most recently Linezolid was added
   for purulent appearing CVL
s bilaterally that have been removed. One of
   the CVL
s grew out Micrococcus and according to ID, the Cefepime should
   have covered it. He received a 14d course of Cefepime and 9d course of
   Linezolid.   Sputum from [**12-2**] showed coag positive Staph aureus and
   Stenotrophomonas Maltophilia, both sparse growth, the latter of which
   is sensitive to Bactrim.  Fever curve down-trending on Bactrim, d/c
   Vanc/Zosyn.  Previously d/c
ed cipro and linezolid and flagyl. Now has
   gram (-) rods in sputum as well.  [**Month (only) 60**] need to pull PICC in the future
   (febrile, and it
s an older line) and replace with new CVL. [**Month (only) 60**] need to
   talk to IR about pulling the PICC, but holding for now given vascular
   complexity.  Normal haptoglobin reduces likelihood of hemolytic
   reaction to blood transfusion, but febrile transfusion rxn still
   possible?  Received inhaled pentamidine for prophylaxis (given cellcept
   and prednisone).  On neo since early this morning, goal MAP >60.
   Question: sepsis as etiology with fever and leukocytosis, versus
   hypotension secondary to blood loss.
   .
   Sputum shows GNR and GPC in pairs and clusters.  d/c
ed flagyl as that
   would double-cover with zosyn for anaerobes, and zosyn coverage for
   aspiration is adequate.  C. diff negative.  Continued profound
   increasing leukocytosis. Last elevated T on [**2107-12-12**] (101.9).
   Leukocytosis resolved following discontinuation of steroids.  Multiple
   C. diff toxins negative, will d/c Flagyl.  Afebrile.
   - Given elevated WBC count and long term abxs, have started empiric
   coverage for C. diff colitis.  Will also send C. diff toxin x 3 and
   will stop tx if all negative.  Despite multiple negative C. diff
   studies, will continue Flagyl as patient is clinically improving on his
   current antibiotic regimen and Flagyl may be treating an occult
   infection.  D1 = [**12-15**], d/c [**12-29**] after 14 day course.
   - Continue Bactrim as above for Stenotrophomonas
   .
   # Labile blood pressures: Pt has been intermittently hypotensive
   (infectious source vs hypovolemia?) and hypertensive, for which he was
   getting Labetalol. He is now more persistently hypertensive, up to
   190
s/100
s.  Was transitioned from Labetalol drip to po Labetalol
   [**12-9**], then switched to Labetalol prn given fluctuating pressures.  On
   [**12-14**], Labetalol was d/c
ed and Hydralazine standing was started.
   - Discontinue Hydralazine
   - Continue atenolol at 50mg daily
   - Continue lisinopril 10mg daily
   - Discontinue Labetalol prn as BP has not been above >160
   - Changed Hydrocort stress dose steroids to home Prednisone 5mg daily
   .
   # Foot Pain:  Likely gout, particularly given resolving hematoma and
   renal failure
   - Prednisone 40mg daily x5 days ([**Date range (1) 11152**]), as patient should not
   receive colchicine given his renal failure
   - Tylenol for pain, as pt should not receive NSAIDS due to his renal
   failure
   .
   # Abdominal Distension:  Patient
s abdomen continues to be distended
   and tympanitic, recent CT abdomen [**12-11**] showed large liver hematoma with
   scattered areas of perihepatic hematoma and scattered blood within the
   mesentery but without definite sites of active extravasation.
   Distension likely [**2-7**] chemical peritonitis which is resolving following
   reversal of anticoagulation vs. functional ileus/[**Last Name (un) **]
s syndrome
   from infection/sepsis, intra-abdominal bleed, narcotic use, or
   respiratory failure.  This is consistent with the patient
s continued
   +bowel sounds and leukocytosis, but CT abdomen did not show dilated R
   side of colon and loops of bowel were read to be wnl.  Currently
   improved abdominal pain and minimally improved distension, and abd much
   less tense than prior.  However, pt has had nausea with tube feeds and
   was only able to tolerate 2 hours of TF yesterday ([**12-17**]).
   - Monitor and manage conservatively for now, given patient
s underlying
   conditions are slowly resolving and he is clinically improving
   - Encourage PO intake today
   - Continue Reglan 2.5mg TID standing for treatment of presumed diabetic
   gastroparesis
   .
   # Liver Hematoma:  DIC and hemolysis labs negative, consider bleed.  CT
   showed hematoma of liver, difficulty reversing bleed.  s/p 2 units
   PRBC.  IR consulted re: possible embolization, did not feel the bleed
   was acute (felt >48 hours old) and wished to preserve hepatic artery
   and liver function if possible, so recommended monitoring Hct.  General
   surgery consulted re: possible relation to PEG placement, but did not
   believe this was [**2-7**] procedure based on the location of the hematoma.
   Recommended montoring q6h Hct and coags, transfusing as needed and
   keeping Hct >20.  Received 1 unit PRBC but has had stable Hct since,
   suggesting resolution of bleed with reversal of PTT/INR.
   - f/u Heme/Onc consult today for anti-coagulation for multiple thrombi
   in setting of recent liver hematoma
   - Monitor coags and Hct daily, goal Hct >28
   - Active T&S
   .
   Less Active Issues:
   .
   # Respiratory failure. Originally intubated in setting of arrest with
   possible hypoxia beforehand.  Some question of PNA on CT chest and has
   had CXR's with LLL atelectasis vs infiltrate, unclear whether he truly
   has PNA or not.  Had bronch that was unrevealing, Cx
s now reveal GNR
   and coag (+) staph.  Trach and PEG placed on [**12-2**].  Now off sedation,
   d/c
ed Seroquel, Propofol, Midazolam sedation.  On trach mask most of
   day with some resp acidosis. As of today ([**12-15**]), transitioned from AC
   to CPAP.
   - Trach mask today
   .
   # Altered mental status s/p PEA arrest:  Patient has intact brainstem
   reflexes but it is difficult to assess his cortex.  His MRI, though
   severely limited by motion artifact, did not show any signs of acute
   ischemia.  Weaning of sedation has consistently shown agitation. He was
   making some strides towards improvement last week, with following
   commands and responding to the environment, but most recently he has
   just been thrashing around and very agitated when sedation is weaned,
   not following commands, not tracking across the room, not making
   progress.  Changed from Propofol to versed because of triglycerides of
   700. Most recently, Neuro has noted a staring spell that was concerning
   for continued seizures, so he was on continuous EEG for a while, with
   epileptiform spikes but not outright seizure activity. They recommended
   a Keppra load, with Keppra 500 qday and an extra 250 after HD.  Today,
   the patient is not alert or interactive.  Neurology recommended 24 hour
   EEG monitoring, which was performed [**12-15**] with results pending.  On
   [**12-14**], the patient became significantly less agitated and was responsive
   and conversant, obeying commands and expressing intact cognition.
   Likely causes are delirium [**2-7**] medical condition and opioid withdrawal,
   and possible seizure and encephalopathy from acute liver failure or
   methadone use in the setting of liver failure.
   - Continue Keppra 500mg IV q12h; extra 250mg IV keppra with HD.
   - f/u neuro recs; Neuro re-consulted [**12-15**], completed 24 hour video EEG
   monitoring.
   - f/u EEG read
   .
   # Injected, Irritated Eyes:  Ophtho consulted, recommended eye drops.
   Improving.
   - Continue eye drops per Ophtho
   .
   # Pain:  Discontinued Morphine, Methadone, and Versed and Fentanyl.
   - Pain controlled
   .
   # Acute on chronic renal failure.  He is s/p CRT in [**2101**].  Etiology of
   ARF unclear thus far, but per Dr. [**Last Name (STitle) 699**] it is unlikely that he will
   regain enough renal function to be free of dialysis.  Had started back
   on CVVH after getting R groin HD line, but most recently this has not
   been functioning well, IR has tried to replace it, and had been
   unsuccessful. So, they placed a L subclavian line which has been
   working successfully.
   - f/u renal recs
   - HD per renal, HD today (MWF)
   - Continue home does of prednisone; may need stress dose prednisone if
   HD unstable. Change PO to IV steroids given NPO s/p aspiration.
   - On Renagel 800 tid, Sevelemer 800 tid.
   .
   # DVT: Patient found to have venous thrombi in several vessels
   including his IVC.  He was on a heparin drip, being bridged with
   coumadin.  However, all anticoagulation stopped when liver hematoma
   discovered.  Daily INR, no anticoagulation for now given liver hematoma
   and risk of bleed.
   - Will need to re-address the issue of anti-coagulation for the
   patient
s multiple thrombi
   - consult heme-onc today for anti-coag recs
   .
   Less active issues:
   .
   # Anemia.  See Hct section above.
   Previously, chronic and stable.  ?ACD (c/w recent Fe studies) vs.
   related to renal disease. B12 and Folate normal.  Doesn't appear to be
   DIC, or hemolysis.
   - EPO at HD
   .
   # ST elevations transiently seen on EKG: Transient, resolved; in
   setting of tachycardia and hypertensive.
   .
   # Endo: Elevated PTH is likely secondary or tertiary and due to renal
   failure. Has been hypercalcemic and hyperphosphatemic. Per renal recs,
   have increased AlOH to 45 tid.
   .
   # RUE swelling: Resolved. Had u/s that did not completely visualize
   subclavian vein, but was thought  that DVT was unlikely. When pt had
   PICC placed yesterday found a thrombosed/stenosed brachial-cephalic
   vein with +collaterals--needs plasty prior to Picc removal if afebrile.
   .
   # DM type II. Due to hypoglycemia surrounding cooling was taken off of
   long-acting insulin.  Glucose control suboptimal now w/ sliding scale
   only.
   - [**Hospital1 **] insulin
   .
   FEN: No IVF, replete electrolytes, encourage PO with speech & swallow
   restrictions, PMV use as tolerated. Hold tubefeeds.
   Prophylaxis:  sucralfate (per ID), pneumoboots
   Access: R PICC placed [**11-23**] now working, may need to be pulled due to
   fevers, and if so, will need to have new central line placed. L
   subclavian HD line placed [**11-30**], would be very hesitant to pull this
   line given how difficult it was to place. Keep lines for now status
   quo.
   Code:  Full (discussed with family)
   Communication: with wife [**Name (NI) 470**] [**Telephone/Fax (1) 10045**].
   Disposition: ICU care; screening for rehab placement with case
   management
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-12-21 10:43:00 Physician Attending Progress Note
Chief Complaint: s/p [** **] arrest, hepatic hematoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   R great toe pain present but improved
   24 Hour Events:
 FLUOROSCOPY - At [**2107-12-20**] 05:41 PM
   video swallow evaluation-->silent aspiration of thin liquids without
   cough
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-12-21**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 78 (61 - 87) bpm
   BP: 135/67(82) {101/47(44) - 164/76(121)} mmHg
   RR: 25 (13 - 43) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 110 kg
   Height: 70 Inch
             Total In:
                                                                    710 mL
                                                                    225 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    440 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                    225 mL
   Respiratory support
   SpO2: 92%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   9.9 g/dL
   429 K/uL
   150 mg/dL
   7.4 mg/dL
   30 mEq/L
   4.0 mEq/L
   40 mg/dL
   98 mEq/L
   140 mEq/L
   31.7 %
   11.0 K/uL
        [image002.jpg]
                            [**2107-12-16**]  05:00 PM
                            [**2107-12-16**]  10:00 PM
                            [**2107-12-17**]  04:25 AM
                            [**2107-12-17**]  08:00 AM
                            [**2107-12-17**]  05:10 PM
                            [**2107-12-18**]  02:59 AM
                            [**2107-12-19**]  02:09 AM
                            [**2107-12-20**]  01:57 AM
                            [**2107-12-20**]  10:26 AM
                            [**2107-12-21**]  02:26 AM
   WBC
   16.7
   15.4
   16.9
   14.4
   11.1
   11.1
   11.0
   Hct
   31.9
   27.6
   30.2
   29.8
   31.0
   30.9
   30.9
   31.7
   Plt
   [**Telephone/Fax (3) **]53
   372
    372
   429
   Cr
   4.6
   4.7
   6.2
   7.7
   5.5
   7.4
   Glucose
   91
   105
   78
   80
   97
   77
   119
   150
   Other labs: PT / PTT / INR:17.1/30.7/1.5, CK / CKMB /
   Troponin-T:112/1/0.19, ALT / AST:135/37, Alk Phos / T Bili:386/0.8,
   Amylase / Lipase:100/31, Differential-Neuts:89.0 %, Band:5.0 %,
   Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:854 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:329 IU/L, Ca++:10.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   62 yo man with multiple problems post [**Name2 (NI) **] arrest, including respiratory
   failure, ongoing fevers/WBC, large hepatic hematoma.
   Hepatic Hematoma/Blood Loss Anemia: Hct remains stable.
   Resp failure
 TM  plus PMV - not requiring vent at night
   Fevers and elevated WBC:  Day [**6-19**] of Bactrim.  D/C Flagyl
   Thomboses
 will not restart systemic anti-coagulation.  would not
   favor filter at his time since clot [**Last Name (un) **] now several days old and filter
   may end up being a bnidus for more clotting.
   CRF - HD today
   R great toe pain: getting 5 course of pred 40mg
   Rehab screening - may go today post-HD
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-11-23**] 06:22 PM
   Dialysis Catheter - [**2107-11-30**] 04:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   Patient is critically ill